2191-04-02 06:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - No overnight issues, subjectively feels the same level of shortness
   of breath
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2191-4-1**] 11:30 PM
   Piperacillin - [**2191-4-2**] 12:45 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-2**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98
   HR: 94 (91 - 101) bpm
   BP: 128/49(68) {107/49(66) - 128/72(85)} mmHg
   RR: 27 (19 - 37) insp/min
   SpO2: 95%
   Height: 59 Inch
             Total In:
                                                                    217 mL
                                                                    714 mL
   PO:
             TF:
   IVF:
                                                                    217 mL
                                                                    714 mL
   Blood products:
   Total out:
                                                                    260 mL
                                                                    305 mL
   Urine:
                                                                    260 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -43 mL
                                                                    409 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: 7.42/40/106/26/0
   PaO2 / FiO2: 106
   Physical Examination
   GEN: Ill-appearing, slightly uncomfortable though speaking in full
   sentences.
   HEENT: PERRL. Anicteric. No pallor. Dry MM. No apparent thrush. Poor
   dentition. No cervical LAD.
   CV: RRR. No murmurs appreciated.
   PULM: Diffuse crackles.
   ABD: Soft. NT/ND. Good bowel sounds. Superficial echymoses.
   EXT: Warm. Trace edema bilaterally.
   NEURO: CNII-XII grossly intact. Strength 5-/5 in all four extremitites
   both distally and proximally.  Sensation grossly intact to light touch.
   Labs / Radiology
   339 K/uL
   9.4 g/dL
   155 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.5 mEq/L
   16 mg/dL
   102 mEq/L
   135 mEq/L
   27.7 %
   17.1 K/uL
        [image002.jpg]
                             [**2191-4-1**]  10:04 PM
                             [**2191-4-1**]  11:02 PM
                             [**2191-4-2**]  05:13 AM
   WBC
   16.6
   17.1
   Hct
   29.5
   27.7
   Plt
   358
   339
   Cr
   0.8
   0.7
   TCO2
   27
   Glucose
   124
   155
   Other labs: PT / PTT / INR:13.9/30.7/1.2, ALT / AST:21/46, Alk Phos / T
   Bili:76/0.4, Differential-Neuts:95.6 %, Lymph:2.3 %, Mono:1.5 %,
   Eos:0.5 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:797 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   62F with admission for PNA to an OSH, now presenting on transfer with
   hypoxia.
   1. Hypoxia. Meets criteria for ARDS (PaO2/FiO2 <200), bilateral
   infiltrates of relatively acute onset without apparent elevated left
   filling pressures.  The cause is unclear though she did present to the
   OSH with a PNA. DDx for persisent hypoxia: IPF, BOOP/COP (but less
   likely as not improved with 10 days steroids), eosinophilic PNA (maybe
   acute, but no eos on differential argues against chronic), bacterial
   PNA (but likely either treated or resistant organism), and aspiration
   PNA.
   - Defer intubation for the time being, but started CPAP for comfort and
   to help with fatigue
   -Obtain ABG after one hour CPAP as marker for worsening
   hypercapnea/hypoxemia and possible support for intubation later
   - Supplemental oxygen to keep sat >90%
   - Continue treatment for PNA with vanc, but d/c Zosyn as has been on
   for 6 days with no improvement. D/c vanc tomorrow for same reason, but
   continue if worsens precipitously
   - Continue nebs PRN
   - Quick prednisone taper (50 -> 40 -> 30 -> 20 -> 10 -> 0)
   - Will keep euvolemic for now
   - Review OSH chest CT with RADS and obtain high-res non-con CT chest
   today to assess for interval change
   - Sputum culture, if able
   - F/u ANCA, [**Doctor First Name **] here, and HIV from OSH
   - While on CPAP, use Ativan and morphine for agitation
   2. Leukocytosis. Multifactorial with PNA and steroids likely
   contributors.
   3. Hypertension. Given possibility of intubation, will hold off on
   starting home meds now.
   4. Hyperlipidemia. Atorvastatin.
   5. Hypothyroidism. Levothyroxine.
   6. Anxiety. Klonopin.
   7. Depression. Imiprimine
   ACCESS: Midline from OSH, PIV x1
   FEN: NPO for now; maintenance IVF
   PPX: SC heparin; PPI
   FULL CODE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2191-4-1**] 10:31 PM
   Midline - [**2191-4-1**] 10:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-04-03 09:20:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Details in yesterday's notes
   24 Hour Events:
   Intubated yesterday for work of breathing and hypoxemia
   Left IJ central line and a-line inserted
   Difficult to ventilate overnight with high FiO2 requirements and PIPs
   upper 40s
   Failed attempt at PCV with decreased PEEP
   Sedation increased for overbreathing - currently at versed 25 mg/hr,
   fent 350 mcg/hr
   I/o positive ~ 4 L
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Piperacillin - [**2191-4-2**] 12:45 AM
   Vancomycin - [**2191-4-2**] 09:19 PM
   Infusions:
   Midazolam (Versed) - 28.7 mg/hour
   Fentanyl - 350 mcg/hour
   Other ICU medications:
   Other medications:
   methylpred 30-->20
   Propofol drip being started
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-3**] 09:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.2
   HR: 111 (82 - 111) bpm
   BP: 131/62(81) {116/53(73) - 131/65(85)} mmHg
   RR: 31 (18 - 35) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
   CVP: 15 (15 - 15)mmHg
   Total In:
                                                                  4,172 mL
                                                                  1,216 mL
   PO:
   TF:
   IVF:
                                                                  4,067 mL
                                                                  1,216 mL
   Blood products:
   Total out:
                                                                  1,065 mL
                                                                    225 mL
   Urine:
                                                                  1,065 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,107 mL
                                                                    991 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (300 - 350) mL
   Vt (Spontaneous): 440 (440 - 763) mL
   PS : 14 cmH2O
   RR (Set): 26
   RR (Spontaneous): 28-30
   PEEP: 10 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10
   PIP: 50 cmH2O
   Plateau: 36 cmH2O
   Compliance: 13.5 cmH2O/mL
   SpO2: 95%
   ABG: 7.20/66/66/25/-3
   Ve: 10.4 L/min
   PaO2 / FiO2: 66
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no murmurs
   Peripheral Vascular: PPP
   Respiratory / Chest: coarse breath sounds bilat
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Skin:  warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   285 K/uL
   203 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.2 mEq/L
   21 mg/dL
   105 mEq/L
   137 mEq/L
   26.0 %
   16.9 K/uL
        [image002.jpg]
                             [**2191-4-2**]  04:11 PM
                             [**2191-4-2**]  07:21 PM
                             [**2191-4-2**]  07:57 PM
                             [**2191-4-2**]  10:25 PM
                             [**2191-4-2**]  11:46 PM
                             [**2191-4-3**]  01:22 AM
                             [**2191-4-3**]  02:38 AM
                             [**2191-4-3**]  04:56 AM
                             [**2191-4-3**]  05:09 AM
                             [**2191-4-3**]  06:15 AM
   WBC
   16.9
   Hct
   25.6
   26.0
   Plt
   285
   Cr
   0.8
   TCO2
   29
   28
   29
   27
   26
   26
   27
   27
   Glucose
   203
   Other labs: PT / PTT / INR:13.5/27.6/1.2, ALT / AST:21/46, Alk Phos / T
   Bili:76/0.4, Differential-Neuts:95.6 %, Lymph:2.3 %, Mono:1.5 %,
   Eos:0.5 %, Lactic Acid:0.7 mmol/L, Albumin:2.6 g/dL, LDH:394 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR reviewed - white out, ETT ok, OG ok. Lung fields worse
   after PCV trial.
   Assessment and Plan
   - Acute respiratory failure
 need to paralyse then use esophageal
   balloon to guide PEEPs and FiO2. Difficult to sedate with
   versed/fentanyl so switching to Propofol.  Would add cefepime to Vanc
   given her increasing infiltrates, persistent leukocytosis (on
   steroids). Unfortuntately she is too sick to obtain a lung biopsy or
   even transport for CT. Will empirically give high dose steroids. Will
   obtain a mini-BAL if possible.
   - Oliguria/FEN
 will try diuresing given 4 L positive balance, low
   pulmonary reserve. [**Month (only) 8**] need TPN, hold tube feeds.
   - Sedation
 would continue regular dosing of ativan to prevent benzo
   withdrawal.
   ICU Care
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2191-4-1**] 10:57 PM
   18 Gauge - [**2191-4-2**] 06:30 PM
   Arterial Line - [**2191-4-2**] 07:52 PM
   Multi Lumen - [**2191-4-2**] 10:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2191-04-09 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient had a cuff leak around high endotracheal tube in morning. Was
   repositioned over bronchoscope.
   - Around this event the sedation requirement was increased.
   - Patient received 150 mEq HCO3 in D5W for low urine output
   - Vent setting tidal volume increased to 260 in the morning with
   evening ABG 7.34/52/85
   - Hypoxic briefly in middle of night and ABG drawn 7.31/55/65, PEEP
   increased to 12 briefly prior to being cut back to 10 due to high peak
   airway pressures
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 250 mcg/hour
   Midazolam (Versed) - 13 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2191-4-8**] 11:04 AM
   Fentanyl - [**2191-4-8**] 11:04 AM
   Vecuronium - [**2191-4-8**] 11:04 AM
   Pantoprazole (Protonix) - [**2191-4-8**] 08:21 PM
   Heparin Sodium (Prophylaxis) - [**2191-4-9**] 12:05 AM
   Methadone Hydrochloride - [**2191-4-9**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unable to obtain
   Flowsheet Data as of  [**2191-4-9**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 83 (82 - 97) bpm
   BP: 142/67(94) {111/53(73) - 142/67(94)} mmHg
   RR: 40 (31 - 49) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
    CVP: 11 (4 - 15)mmHg
             Total In:
                                                                  2,576 mL
                                                                    383 mL
   PO:
             TF:
                                                                    772 mL
                                                                    179 mL
   IVF:
                                                                  1,684 mL
                                                                    204 mL
   Blood products:
   Total out:
                                                                  1,420 mL
                                                                    220 mL
   Urine:
                                                                  1,020 mL
                                                                    220 mL
   Stool:
                                                                    400 mL
   Balance:
                                                                  1,156 mL
                                                                    163 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 260 (260 - 260) mL
   RR (Set): 40
   RR (Spontaneous): 1
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, RR >35, Neuromusc Block, Vent
   Dependant
   PIP: 45 cmH2O
   Plateau: 39 cmH2O
   Compliance: 9.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.36/49/74/25/0
   Ve: 11 L/min
   PaO2 / FiO2: 106
   Physical Examination
   GEN: Intubated, sedated, does not follow commands
   HEENT: PERRL. Brisk pupil response bilaterally. Anicteric. No pallor.
   No cervical LAD.
   CV: RR, nl S1, nl S2, No murmurs appreciated.
   PULM: Coarse breath sounds bilaterally
   ABD: Soft. Non-distended. Not tympanitic. Decreased bowel sounds.
   Superficial echymoses.
   EXT: Warm. Trace edema bilaterally.
   NEURO: Does not follow verbal commands commands
   Labs / Radiology
   231 K/uL
   7.5 g/dL
   139 mg/dL
   3.8 mg/dL
   25 mEq/L
   4.8 mEq/L
   96 mg/dL
   106 mEq/L
   139 mEq/L
   22.2 %
   9.6 K/uL
        [image002.jpg]
                             [**2191-4-8**]  03:45 AM
                             [**2191-4-8**]  10:01 AM
                             [**2191-4-8**]  11:41 AM
                             [**2191-4-8**]  12:40 PM
                             [**2191-4-8**]  05:40 PM
                             [**2191-4-8**]  08:45 PM
                             [**2191-4-9**]  12:59 AM
                             [**2191-4-9**]  02:17 AM
                             [**2191-4-9**]  03:50 AM
                             [**2191-4-9**]  06:23 AM
   WBC
   9.6
   Hct
   22.2
   Plt
   231
   Cr
   3.8
   TCO2
   24
   24
   24
   25
   30
   29
   29
   29
   29
   Glucose
   139
   Other labs: PT / PTT / INR:12.7/35.5/1.1, ALT / AST:13/16, Alk Phos / T
   Bili:64/0.1, Differential-Neuts:95.0 %, Lymph:2.8 %, Mono:1.8 %,
   Eos:0.2 %, Lactic Acid:0.7 mmol/L, Albumin:2.3 g/dL, LDH:297 IU/L,
   Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:4.9 mg/dL
   MICRO:
[**2191-4-8**] SPUTUM, (ENDOTRACHEAL) GRAM STAIN: 4+ BUDDING YEAST WITH PSEUDOHYPHAE.
[**2191-4-4**] Blood cx: NGTD
[**2191-4-3**] Blood cx x 2 : NGTD
   Assessment and Plan
   62F with admission for pneumonia developing into ARDS. Sputum and BAL
   showing MRSA at this point.
   # Hypoxemic respiratory failure:
   ARDS in the setting of MRSA pneumonia. Possibility of other
   complicating factors; however, ANCA negative, [**Doctor First Name **] positive with titer
   only 1:80, HIV status unknown. Has been on a steroid taper. Has had a
   high sedation requirement due to vent dyssynchrony when sedation
   lightened. Cuff leak yesterday AM was prohibitive of liberation for
   current vent settings. Had desat overnight that prompted brief increase
   in PEEP prior to being returned to PEEP of 10 early this AM. To address
   sedation difficulty and attempt to liberate from fentanyl and midaz
   drips we initiated methadone and diazepam per NG tube yesterday.
   - Continue Vancomycin for MRSA (dosed on daily random vanc level);
   however, will follow-up surveillance sputum culture to see if MRSA
   persistent and then consider switch to linezolid.
   - Continue solumedrol taper
   - Will attempt to keep euvolemic for now
   - Continue fentanyl patch at 200mcg/hr.
   - Continue attempt to liberate from drip sedation by using oral meds
   and fent patch
   - Cont esophageal balloon measurements to assist with guiding
   ventilator settings.
   - Cont to follow ABG to guide ventilator settings, nebs PRN
   # [**Last Name (un) **]:
   Likely multifactorial, differential for her ARF includes ATN (supported
   by appearance of muddy brown casts on sediment examination), CIN from
   recent dye exposure (however her Cr increased more quickly than
   expected after the contrast exposure), postrenal causes unlikely
   following renal U/S on [**2191-4-6**] without note of hydronephrosis or a
   combination of the above. Urine smear for eos was negative, however
   this has low sensitiviy and specificity for AIN. Creatinine stable at
   3.8 today. Ca-phos product remains ~44 today. Has had low UOP in last
   24 hours and received fluid boluses for this.
   - Renal consult following for renal failure and acidosis, though report
   no indication for dialysis at this time
   - Continue following Ca-Phos product for rise above 60
   #Anemia:
   HCT of 22.2 today. Has been slowly trending down since admission.
   Likely related to phlebotomy.
   - Continue to trend
   - Draw iron studies, B12 and folate
   # Leukocytosis:
   Now with WBC count of 9.6. Leukocytosis was likely multifactorial with
   PNA and steroids as contributors, WBC count currently decreasing
   appropriately with antibiotics and steroid taper.
   # Hypotension/Hypertension:
    Will hold off on starting home antihypertensive meds given large
   amounts of sedating medications and normal BP currently.  Hypotension
   in MICU likely components of hypovolemia as well as sepsis, currently
   BP stable without vasoactive agents.  Fluid responsive
   - Continue to monitor
   ICU Care
   Nutrition: Nutren Renal (Full) - [**2191-4-7**] 08:46 PM 25 mL/hour with
   beneprotein added
   Glycemic Control:  Insulin per sliding scale
   Lines:
   Midline - [**2191-4-1**] 10:57 PM
   Arterial Line - [**2191-4-2**] 07:52 PM
   Multi Lumen - [**2191-4-2**] 10:43 PM
   Prophylaxis:
   DVT:  Heparin subcutaneous
   Stress ulcer:  PPI IV
   VAP:
   Communication:  Sister/Mother.
   [**Name (NI) 156**] status: FULL CODE
   Disposition: ICU for now.

2191-04-10 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Transfused an additional 2 units
   - ultrasound showed clot in left IJ and subclavian associated with
   line, which was pulled. Patient had elevated PTT without heprin gtt. A
   repeat confirmed this and so heparin SC was continued and the drip
   held.
   - Sedation weaned and patient began to over-breathe, also SBP elevated
   to 180's. Went back up slightly on Fentanyl.
   - had dead space fraction measured at 0.87.
 ULTRASOUND - At [**2191-4-9**] 04:25 PM
   left upper extrem
 MULTI LUMEN - STOP [**2191-4-9**] 08:35 PM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 250 mcg/hour
   Other ICU medications:
   Hydralazine - [**2191-4-9**] 10:40 PM
   Heparin Sodium (Prophylaxis) - [**2191-4-10**] 12:18 AM
   Methadone Hydrochloride - [**2191-4-10**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-10**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 80 (75 - 98) bpm
   BP: 139/64(89) {136/62(88) - 170/82(119)} mmHg
   RR: 40 (38 - 44) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
    CVP: 251 (7 - 251)mmHg
   Total In:
                                                                  2,326 mL
                                                                    374 mL
   PO:
   TF:
                                                                    600 mL
                                                                    180 mL
   IVF:
                                                                  1,001 mL
                                                                    194 mL
   Blood products:
                                                                    545 mL
   Total out:
                                                                  1,170 mL
                                                                    495 mL
   Urine:
                                                                  1,170 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,156 mL
                                                                   -120 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 260 (260 - 260) mL
   RR (Set): 40
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: RR >35
   PIP: 39 cmH2O
   Plateau: 38 cmH2O
   SpO2: 96%
   ABG: 7.31/51/99.[**Numeric Identifier 299**]/26/-1
   Ve: 10.2 L/min
   PaO2 / FiO2: 141
   Physical Examination
   GEN: Intubated, sedated, does not follow commands
   HEENT: PERRL. Brisk pupil response bilaterally. Anicteric. No pallor.
   No cervical LAD.
   CV: RR, nl S1, nl S2, No murmurs appreciated.
   PULM: Coarse breath sounds bilaterally
   ABD: Soft. Non-distended. Not tympanitic. Decreased bowel sounds.
   Superficial echymoses.
   EXT: Warm. Trace edema bilaterally.
   NEURO: Does not follow verbal commands commands
   Labs / Radiology
   263 K/uL
   9.5 g/dL
   153 mg/dL
   3.6 mg/dL
   26 mEq/L
   4.8 mEq/L
   94 mg/dL
   107 mEq/L
   139 mEq/L
   28.2 %
   9.7 K/uL
        [image002.jpg]
                             [**2191-4-8**]  08:45 PM
                             [**2191-4-9**]  12:59 AM
                             [**2191-4-9**]  02:17 AM
                             [**2191-4-9**]  03:50 AM
                             [**2191-4-9**]  06:23 AM
                             [**2191-4-9**]  11:16 AM
                             [**2191-4-9**]  07:47 PM
                             [**2191-4-9**]  09:05 PM
                             [**2191-4-10**]  03:00 AM
                             [**2191-4-10**]  03:18 AM
   WBC
   9.6
   11.1
   9.7
   Hct
   22.2
   26.5
   27.3
   28.2
   Plt
   [**Telephone/Fax (3) 5563**]
   Cr
   3.8
   3.6
   TCO2
   29
   29
   29
   29
   28
   27
   Glucose
   139
   153
   Other labs: PT / PTT / INR:13.1/74.1/1.1, ALT / AST:13/16, Alk Phos / T
   Bili:64/0.1, Differential-Neuts:88.5 %, Lymph:5.1 %, Mono:3.5 %,
   Eos:2.8 %, D-dimer:7914 ng/mL, Fibrinogen:625 mg/dL, Lactic Acid:0.7
   mmol/L, Albumin:2.3 g/dL, LDH:297 IU/L, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
   62F with admission for pneumonia developing into ARDS. Sputum and BAL
   showing MRSA at this point.
   # Hypoxemic respiratory failure:
   ARDS in the setting of MRSA pneumonia. Possibility of other
   complicating factors; however, ANCA negative, [**Doctor First Name **] positive with titer
   only 1:80, HIV status unknown. Has been on a steroid taper. Has had a
   high sedation requirement due to vent dyssynchrony when sedation
   lightened. To address sedation difficulty and attempt to liberate from
   fentanyl and midaz drips we initiated methadone and diazepam per NG
   tube, however she is still requiring the fentanyl and versed drips
   though at reduced doses.
   - Continue Vancomycin for MRSA (dosed on daily random vanc level), will
   need vanc dosed today
   - Continue solumedrol taper
   - Will attempt to keep euvolemic for now
   - Continue fentanyl patch at 200mcg/hr.
   - Continue attempt to liberate from drip sedation by using oral meds
   and fent patch
   - Cont esophageal balloon measurements to assist with guiding
   ventilator settings.
   - Cont to follow ABG to guide ventilator settings, nebs PRN
   - consider lower PEEP as this would aid in trach procedure
   - d/w IP re:possible trach in near future
   # DVT:
   Found to have L-IJ clot extending into subclavian. The line was removed
   however, the patient
s PTT is 74.1 today on heparin SC and so a drip
   was not started. Unclear if this rise in PTT is due only to heparin SC,
   however patient had previously normal PTT on this admission so unlikely
   to have suddenly developed a deficiency in a clotting factor.
   - cont to follow coags, plan to anticoagulate as needed for DVT,
   currently has therapeutic PTT
   # [**Last Name (un) **]:
   Likely multifactorial, differential for her ARF includes ATN (supported
   by appearance of muddy brown casts on sediment examination), CIN from
   recent dye exposure (however her Cr increased more quickly than
   expected after the contrast exposure), postrenal causes unlikely
   following renal U/S on [**2191-4-6**] without note of hydronephrosis or a
   combination of the above. Urine smear for eos was negative, however
   this has low sensitiviy and specificity for AIN. Creatinine stable at
   3.8 today. Ca-phos product remains ~40 today. Has had good UOP in last
   24 hours.
   - Renal consult following for renal failure and acidosis, though report
   no indication for dialysis at this time
   - Continue following Ca-Phos product for rise above 60
   #Anemia:
   HCT of 22.2 yesterday, received 2 units pRBC
s with good response and
   is now stable. Likely related to phlebotomy. Per report, patient has
   history of pernicious anemia.
   - Continue to trend
   # Leukocytosis:
   Now with WBC count of 9.7. Leukocytosis was likely multifactorial with
   PNA and steroids as contributors, WBC count currently decreasing
   appropriately with antibiotics and steroid taper.
   # Hypotension/Hypertension:
    Will hold off on starting home antihypertensive meds given large
   amounts of sedating medications and normal BP currently.  Hypotension
   in MICU likely components of hypovolemia as well as sepsis, currently
   BP stable without vasoactive agents.  Fluid responsive
   - Continue to monitor
   # access: plan to remove midline today (was placed at OSH) and have
   PICC placed.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2191-4-10**] 12:06 AM 25 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2191-4-1**] 10:57 PM
   Arterial Line - [**2191-4-2**] 07:52 PM
   20 Gauge - [**2191-4-9**] 08:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-04-11 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Renal recs if pulm prognosis worsening, dialysis could be futile, no
   new recs
   - Midline d/c, PICC consult placed
   - Decreased fentanyl sedation
   - Vanco 1 gm x 1
   - Able to wean vent to FiO2 60%
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2191-4-10**] 11:00 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-4-10**] 10:00 PM
   Hydralazine - [**2191-4-10**] 11:00 PM
   Heparin Sodium (Prophylaxis) - [**2191-4-11**] 12:00 AM
   Methadone Hydrochloride - [**2191-4-11**] 06:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-11**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.3
   HR: 81 (79 - 98) bpm
   BP: 148/61(86) {122/56(78) - 183/90(121)} mmHg
   RR: 36 (18 - 40) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                  1,610 mL
                                                                    370 mL
   PO:
             TF:
                                                                    600 mL
                                                                    168 mL
   IVF:
                                                                    770 mL
                                                                    142 mL
   [**Year (4 digits) **] products:
   Total out:
                                                                  1,220 mL
                                                                    240 mL
   Urine:
                                                                  1,220 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    390 mL
                                                                    130 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 260 (260 - 260) mL
   RR (Set): 36
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: RR >35
   PIP: 44 cmH2O
   Plateau: 38 cmH2O
   Compliance: 9.8 cmH2O/mL
   SpO2: 96%
   ABG: 7.33/51/91.[**Numeric Identifier 253**]/26/0
   Ve: 9.6 L/min
   PaO2 / FiO2: 153
   Physical Examination
   GEN: Intubated, sedated, does not follow commands
   HEENT: PERRL. Brisk pupil response bilaterally. Anicteric. No pallor.
   No cervical LAD.
   CV: RR, nl S1, nl S2, No murmurs appreciated.
   PULM: Coarse breath sounds bilaterally
   ABD: Soft. Non-distended. Not tympanitic. Decreased bowel sounds.
   Superficial echymoses.
   EXT: Warm. Diffusely edematous with note of neck, supraclavicular, and
   L > R arm edema
   NEURO: Does not follow verbal commands commands, some eyelid fluttering
   this AM
   Labs / Radiology
   280 K/uL
   9.9 g/dL
   134 mg/dL
   3.4 mg/dL
   26 mEq/L
   4.8 mEq/L
   90 mg/dL
   108 mEq/L
   140 mEq/L
   28.3 %
   11.8 K/uL
        [image002.jpg]
                             [**2191-4-9**]  11:16 AM
                             [**2191-4-9**]  07:47 PM
                             [**2191-4-9**]  09:05 PM
                             [**2191-4-10**]  03:00 AM
                             [**2191-4-10**]  03:18 AM
                             [**2191-4-10**]  09:23 AM
                             [**2191-4-10**]  11:08 AM
                             [**2191-4-10**]  03:08 PM
                             [**2191-4-10**]  09:17 PM
                             [**2191-4-11**]  03:51 AM
   WBC
   11.1
   9.7
   11.8
   Hct
   26.5
   27.3
   28.2
   28.3
   Plt
   [**Telephone/Fax (3) 5586**]
   Cr
   3.6
   3.4
   TCO2
   28
   27
   27
   27
   27
   28
   Glucose
   153
   134
   Other labs: PT / PTT / INR:12.7/86.7/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:86/0.2, Differential-Neuts:88.5 %, Lymph:5.1 %, Mono:3.5 %,
   Eos:2.8 %, D-dimer:7914 ng/mL, Fibrinogen:625 mg/dL, Lactic Acid:0.7
   mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:9.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.7 mg/dL
   Vancomycin: 29.3
   Micro:
   [**2191-4-8**] Suptum cx: Rare MRSA growth.
   [**2191-4-9**] RIJ catheter tip: NGTD
   Assessment and Plan
   62F with admission for pneumonia developing into ARDS. Sputum and BAL
   showing MRSA at this point.
   # Hypoxemic respiratory failure:
   ARDS in the setting of MRSA pneumonia. Possibility of other
   complicating factors; however, ANCA negative, [**Doctor First Name **] positive with titer
   only 1:80, HIV status unknown. Has been on a steroid taper. Has had a
   high sedation requirement due to vent dyssynchrony when sedation
   lightened. To address sedation difficulty and attempt to liberate from
   fentanyl and midaz drips we initiated methadone and diazepam IV;
   however, she is still requiring the fentanyl and versed drips though at
   reduced doses. Surveillance sputum culture from [**2191-4-8**] with rare MRSA
   growth; however, as overall status improving and WBC count meta-stable,
   will continue with vancomycin at this time.
   - Continue Vancomycin for MRSA (dosed on daily random vanc level)
   - Continue solumedrol taper
   - Will attempt to keep euvolemic for now, and anticipate diuresis again
   when kidneys show greater recovery
   - Continue fentanyl patch at 200mcg/hr
   - Continue methadone and diazepam titrated up as needed to allow
   liberation from fentanyl and midaz drips
   - Cont to follow oxygen sats and conservative ABG to guide ventilator
   settings, nebs PRN
   - Distant plan is for trach in the future following further vent
   liberation and diuresis
   # DVT:
   Found to have L-IJ clot extending into subclavian. The line was removed
   however, the patient
s PTT is 74.1 today on heparin SC and so a drip
   was not started. Unclear if this rise in PTT is due only to heparin SC,
   however patient had previously normal PTT on this admission so unlikely
   to have suddenly developed a deficiency in a clotting factor unless
   poor nutritional status is now contributing. Regardless as it is
   currently unknown if PTT represents anticoagulation vs. hypercoaguable
   state, will check for lupus anti-coagulant and anti-phospholipid
   antibodies.
   - Cont to follow [**Last Name (LF) **], [**First Name3 (LF) 124**] discontinue heparin subcutaneous if PTT
   continues to rise.
   - Plan to anticoagulate as needed for DVT pending antibody studies
   # [**Last Name (un) **]:
   Likely multifactorial, differential for her ARF includes ATN (supported
   by appearance of muddy brown casts on sediment examination), CIN from
   recent dye exposure (however her Cr increased more quickly than
   expected after the contrast exposure), postrenal causes unlikely
   following renal U/S on [**2191-4-6**] without note of hydronephrosis or a
   combination of the above. Urine smear for eos was negative, however
   this has low sensitiviy and specificity for AIN. Creatinine decreasing
   to 3.4 today. Ca-phos product at ~35 today. Has had increasing UOP in
   the last 24 hours.
   - Renal consult following for renal failure and acidosis, though report
   no indication for dialysis at this time
   - Continue following Ca-Phos product for rise above 60
   #Anemia:
   HCT of 22.2 on [**2191-4-9**] after steady downtrend during ICU course.
   Thought to be secondary to phlebotomy. Iron studies performed on
   [**2191-4-9**] and ferritin of 346 along with iron sat of 25% not consistent
   with iron deficiency anemia. Received 2 units pRBC
s with good response
   and is now stable with HCT of 28 this AM. Per report, patient has
   history of pernicious anemia.
   - Continue to trend
   - Check B12 levels
   # Leukocytosis:
   Leukocytosis likely multifactorial with PNA and steroids as
   contributors, WBC count of 11.8 today is slightly up from 9.7
   yesterday; however, no fever spikes consistent with new infection.
   - Continue to trend
   # Hypotension/Hypertension:
   Balance has now swung that patient has recently been hypertensive. This
   likely either unmasked essential hypertension vs. incomplete sedation.
   Will allow some permissive hypertension in setting of [**Last Name (un) **] in order to
   allow adequate perfusion of kidneys given unknown relative normal [**Name2 (NI) 1056**]
   pressure exposure for kidneys.
   - Continue to monitor
   # Access:
   Currently has only A-line and two peripheral IVs. Plan for PICC later
   today.
   ICU Care
   Nutrition: Nutren Renal (Full) - [**2191-4-7**] 08:46 PM 25 mL/hour with
   beneprotein added
   Glycemic Control:  Insulin per sliding scale
   Lines:
   Two right hand peripheral IV
   Arterial Line - [**2191-4-2**] 07:52 PM
   Prophylaxis:
   DVT:  Heparin subcutaneous
   Stress ulcer:  PPI IV
   VAP:
   Communication:  Sister/Mother.  [**Name (NI) **] need to discuss overall goals of
   care and future need for trach and PEG.
   Code status: FULL CODE
   Disposition: ICU for now.

2191-04-12 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2191-4-11**] 02:07 PM
   - PICC line placement complicated by traverse into RIJ, was pulled back
   to midline position, plan for IR PICC on [**2191-4-12**]
   - Patient with desats to 90% while appearing to be synchronous, FiO2
   increased back to 70% as PEEP increase caused unacceptable peak airway
   pressures in past
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2191-4-10**] 11:00 AM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Fentanyl (Concentrate) - 130 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-4-12**] 12:00 AM
   Methadone Hydrochloride - [**2191-4-12**] 06:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-12**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 89 (67 - 98) bpm
   BP: 173/77(110) {136/61(69) - 181/81(120)} mmHg
   RR: 36 (28 - 39) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                  1,375 mL
                                                                    397 mL
   PO:
             TF:
                                                                    600 mL
                                                                    171 mL
   IVF:
                                                                    505 mL
                                                                    136 mL
   [**Year (4 digits) **] products:
   Total out:
                                                                  1,110 mL
                                                                    530 mL
   Urine:
                                                                  1,035 mL
                                                                    530 mL
   NG:
   Stool:
                                                                     75 mL
   Drains:
   Balance:
                                                                    265 mL
                                                                   -132 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV
   Vt (Set): 260 (260 - 260) mL
   RR (Set): 36
   RR (Spontaneous): 3
   PEEP: 10 cmH2O
   FiO2: 70%
   PIP: 36 cmH2O
   Plateau: 33 cmH2O
   Compliance: 11.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.33/52/76.[**Numeric Identifier 299**]//0
   Ve: 10.6 L/min
   PaO2 / FiO2: 109
   Physical Examination
   GEN: Intubated, sedated, does not follow commands
   HEENT: PERRL. Brisk pupil response bilaterally. Anicteric. No pallor.
   No cervical LAD.
   CV: RR, nl S1, nl S2, No murmurs appreciated.
   PULM: Coarse breath sounds bilaterally
   ABD: Soft. Non-distended. Not tympanitic. Decreased bowel sounds.
   Superficial echymoses.
   EXT: Warm. Diffusely edematous with note of neck, supraclavicular, and
   L > R arm edema
   NEURO: Does not follow verbal commands commands, some eyelid fluttering
   this AM
   Labs / Radiology
   282 K/uL
   9.7 g/dL
   134 mg/dL
   3.4 mg/dL
   26 mEq/L
   5.1 mEq/L
   90 mg/dL
   108 mEq/L
   140 mEq/L
   28.6 %
   9.1 K/uL
        [image002.jpg]
                             [**2191-4-10**]  03:00 AM
                             [**2191-4-10**]  03:18 AM
                             [**2191-4-10**]  09:23 AM
                             [**2191-4-10**]  11:08 AM
                             [**2191-4-10**]  03:08 PM
                             [**2191-4-10**]  09:17 PM
                             [**2191-4-11**]  03:51 AM
                             [**2191-4-11**]  03:33 PM
                             [**2191-4-12**]  06:00 AM
                             [**2191-4-12**]  06:08 AM
   WBC
   9.7
   11.8
   9.1
   Hct
   28.2
   28.3
   28.6
   Plt
   263
   280
   282
   Cr
   3.6
   3.4
   TCO2
   27
   27
   27
   27
   28
   29
   29
   Glucose
   153
   134
   Other labs: PT / PTT / INR:12.7/86.7/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:86/0.2, Differential-Neuts:88.5 %, Lymph:5.1 %, Mono:3.5 %,
   Eos:2.8 %, D-dimer:7914 ng/mL, Fibrinogen:625 mg/dL, Lactic Acid:0.7
   mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:9.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.7 mg/dL
   Assessment and Plan
   62F with admission for pneumonia developing into ARDS. Sputum and BAL
   showing MRSA at this point.
   # Hypoxemic respiratory failure:
   ARDS in the setting of MRSA pneumonia. Possibility of other
   complicating factors; however, ANCA negative, [**Doctor First Name **] positive with titer
   only 1:80, HIV status unknown. Has been on a steroid taper. Has had a
   high sedation requirement due to vent dyssynchrony when sedation
   lightened. To address sedation difficulty and attempt to liberate from
   fentanyl and midaz drips we initiated methadone and diazepam IV;
   however, she is still requiring the fentanyl and versed drips though at
   reduced doses. Surveillance sputum culture from [**2191-4-8**] with rare MRSA
   growth.  Worsening peaks pressures this AM
   - Due to high peak pressures this AM, will attempt added bolus sedation
   if PIP>50 for prolonged periods.  Consider paralytic if unable to
   control PIP.
   - Continue Vancomycin for MRSA (dosed on daily random vanc level)
   - Continue solumedrol taper
   - Will attempt to keep euvolemic for now, and anticipate diuresis again
   when kidneys show greater recovery
   - Continue fentanyl patch at 200mcg/hr
   - Continue methadone and diazepam titrated up as needed to allow
   liberation from fentanyl and midaz drips
   - Cont to follow oxygen sats and conservative ABG to guide ventilator
   settings, nebs PRN
   - Distant plan is for trach in the future following further vent
   liberation and diuresis
   # DVT:
   Found to have L-IJ clot extending into subclavian. The line was removed
   however, the patient
s PTT is 74.1 today on heparin SC and so a drip
   was not started. Unclear if this rise in PTT is due only to heparin SC,
   however patient had previously normal PTT on this admission so unlikely
   to have suddenly developed a deficiency in a clotting factor unless
   poor nutritional status is now contributing. Regardless as it is
   currently unknown if PTT represents anticoagulation vs. hypercoaguable
   state.
   - f/u lupus anti-coagulant and anti-phospholipid antibodies studies
   - Cont to follow coags
   - Cont sq heparin for now,  d/c if PTT supratherapeutic.
   - Plan to anticoagulate as needed for DVT pending antibody studies
   # [**Last Name (un) **]:
   Likely multifactorial, differential for her ARF includes ATN (supported
   by appearance of muddy brown casts on sediment examination), CIN from
   recent dye exposure (however her Cr increased more quickly than
   expected after the contrast exposure), postrenal causes unlikely
   following renal U/S on [**2191-4-6**] without note of hydronephrosis or a
   combination of the above. Urine smear for eos was negative, however
   this has low sensitiviy and specificity for AIN. Creatinine decreasing
   to 3.4->3 today.  Has had increasing UOP in the last 24 hours.
   - Renal consult following for renal failure and acidosis, though report
   no indication for dialysis at this time
   - Improved Cr today, will plan to initiate diuresis once Cr<3.
   - Continue following Ca-Phos product for rise above 60
   #Anemia:
   HCT of 22.2 on [**2191-4-9**] after steady downtrend during ICU course.
   Thought to be secondary to phlebotomy. Iron studies performed on
   [**2191-4-9**] and ferritin of 346 along with iron sat of 25% not consistent
   with iron deficiency anemia. Received 2 units pRBC
s with good response
   and is now stable with HCT of 28 this AM. Per report, patient has
   history of pernicious anemia.
   - Continue to trend
   - Check B12 levels
   # Leukocytosis:
   Leukocytosis likely multifactorial with PNA and steroids as
   contributors, WBC count of 11.8 today is slightly up from 9.7
   yesterday; however, no fever spikes consistent with new infection.
   - Continue to trend
   # Hypotension/Hypertension:
   Balance has now swung that patient has recently been hypertensive. This
   likely either unmasked essential hypertension vs. incomplete sedation.
   Will allow some permissive hypertension in setting of [**Last Name (un) **] in order to
   allow adequate perfusion of kidneys given unknown relative normal [**Name2 (NI) 1056**]
   pressure exposure for kidneys.
   - Continue to monitor
   # Access:
   Currently has only A-line and two peripheral IVs. Since pt with
   unstable PIP, will leave PICC line in midline position instead of trip
   to IR today.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2191-4-12**] 12:01 AM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2191-4-2**] 07:52 PM
   20 Gauge - [**2191-4-9**] 08:08 PM
   PICC Line - [**2191-4-11**] 02:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-04-13 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Postponed IR repositioning of PICC given tenuous status
   - Increased Methadone/sedation to attempt to decrease PIP
   - Plan to begin diuresis if renal function improves
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2191-4-10**] 11:00 AM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Fentanyl (Concentrate) - 120 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-4-12**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2191-4-13**] 12:00 AM
   Midazolam (Versed) - [**2191-4-13**] 03:00 AM
   Fentanyl - [**2191-4-13**] 03:00 AM
   Methadone Hydrochloride - [**2191-4-13**] 04:30 AM
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-13**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.8
   HR: 84 (72 - 113) bpm
   BP: 147/65(92) {121/51(75) - 171/76(109)} mmHg
   RR: 36 (36 - 40) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                  1,333 mL
                                                                    406 mL
   PO:
             TF:
                                                                    600 mL
                                                                    183 mL
   IVF:
                                                                    473 mL
                                                                    143 mL
   [**Year (4 digits) **] products:
   Total out:
                                                                  1,840 mL
                                                                    435 mL
   Urine:
                                                                  1,840 mL
                                                                    435 mL
   NG:
   Balance:
                                                                   -507 mL
                                                                    -29 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 260 (260 - 260) mL
   RR (Set): 36
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, RR >35
   PIP: 34 cmH2O
   Plateau: 34 cmH2O
   Compliance: 10.8 cmH2O/mL
   SpO2: 98%
   ABG: 7.35/50/85.[**Numeric Identifier 299**]//0
   Ve: 9.4 L/min
   PaO2 / FiO2: 121
   Physical Examination
   GEN: Intubated, sedated, does not follow commands
   HEENT: PERRL. Brisk pupil response bilaterally. Anicteric. No pallor.
   No cervical LAD.
   CV: RR, nl S1, nl S2, No murmurs appreciated.
   PULM: Coarse breath sounds bilaterally
   ABD: Soft. Non-distended. Not tympanitic. Decreased bowel sounds.
   Superficial echymoses.
   EXT: Warm. Diffusely edematous with note of neck, supraclavicular, and
   L > R arm edema
   NEURO: Does not follow verbal commands commands, some eyelid fluttering
   this AM
   Labs / Radiology
   282 K/uL
   9.7 g/dL
   140 mg/dL
   3.0 mg/dL
   27 mEq/L
   4.8 mEq/L
   89 mg/dL
   110 mEq/L
   141 mEq/L
   28.6 %
   9.1 K/uL
        [image002.jpg]
                             [**2191-4-10**]  09:23 AM
                             [**2191-4-10**]  11:08 AM
                             [**2191-4-10**]  03:08 PM
                             [**2191-4-10**]  09:17 PM
                             [**2191-4-11**]  03:51 AM
                             [**2191-4-11**]  03:33 PM
                             [**2191-4-12**]  06:00 AM
                             [**2191-4-12**]  06:08 AM
                             [**2191-4-12**]  03:37 PM
                             [**2191-4-13**]  06:42 AM
   WBC
   11.8
   9.1
   Hct
   28.3
   28.6
   Plt
   280
   282
   Cr
   3.4
   3.0
   TCO2
   27
   27
   27
   28
   29
   29
   29
   29
   Glucose
   134
   140
   Other labs: PT / PTT / INR:12.5/85.1/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:86/0.2, Differential-Neuts:88.0 %, Band:1.0 %, Lymph:4.0 %,
   Mono:5.0 %, Eos:2.0 %, D-dimer:7914 ng/mL, Fibrinogen:625 mg/dL, Lactic
   Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:10.0 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   62F with admission for pneumonia developing into ARDS. Sputum and BAL
   showing MRSA at this point.
   # Hypoxemic respiratory failure:
   ARDS in the setting of MRSA pneumonia. Possibility of other
   complicating factors; however, ANCA negative, [**Doctor First Name **] positive with titer
   only 1:80, HIV status unknown. Has been on a steroid taper. Has had a
   high sedation requirement due to vent dyssynchrony when sedation
   lightened. To address sedation difficulty and attempt to liberate from
   fentanyl and midaz drips we initiated methadone and diazepam IV;
   however, she is still requiring the fentanyl and versed drips though at
   reduced doses. Surveillance sputum culture from [**2191-4-8**] with rare MRSA
   growth.  Worsening peaks pressures this AM
   - Due to high peak pressures this AM, will attempt added bolus sedation
   if PIP>50 for prolonged periods.  Consider paralytic if unable to
   control PIP.
   - Continue Vancomycin for MRSA (dosed on daily random vanc level)
   - Continue solumedrol taper
   - Will attempt to keep euvolemic for now, and anticipate diuresis again
   when kidneys show greater recovery
   - Continue fentanyl patch at 200mcg/hr
   - Continue methadone and diazepam titrated up as needed to allow
   liberation from fentanyl and midaz drips
   - Cont to follow oxygen sats and conservative ABG to guide ventilator
   settings, nebs PRN
   - Distant plan is for trach in the future following further vent
   liberation and diuresis
   # DVT:
   Found to have L-IJ clot extending into subclavian. The line was removed
   however, the patient
s PTT is 74.1 today on heparin SC and so a drip
   was not started. Unclear if this rise in PTT is due only to heparin SC,
   however patient had previously normal PTT on this admission so unlikely
   to have suddenly developed a deficiency in a clotting factor unless
   poor nutritional status is now contributing. Regardless as it is
   currently unknown if PTT represents anticoagulation vs. hypercoaguable
   state.
   - f/u lupus anti-coagulant and anti-phospholipid antibodies studies
   - Cont to follow coags
   - Cont sq heparin for now,  d/c if PTT supratherapeutic.
   - Plan to anticoagulate as needed for DVT pending antibody studies
   # [**Last Name (un) **]:
   Likely multifactorial, differential for her ARF includes ATN (supported
   by appearance of muddy brown casts on sediment examination), CIN from
   recent dye exposure (however her Cr increased more quickly than
   expected after the contrast exposure), postrenal causes unlikely
   following renal U/S on [**2191-4-6**] without note of hydronephrosis or a
   combination of the above. Urine smear for eos was negative, however
   this has low sensitiviy and specificity for AIN. Creatinine decreasing
   to 3.4->3 today.  Has had increasing UOP in the last 24 hours.
   - Renal consult following for renal failure and acidosis, though report
   no indication for dialysis at this time
   - Improved Cr today, will plan to initiate diuresis once Cr<3.
   - Continue following Ca-Phos product for rise above 60
   #Anemia:
   HCT of 22.2 on [**2191-4-9**] after steady downtrend during ICU course.
   Thought to be secondary to phlebotomy. Iron studies performed on
   [**2191-4-9**] and ferritin of 346 along with iron sat of 25% not consistent
   with iron deficiency anemia. Received 2 units pRBC
s with good response
   and is now stable with HCT of 28 this AM. Per report, patient has
   history of pernicious anemia.
   - Continue to trend
   - Check B12 levels
   # Leukocytosis:
   Leukocytosis likely multifactorial with PNA and steroids as
   contributors, WBC count of 11.8 today is slightly up from 9.7
   yesterday; however, no fever spikes consistent with new infection.
   - Continue to trend
   # Hypotension/Hypertension:
   Balance has now swung that patient has recently been hypertensive. This
   likely either unmasked essential hypertension vs. incomplete sedation.
   Will allow some permissive hypertension in setting of [**Last Name (un) **] in order to
   allow adequate perfusion of kidneys given unknown relative normal [**Name2 (NI) 1056**]
   pressure exposure for kidneys.
   - Continue to monitor
   # Access:
   Currently has only A-line and two peripheral IVs. Since pt with
   unstable PIP, will leave PICC line in midline position instead of trip
   to IR today.
   ICU Care
   Nutrition: Nutren Renal (Full) - [**2191-4-7**] 08:46 PM 25 mL/hour with
   beneprotein added
   Glycemic Control:  Insulin per sliding scale
   Lines:
   Two right hand peripheral IV
   Arterial Line - [**2191-4-2**] 07:52 PM
   Prophylaxis:
   DVT:  Heparin subcutaneous
   Stress ulcer:  PPI IV
   VAP:
   Communication:  Sister/Mother.  [**Name (NI) **] need to discuss overall goals of
   care and future need for trach and PEG.
   Code status: FULL CODE
   Disposition: ICU for now

2191-04-14 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - IP consulted for trach/peg, rec likely monday [**4-18**] if FiO2 down to
   50% and PEEP at least 8
   - Improved Cr to 2.6 in PM, started diuresis with lasix 10 IV then 20
   IV, no UOP intially; however, good UOP with foley repositioning
   - Lupus/anti-phospholipid ab pending
   - PTT cont elevated, plan heparin gtt if PTT<60
   - Vanco x 1 dose given
   - Briefly on pressure control ventilation with ABG exactly same as on
   VC ventilation
   - PICC line placed yesterday
   Allergies:
   Sulfa (Sulfonamide Antibiotics) Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2191-4-13**] 01:30 PM
   Infusions:
   Fentanyl (Concentrate) - 120 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2191-4-13**] 08:29 AM
   Heparin Sodium (Prophylaxis) - [**2191-4-13**] 08:30 AM
   Pantoprazole (Protonix) - [**2191-4-13**] 08:08 PM
   Furosemide (Lasix) - [**2191-4-13**] 10:32 PM
   Methadone Hydrochloride - [**2191-4-14**] 03:47 AM
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-14**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 85 (75 - 105) bpm
   BP: 144/60(88) {102/56(82) - 170/97(110)} mmHg
   RR: 36 (29 - 39) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                  1,427 mL
                                                                    332 mL
   PO:
             TF:
                                                                    600 mL
                                                                    187 mL
   IVF:
                                                                    667 mL
                                                                    145 mL
   [**Year (4 digits) **] products:
   Total out:
                                                                  1,050 mL
                                                                  1,340 mL
   Urine:
                                                                  1,050 mL
                                                                  1,340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    377 mL
                                                                 -1,008 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 250 (250 - 260) mL
   RR (Set): 36
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 37 cmH2O
   Compliance: 10.2 cmH2O/mL
   SpO2: 93%
   ABG: 7.34/58/87.[**Numeric Identifier 7**]/30/3
   Ve: 9.5 L/min
   PaO2 / FiO2: 147
   Physical Examination
   GEN: Intubated, sedated, does not follow commands
   HEENT: PERRL. Brisk pupil response bilaterally. Anicteric. No pallor.
   No cervical LAD.
   CV: RR, nl S1, nl S2, No murmurs appreciated.
   PULM: Coarse breath sounds bilaterally anteriorly
   ABD: Soft. Non-distended. Not tympanitic. Decreased bowel sounds.
   Superficial ecchymoses.
   EXT: Warm. Diffusely edematous with note of neck, supraclavicular, and
   L > R arm edema
   NEURO: Does not follow verbal commands
   Labs / Radiology
   278 K/uL
   9.0 g/dL
   113 mg/dL
   2.6 mg/dL
   30 mEq/L
   4.3 mEq/L
   85 mg/dL
   110 mEq/L
   144 mEq/L
   26.5 %
   10.0 K/uL
        [image002.jpg]
                             [**2191-4-11**]  03:33 PM
                             [**2191-4-12**]  06:00 AM
                             [**2191-4-12**]  06:08 AM
                             [**2191-4-12**]  03:37 PM
                             [**2191-4-13**]  06:30 AM
                             [**2191-4-13**]  06:42 AM
                             [**2191-4-13**]  03:37 PM
                             [**2191-4-13**]  03:50 PM
                             [**2191-4-14**]  03:46 AM
                             [**2191-4-14**]  05:50 AM
   WBC
   9.1
   8.1
   10.0
   Hct
   28.6
   26.4
   26.5
   Plt
   282
   287
   278
   Cr
   3.0
   2.7
   2.6
   2.6
   TCO2
   29
   29
   29
   29
   31
   33
   Glucose
   140
   137
   156
   113
   Other labs: PT / PTT / INR:12.2/64.9/1.0, ALT / AST:14/18, Alk Phos / T
   Bili:86/0.2, Differential-Neuts:88.7 %, Band:1.0 %, Lymph:5.4 %,
   Mono:3.7 %, Eos:2.1 %, D-dimer:7914 ng/mL, Fibrinogen:625 mg/dL, Lactic
   Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:10.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   62F with admission for pneumonia developing into ARDS. Sputum and BAL
   showing MRSA at this point.
   # Hypoxemic respiratory failure:
   ARDS in the setting of MRSA pneumonia. Possibility of other
   complicating factors; however, ANCA negative, [**Doctor First Name **] positive with titer
   only 1:80, HIV status unknown. Has been on a steroid taper. Has had a
   high sedation requirement due to vent dyssynchrony when sedation
   lightened. To address sedation difficulty and attempt to liberate from
   fentanyl and midaz drips we initiated methadone and diazepam IV;
   however, she is still requiring the fentanyl and versed drips though at
   reduced doses. Surveillance sputum culture from [**2191-4-8**] with rare MRSA
   growth.  Worsening peaks pressures this AM
   - Continue Vancomycin for MRSA, as Vanco level was 17.2 this AM, likely
   one additional dose of vancomycin today will complete her antibiotic
   course
   - Yesterday was last day of solumedrol
   - Will check PM lytes and begin diuresis with 10 mg IV furosemide if
   creatinine stable or continuing to improve
   - Continue fentanyl patch at 200mcg/hr
   - Continue methadone and diazepam titrated up as needed to allow
   liberation from fentanyl and midaz drips
   - Cont to follow oxygen sats and conservative ABG to guide ventilator
   settings, nebs PRN
   - Contact IP today to let them know that trach and PEG are within
   immediate future for this patient
   # DVT:
   Found to have L-IJ clot extending into subclavian. The line was removed
   however, the patient
s PTT was elevated initially without systemic
   anticoagulation.  Unclear if this rise in PTT is due only to heparin
   SC, however patient had previously normal PTT on this admission so
   unlikely to have suddenly developed a deficiency in a clotting factor
   unless poor nutritional status is now contributing. Currently unknown
   if PTT represents anticoagulation vs. hypercoaguable state. PTT today
   was 65.9.
   - F/U lupus anti-coagulant and anti-phospholipid antibodies studies
   - Cont to follow coags
   - Cont sq heparin for now, d/c if PTT supratherapeutic, start heparin
   drip at low rate today if PTT drops below 50 on evening PTT check
   # [**Last Name (un) **]:
   Likely multifactorial, differential for her [**Last Name (un) **] includes ATN (supported
   by appearance of muddy brown casts on sediment examination), CIN from
   recent dye exposure (however her Cr increased more quickly than
   expected after the contrast exposure), postrenal causes unlikely
   following renal U/S on [**2191-4-6**] without note of hydronephrosis or a
   combination of the above. Urine smear for eos was negative, however
   this has low sensitivity and specificity for AIN. Creatinine decreasing
   to 2.7 today.  Has had increasing UOP in the last 24 hours and
   auto-diuresed to negative fluid balance yesterday. Will  check PM lytes
   and I/O balance.
   - Renal consult following
   - Improved Cr today, will plan to initiate diuresis if creatinine on PM
   lytes check is stable or improved from this AM
   #Anemia:
   HCT of 22.2 on [**2191-4-9**] after steady downtrend during ICU course.
   Thought to be secondary to phlebotomy. Iron studies performed on
   [**2191-4-9**] and ferritin of 346 along with iron sat of 25% not consistent
   with iron deficiency anemia. Received 2 units pRBC
s with good response
   several days ago and is now essentially stable with HCT of 26.4 this
   AM. Per report, patient has history of pernicious anemia. B12 levels
   are WNL as of [**2191-4-11**].
   - Continue to trend
   # Hypotension/Hypertension:
   Balance has now swung that patient has recently been hypertensive. This
   likely either unmasked essential hypertension vs. incomplete sedation.
   Will allow some permissive hypertension in setting of [**Last Name (un) **] in order to
   allow adequate perfusion of kidneys given unknown relative normal [**Name2 (NI) 1056**]
   pressure exposure for kidneys.
   - Continue to monitor
   ICU Care
   Nutrition: Nutren Renal (Full) - [**2191-4-7**] 08:46 PM 25 mL/hour with
   beneprotein added
   Glycemic Control:  Insulin per sliding scale
   Lines:
   PICC on right pulled back to midline and will be advanced in IR today
   to full PICC
   Arterial Line - [**2191-4-2**] 07:52 PM
   Prophylaxis:
   DVT:  Heparin subcutaneous
   Stress ulcer:  PPI IV
   VAP:
   Communication:  Sister/Mother.  [**Name (NI) **] need to discuss overall goals of
   care and future need for trach and PEG.
   Code status: FULL CODE
   Disposition: ICU for now

2191-04-15 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Was diuresed with bolus furosemide with good effect, evening Cr was
   2.6
   - Bowel regimen was productive of two large soft bowel movements
   - Patient
s labwork returned to show Lupus anticoagulant and inhibitor
   screen are positive
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2191-4-13**] 01:30 PM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-4-14**] 03:47 PM
   Pantoprazole (Protonix) - [**2191-4-14**] 09:26 PM
   Furosemide (Lasix) - [**2191-4-15**] 12:00 AM
   Fentanyl - [**2191-4-15**] 04:03 AM
   Midazolam (Versed) - [**2191-4-15**] 04:03 AM
   Methadone Hydrochloride - [**2191-4-15**] 06:14 AM
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-15**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 85 (72 - 101) bpm
   BP: 174/78(113) {106/53(57) - 182/100(121)} mmHg
   RR: 15 (15 - 37) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                  1,257 mL
                                                                    470 mL
   PO:
             TF:
                                                                    600 mL
                                                                    194 mL
   IVF:
                                                                    477 mL
                                                                    146 mL
   [**Year (4 digits) **] products:
   Total out:
                                                                  2,990 mL
                                                                  1,040 mL
   Urine:
                                                                  2,990 mL
                                                                  1,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,733 mL
                                                                   -570 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 260 (260 - 260) mL
   RR (Set): 36
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 55%
   RSBI Deferred: PEEP > 10
   PIP: 46 cmH2O
   Plateau: 43 cmH2O
   Compliance: 8.1 cmH2O/mL
   SpO2: 96%
   ABG: 7.36/57/77.[**Numeric Identifier 253**]/30/4
   Ve: 9.2 L/min
   PaO2 / FiO2: 142
   Physical Examination
   GEN: Intubated, sedated, does not follow commands
   HEENT: PERRL. Brisk pupil response bilaterally. Anicteric. No pallor.
   No cervical LAD.
   CV: RR, nl S1, nl S2, No murmurs appreciated.
   PULM: Coarse breath sounds bilaterally anteriorly
   ABD: Soft. Non-distended. Not tympanitic. Decreased bowel sounds.
   Superficial ecchymoses.
   EXT: Warm. Diffusely edematous with note of neck, supraclavicular, and
   L > R arm edema
   NEURO: Following verbal commands this AM
   Labs / Radiology
   271 K/uL
   8.8 g/dL
   111 mg/dL
   2.5 mg/dL
   30 mEq/L
   3.9 mEq/L
   76 mg/dL
   110 mEq/L
   144 mEq/L
   27.7 %
   9.5 K/uL
        [image002.jpg]
                             [**2191-4-13**]  03:37 PM
                             [**2191-4-13**]  03:50 PM
                             [**2191-4-14**]  03:46 AM
                             [**2191-4-14**]  05:50 AM
                             [**2191-4-14**]  08:08 AM
                             [**2191-4-14**]  03:28 PM
                             [**2191-4-14**]  03:38 PM
                             [**2191-4-14**]  09:53 PM
                             [**2191-4-15**]  03:47 AM
                             [**2191-4-15**]  04:03 AM
   WBC
   10.0
   9.5
   Hct
   26.5
   27.7
   Plt
   278
   271
   Cr
   2.6
   2.6
   2.6
   2.5
   TCO2
   31
   33
   33
   32
   33
   34
   Glucose
   156
   113
   111
   Other labs: PT / PTT / INR:12.7/81.8/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:86/0.2, Differential-Neuts:88.7 %, Band:1.0 %, Lymph:5.4 %,
   Mono:3.7 %, Eos:2.1 %, D-dimer:7914 ng/mL, Fibrinogen:625 mg/dL, Lactic
   Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:10.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   62F with admission for pneumonia developing into ARDS. Sputum and BAL
   showing MRSA at this point.
   # Hypoxemic respiratory failure:
   ARDS in the setting of MRSA pneumonia. Possibility of other
   complicating factors; however, ANCA negative, [**Doctor First Name **] positive with titer
   only 1:80, HIV status unknown. Has completed steroid taper. Has had a
   high sedation requirement due to vent dyssynchrony when sedation
   lightened. To address sedation difficulty and attempt to liberate from
   fentanyl and midaz drips we initiated methadone and diazepam IV;
   however, she is still requiring the fentanyl and versed drips though at
   reduced doses. Surveillance sputum culture from [**2191-4-8**] and [**2191-4-10**]
   with rare MRSA growth. Last dose of Vancomycin was yesterday. IP came
   to see patient [**2191-4-13**] and would like vent setting of PEEP 8 and FiO2
   50% prior to attempted trach and PEG. Encouraging that drip sedation
   being liberated little by little and FiO2 is down to 55% today. Has
   ongoing diuresis with stable Cr at 2.5 today.
   - Continue furosemide boluses with [**Hospital1 **] lytes to monitor renal function
   with goal net negative of 1.5 L over 24 hours
   - Continue fentanyl patch at 200mcg/hr
   - Continue methadone and diazepam (PO route) titrated up as needed to
   allow liberation from fentanyl and midaz drips
   - Cont to follow oxygen sats and conservative ABG to guide ventilator
   settings, nebs PRN
   - Discontinue esophageal balloon
   - Start slow PEEP taper today
   # DVT:
   Found to have L-IJ clot extending into subclavian. The line was removed
   however, the patient
s PTT was elevated initially without systemic
   anticoagulation.  Unclear if this rise in PTT is due only to heparin
   SC, however patient had previously normal PTT on this admission so
   unlikely to have suddenly developed a deficiency in a clotting factor
   unless poor nutritional status is now contributing. Currently unknown
   if PTT represents anticoagulation vs. hypercoaguable state. PTT this AM
   was 81.8.
   - F/U ACA antibodies
   - Hematology consult for positive lupus anticoagulant as well as
   positive inhibitor screen in setting of new DVT, likely complicated by
   subcutaneous heparin administration
   - Cont to follow coags [**Hospital1 **]
   - Cont sq heparin for now, d/c if PTT supratherapeutic, start heparin
   drip at low rate today if PTT drops below 60 on evening PTT check
   - Hold heparin subcutaneous starting Saturday in anticipation of Monday
   procedures
   # [**Last Name (un) **]:
   Thought to originally be attributed to ATN. Resolving with Cr steadily
   downtrending at 2.5 today in face of diuresis yesterday. No longer
   struggling with hyperphosphatemia.
   - Will check PM lytes and I/O balance.
   - Discontinued calcium acetate
   # Constipation:
   Patient with two large stools yesterday.
   - Continue lactulose PO and PR as needed
   - If lactulose fails, will consider PO narcan to relief constipation
   #Anemia:
   HCT of 22.2 on [**2191-4-9**] after steady downtrend during ICU course.
   Thought to be secondary to phlebotomy. Iron studies performed on
   [**2191-4-9**] and ferritin of 346 along with iron sat of 25% not consistent
   with iron deficiency anemia. Received 2 units pRBC
s with good response
   several days ago and is now essentially stable with HCT of 26.5 this
   AM. Per report, patient has history of pernicious anemia. B12 levels
   are WNL as of [**2191-4-11**].
   - Continue to trend
   # Hypotension/Hypertension:
   Balance has now swung that patient has recently been hypertensive. This
   likely either unmasked essential hypertension vs. incomplete sedation.
   Will allow some permissive hypertension in setting of [**Last Name (un) **] in order to
   allow adequate perfusion of kidneys given unknown relative normal [**Name2 (NI) 1056**]
   pressure exposure for kidneys.
   - Continue to monitor
   ICU Care
   Nutrition: Nutren Renal (Full) - [**2191-4-7**] 08:46 PM 25 mL/hour with
   beneprotein added, increase free water flushes given rising serum
   sodium
   Glycemic Control:  Insulin per sliding scale
   Lines:
   PICC line from [**2191-4-13**]
   Arterial Line - [**2191-4-2**] 07:52 PM
   Prophylaxis:
   DVT:  Heparin subcutaneous with PTT monitoring [**Hospital1 **]
   Stress ulcer:  PPI IV
   VAP:
   Communication:  Sister/Mother.  [**Name (NI) **] need to discuss overall goals of
   care and future need for trach and PEG.
   Code status: FULL CODE
   Disposition: ICU for now

2191-04-16 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2191-4-15**] 05:31 PM
   LUE US to look for changes in known thrombus
   - repeat upper ext. ultrasound to follow clot burden - thrombus in L IJ
   again demonstrated, catheter removed, limited study
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2191-4-13**] 01:30 PM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2191-4-15**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-16**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 82 (63 - 91) bpm
   BP: 175/75(111) {129/59(83) - 175/78(111)} mmHg
   RR: 23 (10 - 36) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                  1,379 mL
                                                                    329 mL
   PO:
             TF:
                                                                    600 mL
                                                                    189 mL
   IVF:
                                                                    424 mL
                                                                    110 mL
   [**Year (4 digits) **] products:
   Total out:
                                                                  2,325 mL
                                                                    310 mL
   Urine:
                                                                  2,325 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -946 mL
                                                                     19 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 260 (260 - 260) mL
   RR (Set): 36
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 55%
   RSBI Deferred: PEEP > 10
   PIP: 51 cmH2O
   Plateau: 46 cmH2O
   SpO2: 96%
   ABG: 7.38/56/62/30/5
   Ve: 9.8 L/min
   PaO2 / FiO2: 113
   Physical Examination
   GEN: Intubated, sedated, does not follow commands
   HEENT: PERRL. Brisk pupil response bilaterally. Anicteric. No pallor.
   No cervical LAD.
   CV: RR, nl S1, nl S2, No murmurs appreciated.
   PULM: Coarse breath sounds bilaterally anteriorly
   ABD: Soft. Non-distended. Not tympanitic. Decreased bowel sounds.
   Superficial ecchymoses.
   EXT: Warm. Diffusely edematous with note of neck, supraclavicular, and
   L > R arm edema
   NEURO: Following verbal commands this AM
   Labs / Radiology
   233 K/uL
   8.4 g/dL
   130 mg/dL
   2.3 mg/dL
   30 mEq/L
   3.9 mEq/L
   74 mg/dL
   113 mEq/L
   148 mEq/L
   26.4 %
   10.2 K/uL
        [image002.jpg]
                             [**2191-4-14**]  05:50 AM
                             [**2191-4-14**]  08:08 AM
                             [**2191-4-14**]  03:28 PM
                             [**2191-4-14**]  03:38 PM
                             [**2191-4-14**]  09:53 PM
                             [**2191-4-15**]  03:47 AM
                             [**2191-4-15**]  04:03 AM
                             [**2191-4-15**]  04:57 PM
                             [**2191-4-16**]  04:00 AM
                             [**2191-4-16**]  04:13 AM
   WBC
   9.5
   10.2
   Hct
   27.7
   26.4
   Plt
   271
   233
   Cr
   2.6
   2.5
   2.3
   TCO2
   33
   33
   32
   33
   34
   35
   34
   Glucose
   111
   130
   Other labs: PT / PTT / INR:13.2/62.3/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:86/0.2, Differential-Neuts:88.7 %, Band:1.0 %, Lymph:5.4 %,
   Mono:3.7 %, Eos:2.1 %, D-dimer:7914 ng/mL, Fibrinogen:474 mg/dL, Lactic
   Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:9.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   62F with admission for pneumonia developing into ARDS. Sputum and BAL
   showing MRSA at this point.
   # Hypoxemic respiratory failure:
   ARDS in the setting of MRSA pneumonia. Possibility of other
   complicating factors; however, ANCA negative, [**Doctor First Name **] positive with titer
   only 1:80, HIV status unknown. Has completed steroid taper. Has had a
   high sedation requirement due to vent dyssynchrony when sedation
   lightened. To address sedation difficulty and attempt to liberate from
   fentanyl and midaz drips we initiated methadone and diazepam IV;
   however, she is still requiring the fentanyl and versed drips though at
   reduced doses. Surveillance sputum culture from [**2191-4-8**] and [**2191-4-10**]
   with rare MRSA growth. Last dose of Vancomycin was yesterday. IP came
   to see patient [**2191-4-13**] and would like vent setting of PEEP 8 and FiO2
   50% prior to attempted trach and PEG. Encouraging that drip sedation
   being liberated little by little and FiO2 is down to 55% today. Has
   ongoing diuresis with stable Cr
   - Continue furosemide boluses with [**Hospital1 **] lytes to monitor renal function
   with goal net negative
   - Continue fentanyl patch at 200mcg/hr
   - Continue methadone and diazepam (PO route) titrated up as needed to
   allow liberation from fentanyl and midaz drips
   - Cont to follow oxygen sats and conservative ABG to guide ventilator
   settings, nebs PRN
   - esophageal balloon taken out
   - cont slow PEEP taper
   - PIP/Plateau levels persistently high today, ETT on AM CXR appears to
   abut carina.  Will pull back ETT and redo CXR and then reassess
   respiratory mechanics.
   # DVT:
   Found to have L-IJ clot extending into subclavian. The line was removed
   however, the patient
s PTT was elevated initially without systemic
   anticoagulation.  Unclear if this rise in PTT is due only to heparin
   SC, however patient had previously normal PTT on this admission so
   unlikely to have suddenly developed a deficiency in a clotting factor
   unless poor nutritional status is now contributing. Currently unknown
   if PTT represents anticoagulation vs. hypercoaguable state.
   - F/U ACA antibodies
   - Hematology consult for positive lupus anticoagulant as well as
   positive inhibitor screen in setting of new DVT, likely complicated by
   subcutaneous heparin administration.  Recs avoid hydralazine, would not
   use IV heparin, cannot use lovenox due to renal function
   - Cont to follow coags [**Hospital1 **]
   - Hold heparin subcutaneous today in anticipation of Monday procedures
   # [**Last Name (un) **]:
   Thought to originally be attributed to ATN. Resolving with Cr steadily
   downtrending at 2.5 today in face of diuresis yesterday. No longer
   struggling with hyperphosphatemia.
   - Will check PM lytes and I/O balance.
   - Discontinued calcium acetate
   - patient with slowly increasing hypernatremia, will increase free
   water flushes to 150cc q6.
   # Constipation:
   Patient with two large stools yesterday.
   - Continue lactulose PO and PR as needed
   - If lactulose fails, will consider PO narcan to relief constipation
   #Anemia:
   HCT of 22.2 on [**2191-4-9**] after steady downtrend during ICU course.
   Thought to be secondary to phlebotomy. Iron studies performed on
   [**2191-4-9**] and ferritin of 346 along with iron sat of 25% not consistent
   with iron deficiency anemia. Received 2 units pRBC
s with good response
   several days ago and is now essentially stable with HCT of 26.5 this
   AM. Per report, patient has history of pernicious anemia. B12 levels
   are WNL as of [**2191-4-11**].
   - Continue to trend
   # Hypotension/Hypertension:
   Balance has now swung that patient has recently been hypertensive. This
   likely either unmasked essential hypertension vs. incomplete sedation.
   Will allow some permissive hypertension in setting of [**Last Name (un) **] in order to
   allow adequate perfusion of kidneys given unknown relative normal [**Name2 (NI) 1056**]
   pressure exposure for kidneys.
   - Continue to monitor
   - will increase diltiazem to 60mg qid
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2191-4-15**] 09:22 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2191-4-2**] 07:52 PM
   PICC Line - [**2191-4-13**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-04-16 08:23:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2191-4-15**] 05:31 PM
   LUE US to look for changes in known thrombus
 similar thrombus in LIJ
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2191-4-13**] 01:30 PM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2191-4-15**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-16**] 08:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37
C (98.6
   HR: 82 (63 - 91) bpm
   BP: 175/75(111) {129/59(83) - 175/78(111)} mmHg
   RR: 23 (10 - 36) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                  1,379 mL
                                                                    359 mL
   PO:
             TF:
                                                                    600 mL
                                                                    209 mL
   IVF:
                                                                    424 mL
                                                                    120 mL
   Blood products:
   Total out:
                                                                  2,325 mL
                                                                    310 mL
   Urine:
                                                                  2,325 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -946 mL
                                                                     49 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 260 (260 - 260) mL
   RR (Set): 36
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 55%
   RSBI Deferred: PEEP > 10
   PIP: 51 cmH2O
   Plateau: 46 cmH2O
   SpO2: 96%
   ABG: 7.38/56/74/30/5
   Ve: 9.8 L/min
   PaO2 / FiO2: 135
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   233 K/uL
   130 mg/dL
   2.3 mg/dL
   30 mEq/L
   3.9 mEq/L
   74 mg/dL
   113 mEq/L
   148 mEq/L
   26.4 %
   10.2 K/uL
        [image002.jpg]
                             [**2191-4-14**]  08:08 AM
                             [**2191-4-14**]  03:28 PM
                             [**2191-4-14**]  03:38 PM
                             [**2191-4-14**]  09:53 PM
                             [**2191-4-15**]  03:47 AM
                             [**2191-4-15**]  04:03 AM
                             [**2191-4-15**]  04:57 PM
                             [**2191-4-16**]  04:00 AM
                             [**2191-4-16**]  04:13 AM
                             [**2191-4-16**]  07:46 AM
   WBC
   9.5
   10.2
   Hct
   27.7
   26.4
   Plt
   271
   233
   Cr
   2.6
   2.5
   2.3
   TCO2
   33
   32
   33
   34
   35
   34
   34
   Glucose
   111
   130
   Other labs: PT / PTT / INR:13.2/62.3/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:86/0.2, Differential-Neuts:88.7 %, Band:1.0 %, Lymph:5.4 %,
   Mono:3.7 %, Eos:2.1 %, D-dimer:7914 ng/mL, Fibrinogen:474 mg/dL, Lactic
   Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:9.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   CXR diffuse infiltrates, ETT too low
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 DEEP VENOUS THROMBOSIS (DVT), LIJ -
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 HYPERGLYCEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 ANXIETY
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2191-4-15**] 09:22 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2191-4-2**] 07:52 PM
   PICC Line - [**2191-4-13**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2191-04-17 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ETT at carina, pulled back, rpt CXR good position
   - inc Diltiazem 60mg qid
   - Heme recs no IV hep, no lovenox d/t renal function, watch PTT on sc
   heparin
   - increased free water d/t hypernatremia to 150ml q6
   - Fluc 150mg po x1 given for vag candidiasis
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 60 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-4-16**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2191-4-17**] 12:03 AM
   Furosemide (Lasix) - [**2191-4-17**] 06:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-17**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 72 (64 - 89) bpm
   BP: 164/72(105) {134/56(83) - 180/84(122)} mmHg
   RR: 36 (36 - 45) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                  1,735 mL
                                                                    584 mL
   PO:
             TF:
                                                                    600 mL
                                                                    188 mL
   IVF:
                                                                    395 mL
                                                                    106 mL
   [**Year (4 digits) **] products:
   Total out:
                                                                  2,440 mL
                                                                    395 mL
   Urine:
                                                                  2,340 mL
                                                                    395 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                   -705 mL
                                                                    189 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 260 (260 - 260) mL
   RR (Set): 36
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 55%
   RSBI Deferred: PEEP > 10
   PIP: 47 cmH2O
   Plateau: 39 cmH2O
   SpO2: 95%
   ABG: 7.41/54/75/31/7
   Ve: 9.1 L/min
   PaO2 / FiO2: 136
   Physical Examination
   GEN: Intubated, sedated, does not follow commands
   HEENT: PERRL. Brisk pupil response bilaterally. Anicteric. No pallor.
   No cervical LAD.
   CV: RR, nl S1, nl S2, No murmurs appreciated.
   PULM: Coarse breath sounds bilaterally anteriorly
   ABD: Soft. Non-distended. Not tympanitic. Decreased bowel sounds.
   Superficial ecchymoses.
   EXT: Warm. Diffusely edematous with note of neck, supraclavicular, and
   L > R arm edema
   NEURO: Following verbal commands this AM
   Labs / Radiology
   208 K/uL
   8.2 g/dL
   130 mg/dL
   2.2 mg/dL
   31 mEq/L
   4.0 mEq/L
   66 mg/dL
   111 mEq/L
   149 mEq/L
   24.7 %
   7.8 K/uL
        [image002.jpg]
                             [**2191-4-14**]  09:53 PM
                             [**2191-4-15**]  03:47 AM
                             [**2191-4-15**]  04:03 AM
                             [**2191-4-15**]  04:57 PM
                             [**2191-4-16**]  04:00 AM
                             [**2191-4-16**]  04:13 AM
                             [**2191-4-16**]  07:46 AM
                             [**2191-4-16**]  04:58 PM
                             [**2191-4-16**]  05:08 PM
                             [**2191-4-17**]  04:07 AM
   WBC
   9.5
   10.2
   7.8
   Hct
   27.7
   26.4
   24.7
   Plt
   271
   233
   208
   Cr
   2.5
   2.3
   2.2
   2.2
   TCO2
   33
   34
   35
   34
   34
   37
   35
   Glucose
   111
   130
   109
   130
   Other labs: PT / PTT / INR:13.2/62.3/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:86/0.2, Differential-Neuts:88.7 %, Band:1.0 %, Lymph:5.4 %,
   Mono:3.7 %, Eos:2.1 %, D-dimer:7914 ng/mL, Fibrinogen:474 mg/dL, Lactic
   Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:9.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   62F with admission for pneumonia developing into ARDS. Sputum and BAL
   showing MRSA at this point.
   # Hypoxemic respiratory failure:
   ARDS in the setting of MRSA pneumonia. Possibility of other
   complicating factors; however, ANCA negative, [**Doctor First Name **] positive with titer
   only 1:80, HIV status unknown. Has completed steroid taper. Has had a
   high sedation requirement due to vent dyssynchrony when sedation
   lightened. To address sedation difficulty and attempt to liberate from
   fentanyl and midaz drips we initiated methadone and diazepam IV;
   however, she is still requiring the fentanyl and versed drips though at
   reduced doses. Surveillance sputum culture from [**2191-4-8**] and [**2191-4-10**]
   with rare MRSA growth. Last dose of Vancomycin was yesterday. IP came
   to see patient [**2191-4-13**] and would like vent setting of PEEP 8 and FiO2
   50% prior to attempted trach and PEG. Encouraging that drip sedation
   being liberated little by little and FiO2 is down to 55% today. Has
   ongoing diuresis with stable Cr
   - will start lasix gtt for increased diuresis
   - will decrease RR with permissive hypercapnea in attempt to decrease
   PIP
   - Continue fentanyl patch at 200mcg/hr
   - Continue methadone and diazepam (PO route) titrated up as needed to
   allow liberation from fentanyl and midaz drips
   - Cont to follow oxygen sats and conservative ABG to guide ventilator
   settings, nebs PRN
   - esophageal balloon taken out
   - cont slow PEEP taper
   # DVT:
   Found to have L-IJ clot extending into subclavian. The line was removed
   however, the patient
s PTT was elevated initially without systemic
   anticoagulation.  Unclear if this rise in PTT is due only to heparin
   SC, however patient had previously normal PTT on this admission so
   unlikely to have suddenly developed a deficiency in a clotting factor
   unless poor nutritional status is now contributing. Currently unknown
   if PTT represents anticoagulation vs. hypercoaguable state.
   - F/U ACA antibodies
   - daily coags
   - Hematology consult for positive lupus anticoagulant as well as
   positive inhibitor screen in setting of new DVT, likely complicated by
   subcutaneous heparin administration.  Recs avoid hydralazine, would not
   use IV heparin, cannot use lovenox due to renal function
   - Cont to follow coags [**Hospital1 **]
   - Hold heparin subcutaneous today in anticipation of Monday procedures
   # [**Last Name (un) **]:
   Thought to originally be attributed to ATN. Resolving with Cr steadily
   downtrending at 2.5 today in face of diuresis yesterday. No longer
   struggling with hyperphosphatemia.  Continues to have increasing
   sodium.
   - Will check PM lytes and I/O balance.
   - Discontinued calcium acetate
   - will change free water flushes to 150cc q4.
   # Constipation:
   Patient with two large stools yesterday.
   - Continue lactulose PO and PR as needed
   - If lactulose fails, will consider PO narcan to relief constipation
   #Anemia:
   HCT of 22.2 on [**2191-4-9**] after steady downtrend during ICU course.
   Thought to be secondary to phlebotomy. Iron studies performed on
   [**2191-4-9**] and ferritin of 346 along with iron sat of 25% not consistent
   with iron deficiency anemia. Received 2 units pRBC
s with good response
   several days ago and is now essentially stable with HCT of 26.5 this
   AM. Per report, patient has history of pernicious anemia. B12 levels
   are WNL as of [**2191-4-11**].
   - Continue to trend
   - plan transfusion if HgB <7
   # Hypotension/Hypertension:
   Balance has now swung that patient has recently been hypertensive. This
   likely either unmasked essential hypertension vs. incomplete sedation.
   Will allow some permissive hypertension in setting of [**Last Name (un) **] in order to
   allow adequate perfusion of kidneys given unknown relative normal [**Name2 (NI) 1056**]
   pressure exposure for kidneys.
   - Continue to monitor
   - cont diltiazem to 60mg qid
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2191-4-16**] 09:20 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2191-4-2**] 07:52 PM
   PICC Line - [**2191-4-13**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-04-17 08:01:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   ETT pulled back
   Airway pressures remain elevated
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 60 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-4-16**] 08:00 PM
   Furosemide (Lasix) - [**2191-4-17**] 06:20 AM
   Heparin Sodium (Prophylaxis) - [**2191-4-17**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-17**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.7
   HR: 73 (64 - 89) bpm
   BP: 156/74(104) {134/56(83) - 180/84(122)} mmHg
   RR: 36 (36 - 45) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                  1,735 mL
                                                                    602 mL
   PO:
             TF:
                                                                    600 mL
                                                                    200 mL
   IVF:
                                                                    395 mL
                                                                    112 mL
   Blood products:
   Total out:
                                                                  2,440 mL
                                                                    555 mL
   Urine:
                                                                  2,340 mL
                                                                    555 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                   -705 mL
                                                                     47 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 260 (260 - 260) mL
   RR (Set): 36
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 55%
   RSBI Deferred: PEEP > 10
   PIP: 47 cmH2O
   Plateau: 39 cmH2O
   SpO2: 95%
   ABG: 7.41/54/75/31/7
   Ve: 9.1 L/min
   PaO2 / FiO2: 136
   Physical Examination
   Intubated, unresponsive
   LUE stable edema, lower extremities with trace edema
   Coarse vented bs
   Rrr
   Abd benign, pos bowel sounds
   Labs / Radiology
   8.2 g/dL
   208 K/uL
   130 mg/dL
   2.2 mg/dL
   31 mEq/L
   4.0 mEq/L
   66 mg/dL
   111 mEq/L
   149 mEq/L
   24.7 %
   7.8 K/uL
        [image002.jpg]
                             [**2191-4-14**]  09:53 PM
                             [**2191-4-15**]  03:47 AM
                             [**2191-4-15**]  04:03 AM
                             [**2191-4-15**]  04:57 PM
                             [**2191-4-16**]  04:00 AM
                             [**2191-4-16**]  04:13 AM
                             [**2191-4-16**]  07:46 AM
                             [**2191-4-16**]  04:58 PM
                             [**2191-4-16**]  05:08 PM
                             [**2191-4-17**]  04:07 AM
   WBC
   9.5
   10.2
   7.8
   Hct
   27.7
   26.4
   24.7
   Plt
   271
   233
   208
   Cr
   2.5
   2.3
   2.2
   2.2
   TCO2
   33
   34
   35
   34
   34
   37
   35
   Glucose
   111
   130
   109
   130
   Other labs: PT / PTT / INR:13.2/62.3/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:86/0.2, Differential-Neuts:88.7 %, Band:1.0 %, Lymph:5.4 %,
   Mono:3.7 %, Eos:2.1 %, D-dimer:7914 ng/mL, Fibrinogen:474 mg/dL, Lactic
   Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:9.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), LIJ
 continue heparin SC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 creatinine
   improving, continue to diurese
 ACUTE RESPIRATORY DISTRESS SYNDROME, respiratory failure, staph
   pneumonia
 pull tube back a bit, follow pressures, cont vent support,
   may need trach this upcoming week, will decrease RR to target pH 7.3
   7.35, continue low volume ventilation, diurese as much as possible
   Hypernatremia
 increase free water
   HTN
 on diltiazem
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2191-4-16**] 09:20 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2191-4-2**] 07:52 PM
   PICC Line - [**2191-4-13**] 10:30 AM
   Prophylaxis:
   DVT:  sc hep
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :    icu
   Total time spent:    39

2191-04-18 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Evening PTT was elevated to 103.6 and midnight heparin injection was
   held
   - IP stopped by to see patient and reported they would be back to
   re-evaluate patient for possible trach and PEG for [**4-19**]; however, she
   is likely to need surgical airway in OR if she has ongoing FiO2
   elevated above 50% and PEEP > 8
   - Tube feeds were stopped due to high residuals and then NG tube put to
   wall suction with return of ~200 mL of yellow liquid. Tube feeds were
   restarted at 0500.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 60 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Furosemide (Lasix) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-4-17**] 08:00 AM
   Furosemide (Lasix) - [**2191-4-17**] 09:00 AM
   Midazolam (Versed) - [**2191-4-17**] 01:35 PM
   Pantoprazole (Protonix) - [**2191-4-17**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-18**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.5
   HR: 101 (62 - 109) bpm
   BP: 119/52(72) {119/52(72) - 177/100(131)} mmHg
   RR: 30 (20 - 44) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
             Total In:
                                                                  2,073 mL
                                                                    320 mL
   PO:
             TF:
                                                                    525 mL
                                                                     39 mL
   IVF:
                                                                    328 mL
                                                                     42 mL
   [**Year (4 digits) **] products:
   Total out:
                                                                  3,195 mL
                                                                  1,020 mL
   Urine:
                                                                  3,195 mL
                                                                    795 mL
   NG:
   225 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,122 mL
                                                                   -700 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 260 (260 - 260) mL
   RR (Set): 28
   RR (Spontaneous): 4
   PEEP: 10 cmH2O
   FiO2: 55%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 25 cmH2O
   SpO2: 94%
   ABG: 7.37/63/64/33/7
   Ve: 8.3 L/min
   PaO2 / FiO2: 116
   Physical Examination
   GEN: Intubated, sedated, does not follow commands
   HEENT: PERRL. Anicteric. No pallor. No cervical LAD.
   CV: RR, nl S1, nl S2, No murmurs appreciated.
   PULM: Coarse breath sounds bilaterally anteriorly, expiratory wheezes
   ABD: Soft. Non-distended. Not tympanic. Decreased bowel sounds.
   Superficial ecchymoses.
   EXT: Warm. Diffusely edematous with note of neck, supraclavicular, and
   L > R arm edema
   NEURO: sedated, non-response, withdraws to painful stimuli
   Labs / Radiology
   211 K/uL
   9.0 g/dL
   121 mg/dL
   2.1 mg/dL
   33 mEq/L
   4.6 mEq/L
   60 mg/dL
   104 mEq/L
   145 mEq/L
   26.7 %
   10.7 K/uL
        [image002.jpg]
                             [**2191-4-16**]  07:46 AM
                             [**2191-4-16**]  04:58 PM
                             [**2191-4-16**]  05:08 PM
                             [**2191-4-17**]  04:07 AM
                             [**2191-4-17**]  10:04 AM
                             [**2191-4-17**]  05:29 PM
                             [**2191-4-17**]  05:43 PM
                             [**2191-4-18**]  03:45 AM
                             [**2191-4-18**]  04:17 AM
                             [**2191-4-18**]  05:48 AM
   WBC
   7.8
   10.7
   Hct
   24.7
   26.7
   Plt
   208
   211
   Cr
   2.2
   2.2
   2.1
   2.1
   TCO2
   34
   37
   35
   34
   39
   37
   38
   Glucose
   109
   130
   135
   121
   Other labs: PT / PTT / INR:13.0/60.9/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:86/0.2, Differential-Neuts:88.7 %, Band:1.0 %, Lymph:5.4 %,
   Mono:3.7 %, Eos:2.1 %, D-dimer:7914 ng/mL, Fibrinogen:474 mg/dL, Lactic
   Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:9.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   62F with admission for pneumonia developing into ARDS. Sputum and BAL
   showing MRSA at this point.
   # Hypoxemic respiratory failure:
   ARDS in the setting of MRSA pneumonia. Possibility of other
   complicating factors; however, ANCA negative, [**Doctor First Name **] positive with titer
   only 1:80, HIV status unknown. Has completed steroid taper. Has had a
   high sedation requirement due to vent dyssynchrony when sedation
   lightened. To address sedation difficulty and attempt to liberate from
   fentanyl and midaz drips we initiated methadone and diazepam IV;
   however, she is still requiring the fentanyl and versed drips though at
   reduced doses. Surveillance sputum culture from [**2191-4-8**] and [**2191-4-10**]
   with rare MRSA growth. Completed course of Vancomycin. IP came to see
   patient [**2191-4-13**] and would like vent setting of PEEP 8 and FiO2 50%
   prior to attempted trach and PEG. Encouraging that drip sedation being
   liberated little by little and FiO2 is down to 55%. Has ongoing
   diuresis with stable Cr
   - will cont lasix gtt for increased diuresis
   - decreased RR with permissive hypercapnea in attempt to decrease PIP,
   will cont to attempt wean settings
   - Continue fentanyl patch at 200mcg/hr
   - Continue methadone and diazepam (PO route) titrated up as needed to
   allow liberation from fentanyl and midaz drips
   - Cont to follow oxygen sats and conservative ABG to guide ventilator
   settings, nebs PRN
   - esophageal balloon taken out
   - cont slow PEEP taper
   - f/u with IP re:plan for trach and PEG this week,
   # DVT:
   Found to have L-IJ clot extending into subclavian. The line was removed
   however, the patient
s PTT was elevated initially without systemic
   anticoagulation.  Unclear if this rise in PTT is due only to heparin
   SC, however patient had previously normal PTT on this admission so
   unlikely to have suddenly developed a deficiency in a clotting factor
   unless poor nutritional status is now contributing. Currently unknown
   if PTT represents anticoagulation vs. hypercoaguable state. ACA
   antibodies, IgG positive, IgM negative
   - daily coags
   - Hematology consult for positive lupus anticoagulant as well as
   positive inhibitor screen in setting of new DVT, likely complicated by
   subcutaneous heparin administration.  Recs avoid hydralazine, would not
   use IV heparin, cannot use lovenox due to renal function
   - Cont to follow coags [**Hospital1 **]
   - plan to hold heparin subcutaneous today in anticipation of potential
   procedures
   # [**Last Name (un) **]:
   Thought to originally be attributed to ATN. Resolving with Cr steadily
   downtrending at 2.1 today with continued diuresis. No longer struggling
   with hyperphosphatemia.  Continues to have high relatively sodium but
   improved.
   - follow lytes and I/O balance.
   - Discontinued calcium acetate
   - free water flushes at 150cc q4.
   # Constipation:
   - Continue lactulose PO and PR as needed
   - If lactulose fails, could consider PO narcan to relief constipation
   #Anemia:
   HCT of 22.2 on [**2191-4-9**] after steady downtrend during ICU course.
   Thought to be secondary to phlebotomy. Iron studies performed on
   [**2191-4-9**] and ferritin of 346 along with iron sat of 25% not consistent
   with iron deficiency anemia. Received 2 units pRBC
s with good response
   several days ago and is now essentially stable with HCT of 26.5 this
   AM. Per report, patient has history of pernicious anemia. B12 levels
   are WNL as of [**2191-4-11**].
   - Continue to trend
   - plan transfusion if HgB <7
   # Hypotension/Hypertension:
   Balance has now swung that patient has recently been hypertensive. This
   likely either unmasked essential hypertension vs. incomplete sedation.
   Will allow some permissive hypertension in setting of [**Last Name (un) **] in order to
   allow adequate perfusion of kidneys given unknown relative normal [**Name2 (NI) 1056**]
   pressure exposure for kidneys.
   - Continue to monitor
   - cont diltiazem to 60mg qid
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2191-4-18**] 05:10 AM 15.[**Telephone/Fax (5) 5731**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2191-4-2**] 07:52 PM
   PICC Line - [**2191-4-13**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-04-18 11:47:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 yo women with severe late stage ARDS from nosocomial MRSA PNA.
   Course complicated by ARF. RIJ clot in setting of line and possible
   +lupus anticoagulant.
   24 Hour Events:
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-4-17**] 08:00 PM
   Midazolam (Versed) - [**2191-4-18**] 10:30 AM
   Fentanyl - [**2191-4-18**] 10:30 AM
   Other medications:
   lipitor
   colace
   synthroid
   chlorhex
   SSI
   fentanyl patch
   valium
   senna
   methadone
   diltiazem
   hep s/q
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-18**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 87 (62 - 109) bpm
   BP: 110/50(70) {110/50(70) - 177/100(131)} mmHg
   RR: 40 (19 - 44) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                  2,073 mL
                                                                    490 mL
   PO:
             TF:
                                                                    525 mL
                                                                    102 mL
   IVF:
                                                                    328 mL
                                                                     58 mL
   Blood products:
   Total out:
                                                                  3,195 mL
                                                                  1,310 mL
   Urine:
                                                                  3,195 mL
                                                                  1,085 mL
   NG:
   225 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,122 mL
                                                                   -820 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 260 (260 - 260) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 55%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 26 cmH2O
   SpO2: 95%
   ABG: 7.37/64/68/33/8
   Ve: 7.8 L/min
   PaO2 / FiO2: 124
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : course crackles)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   211 K/uL
   121 mg/dL
   2.1 mg/dL
   33 mEq/L
   4.6 mEq/L
   60 mg/dL
   104 mEq/L
   145 mEq/L
   26.7 %
   10.7 K/uL
        [image002.jpg]
                             [**2191-4-16**]  04:58 PM
                             [**2191-4-16**]  05:08 PM
                             [**2191-4-17**]  04:07 AM
                             [**2191-4-17**]  10:04 AM
                             [**2191-4-17**]  05:29 PM
                             [**2191-4-17**]  05:43 PM
                             [**2191-4-18**]  03:45 AM
                             [**2191-4-18**]  04:17 AM
                             [**2191-4-18**]  05:48 AM
                             [**2191-4-18**]  09:42 AM
   WBC
   7.8
   10.7
   Hct
   24.7
   26.7
   Plt
   208
   211
   Cr
   2.2
   2.2
   2.1
   2.1
   TCO2
   37
   35
   34
   39
   37
   38
   38
   Glucose
   109
   130
   135
   121
   Other labs: PT / PTT / INR:13.0/60.9/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:86/0.2, Differential-Neuts:88.7 %, Band:1.0 %, Lymph:5.4 %,
   Mono:3.7 %, Eos:2.1 %, D-dimer:7914 ng/mL, Fibrinogen:474 mg/dL, Lactic
   Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:9.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Respiratory failure/ARDS:  Significant dysinchrony with ventilator.
   Improved peak [**Last Name (LF) 5743**], [**First Name3 (LF) 124**] try and increase Vt to 300 to help
   dysynchrony.
   Needs trach, but still on too much PEEP and FiO2.  If oxygenation
   improves, can lower FiO2 and/or PEEP.
   coagulopathy:  possible lupus anticoag.  On s/q heparin and PTT is up,
   unclear if its due to lupus anticoagulant or due to s/q heparine.
   HOTN:  Improved, not on pressors.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2191-4-18**] 05:10 AM 15.[**Telephone/Fax (5) 5731**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2191-4-2**] 07:52 PM
   PICC Line - [**2191-4-13**] 10:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2191-04-19 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - able to wean to PEEP 5, and FiO2 55%
   - lupus anti-coagulant positive and low heparin level, likely not
   anti-coagulated (cannot rely on PTT). since likely going to procedure,
   ok for now, however will need plan for anticoagulation after trach and
   PEG.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2191-4-18**] 10:30 AM
   Midazolam (Versed) - [**2191-4-18**] 10:30 AM
   Pantoprazole (Protonix) - [**2191-4-18**] 07:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-19**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 81 (79 - 101) bpm
   BP: 116/52(74) {92/50(70) - 140/73(93)} mmHg
   RR: 26 (25 - 40) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                  1,103 mL
                                                                    151 mL
   PO:
             TF:
                                                                    411 mL
                                                                      2 mL
   IVF:
                                                                    118 mL
                                                                     30 mL
   [**Year (4 digits) **] products:
   Total out:
                                                                  2,640 mL
                                                                    675 mL
   Urine:
                                                                  2,315 mL
                                                                    675 mL
   NG:
                                                                    225 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,537 mL
                                                                   -524 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (260 - 300) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 55%
   PIP: 38 cmH2O
   Plateau: 32 cmH2O
   SpO2: 93%
   ABG: 7.41/61/77/36/10
   Ve: 8.3 L/min
   PaO2 / FiO2: 140
   Physical Examination
   GEN: Intubated, sedated, does not follow commands
   HEENT: PERRL. Anicteric. No pallor. No cervical LAD.
   CV: RR, nl S1, nl S2, No murmurs appreciated.
   PULM: Coarse breath sounds bilaterally anteriorly, expiratory wheezes
   ABD: Soft. Non-distended. Not tympanic. Decreased bowel sounds.
   Superficial ecchymoses.
   EXT: Warm. Diffusely edematous with note of neck, supraclavicular, and
   L > R arm edema
   NEURO: sedated, non-response, withdraws to painful stimuli
   Labs / Radiology
   170 K/uL
   7.8 g/dL
   101 mg/dL
   2.1 mg/dL
   36 mEq/L
   3.9 mEq/L
   56 mg/dL
   102 mEq/L
   143 mEq/L
   23.3 %
   8.1 K/uL
        [image002.jpg]
                             [**2191-4-17**]  05:43 PM
                             [**2191-4-18**]  03:45 AM
                             [**2191-4-18**]  04:17 AM
                             [**2191-4-18**]  05:48 AM
                             [**2191-4-18**]  09:42 AM
                             [**2191-4-18**]  02:02 PM
                             [**2191-4-18**]  07:29 PM
                             [**2191-4-18**]  10:50 PM
                             [**2191-4-19**]  03:09 AM
                             [**2191-4-19**]  05:08 AM
   WBC
   10.7
   8.1
   Hct
   26.7
   23.3
   Plt
   211
   170
   Cr
   2.1
   2.1
   2.1
   TCO2
   39
   37
   38
   38
   39
   42
   40
   Glucose
   121
   108
   101
   Other labs: PT / PTT / INR:14.0/56.3/1.2, ALT / AST:14/18, Alk Phos / T
   Bili:86/0.2, Differential-Neuts:88.7 %, Band:1.0 %, Lymph:5.4 %,
   Mono:3.7 %, Eos:2.1 %, D-dimer:7914 ng/mL, Fibrinogen:474 mg/dL, Lactic
   Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   62F with admission for pneumonia developing into ARDS. Sputum and BAL
   showing MRSA at this point.
   # Hypoxemic respiratory failure:
   ARDS in the setting of MRSA pneumonia. Possibility of other
   complicating factors; however, ANCA negative, [**Doctor First Name **] positive with titer
   only 1:80, HIV status unknown. Has completed steroid taper. Has had a
   high sedation requirement due to vent dyssynchrony when sedation
   lightened. To address sedation difficulty and attempt to liberate from
   fentanyl and midaz drips we initiated methadone and diazepam IV;
   however, she is still requiring the fentanyl and versed drips though at
   reduced doses. Surveillance sputum culture from [**2191-4-8**] and [**2191-4-10**]
   with rare MRSA growth. Completed course of Vancomycin. IP came to see
   patient [**2191-4-13**] and would like vent setting of PEEP 8 and FiO2 50%
   prior to attempted trach and PEG. Encouraging that drip sedation being
   liberated little by little and FiO2 is down to 55% with PEEP of 5 now.
   Has ongoing diuresis with stable Cr
   - will cont lasix gtt for increased diuresis
   - decreased RR with permissive hypercapnea in attempt to decrease PIP,
   will cont to attempt wean settings
   - Continue fentanyl patch at 200mcg/hr
   - Continue methadone and diazepam (PO route) titrated up as needed to
   allow liberation from fentanyl and midaz drips
   - Cont to follow oxygen sats and conservative ABG to guide ventilator
   settings, nebs PRN
   - esophageal balloon taken out
   - cont slow PEEP taper
   - f/u with IP re:plan for trach and PEG (current plan for Thurs)
   # DVT:
   Found to have L-IJ clot extending into subclavian. The line was removed
   however, the patient
s PTT was elevated initially without systemic
   anticoagulation.  Unclear if this rise in PTT is due only to heparin
   SC, however patient had previously normal PTT on this admission so
   unlikely to have suddenly developed a deficiency in a clotting factor
   unless poor nutritional status is now contributing. Currently unknown
   if PTT represents anticoagulation vs. hypercoaguable state. ACA
   antibodies, IgG positive, IgM negative. Heme consulted and given lupus
   anticoagulant positive and low heparin level, patient is likely not
   anticoagulated and PTT cannot be used to follow heparin. Since pending
   procedure, not starting anticoagulation now, but will need plan for
   anticoagulation after trach and PEG
   - daily coags
   - appreciate Hematology consult re: positive lupus anticoagulant and
   now low heparin level in setting of new DVT. Recs avoid hydralazine,
   cannot use lovenox due to renal function, will need to consider how to
   anticoagulate. Plan for now is to have trach and PEG on thurs so will
   start a heparin drip and follow heparin levels rather than PTT. Heparin
   level can be ordered stat and takes approximately 4 hours to return.
   # [**Last Name (un) **]:
   Thought to originally be attributed to ATN. Resolving with Cr steadily
   downtrending at 2.1 today with continued diuresis. No longer struggling
   with hyperphosphatemia.  High sodium has improved.
   - follow lytes and I/O balance.
   - Discontinued calcium acetate
   - free water flushes at 150cc q4.
   # Constipation:
   - Continue lactulose PO and PR as needed
   - If lactulose fails, could consider PO narcan to relieve constipation
   #Anemia:
   HCT of 22.2 on [**2191-4-9**] after steady downtrend during ICU course.
   Thought to be secondary to phlebotomy. Iron studies performed on
   [**2191-4-9**] and ferritin of 346 along with iron sat of 25% not consistent
   with iron deficiency anemia. Received 2 units pRBC
s with good response
   several days ago and is now essentially stable with HCT of 26.5 this
   AM. Per report, patient has history of pernicious anemia. B12 levels
   are WNL as of [**2191-4-11**].
   - Continue to trend
   - plan transfusion if HgB <7
   # Hypotension/Hypertension:
   Balance has now swung that patient has recently been hypertensive. This
   likely either unmasked essential hypertension vs. incomplete sedation.
   Will allow some permissive hypertension in setting of [**Last Name (un) **] in order to
   allow adequate perfusion of kidneys given unknown relative normal [**Name2 (NI) 1056**]
   pressure exposure for kidneys.
   - Continue to monitor
   - cont diltiazem to 60mg qid
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2191-4-2**] 07:52 PM
   PICC Line - [**2191-4-13**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-04-19 10:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 yo women with severe ARDS after MRSA PNA.  Awaiting trach and PEG.
   Yesterday, able to increase Vt to 300, and decrease Peep to 5.  Lupus
   anticoagulant + and heparin level came back low so will need
   anticoagulation.
   24 Hour Events:
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2191-4-18**] 10:30 AM
   Fentanyl - [**2191-4-18**] 10:30 AM
   Pantoprazole (Protonix) - [**2191-4-18**] 07:55 PM
   Other medications:
   lipitor
   synthroid
   chlorhexadine
   SSI
   fentanyl patch
   diazepam
   methadone
   diltiazem
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-19**] 10:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 92 (79 - 96) bpm
   BP: 127/59(85) {92/50(70) - 140/73(93)} mmHg
   RR: 32 (25 - 40) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                  1,103 mL
                                                                    160 mL
   PO:
             TF:
                                                                    411 mL
                                                                      2 mL
   IVF:
                                                                    118 mL
                                                                     39 mL
   Blood products:
   Total out:
                                                                  2,640 mL
                                                                    675 mL
   Urine:
                                                                  2,315 mL
                                                                    675 mL
   NG:
                                                                    225 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,537 mL
                                                                   -514 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 300 (260 - 300) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 55%
   PIP: 31 cmH2O
   Plateau: 32 cmH2O
   SpO2: 92%
   ABG: 7.41/64/67/36/12
   Ve: 7.3 L/min
   PaO2 / FiO2: 122
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   170 K/uL
   101 mg/dL
   2.1 mg/dL
   36 mEq/L
   3.9 mEq/L
   56 mg/dL
   102 mEq/L
   143 mEq/L
   23.3 %
   8.1 K/uL
        [image002.jpg]
                             [**2191-4-18**]  03:45 AM
                             [**2191-4-18**]  04:17 AM
                             [**2191-4-18**]  05:48 AM
                             [**2191-4-18**]  09:42 AM
                             [**2191-4-18**]  02:02 PM
                             [**2191-4-18**]  07:29 PM
                             [**2191-4-18**]  10:50 PM
                             [**2191-4-19**]  03:09 AM
                             [**2191-4-19**]  05:08 AM
                             [**2191-4-19**]  09:31 AM
   WBC
   10.7
   8.1
   Hct
   26.7
   23.3
   Plt
   211
   170
   Cr
   2.1
   2.1
   2.1
   TCO2
   37
   38
   38
   39
   42
   40
   42
   Glucose
   121
   108
   101
   Other labs: PT / PTT / INR:14.0/56.3/1.2, ALT / AST:14/18, Alk Phos / T
   Bili:86/0.2, Differential-Neuts:88.7 %, Band:1.0 %, Lymph:5.4 %,
   Mono:3.7 %, Eos:2.1 %, D-dimer:7914 ng/mL, Fibrinogen:474 mg/dL, Lactic
   Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Respiratory failure:  MRSA PNA and ARDS.  Still requiring very high
   peak pressures, but may be related to tortuous trachea.  Will
   do bronch today to visualize tracheal position.  To get trach on
   Thursday.
   Sedation:  On valium and po methadone and fentanyl.  Will go down on
   drips. and try bolus sedation.
   Left IJ clot and Lupus anticoagulant positive.  Heparin level is low,
   so PTT elevation is due to antiphosphlipid antibodes.  Should be
   anticoagulated.
   As per heme will start heparin and start heparin levels.
   Acute renal faiure:  Creatinine is stable with diuresis
   TFs had high residuals yesterday.  Will try and restart today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2191-4-2**] 07:52 PM
   PICC Line - [**2191-4-13**] 10:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2191-04-20 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - IP recs trach/peg likely thursday
   - Bronchoscopy sig for ET tube against trachea, repositioned with
   improvement in PIP
   - Heme recs start hep gtt, follow heparin levels (0.3-0.7 therapeutic),
   anti-coag x1 month, f/u DVT with ultrasound in 1 month, heme f/u 3
   months with rpt LA/APL
   - Heparin level < 0.13 to 0.25, with increase in drip rate
   - Increased FiO2 to 70% due to desat while turning
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 1 mg/hour
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Fentanyl - [**2191-4-19**] 04:30 PM
   Midazolam (Versed) - [**2191-4-20**] 04:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-20**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.8
C (98.2
   HR: 92 (74 - 106) bpm
   BP: 128/57(82) {119/55(77) - 150/74(104)} mmHg
   RR: 31 (26 - 48) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                    995 mL
                                                                    729 mL
   PO:
             TF:
                                                                    229 mL
                                                                    182 mL
   IVF:
                                                                    195 mL
                                                                    127 mL
   [**Year (4 digits) **] products:
   Total out:
                                                                  2,695 mL
                                                                    860 mL
   Urine:
                                                                  2,695 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,700 mL
                                                                   -131 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   RR (Set): 26
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI Deferred: FiO2 > 60%
   PIP: 16 cmH2O
   Plateau: 0 cmH2O
   SpO2: 92%
   ABG: 7.45/55/91.[**Numeric Identifier 253**]/38/11
   Ve: 10.9 L/min
   PaO2 / FiO2: 131
   Physical Examination
   GEN: Intubated, sedated, does not follow commands
   HEENT: PERRL. Anicteric. No pallor. No cervical LAD.
   CV: RR, nl S1, nl S2, No murmurs appreciated.
   PULM: Coarse breath sounds bilaterally anteriorly, expiratory wheezes
   ABD: Soft. Non-distended. Not tympanic. Decreased bowel sounds.
   Superficial ecchymoses.
   EXT: Warm. Diffusely edematous with note of neck, supraclavicular, and
   L > R arm edema
   NEURO: sedated, non-response, withdraws to painful stimuli
   Labs / Radiology
   145 K/uL
   7.5 g/dL
   126 mg/dL
   2.1 mg/dL
   38 mEq/L
   4.0 mEq/L
   48 mg/dL
   101 mEq/L
   144 mEq/L
   21.6 %
   8.8 K/uL
        [image002.jpg]
                             [**2191-4-18**]  07:29 PM
                             [**2191-4-18**]  10:50 PM
                             [**2191-4-19**]  03:09 AM
                             [**2191-4-19**]  05:08 AM
                             [**2191-4-19**]  09:31 AM
                             [**2191-4-19**]  11:29 AM
                             [**2191-4-19**]  04:55 PM
                             [**2191-4-19**]  06:20 PM
                             [**2191-4-20**]  04:33 AM
                             [**2191-4-20**]  06:24 AM
   WBC
   8.1
   8.8
   Hct
   23.3
   21.6
   Plt
   170
   145
   Cr
   2.1
   2.1
   2.1
   2.1
   TCO2
   42
   40
   42
   40
   41
   39
   Glucose
   108
   101
   101
   126
   Other labs: PT / PTT / INR:13.6/98.9/1.2, ALT / AST:14/18, Alk Phos / T
   Bili:86/0.2, Differential-Neuts:88.7 %, Band:1.0 %, Lymph:5.4 %,
   Mono:3.7 %, Eos:2.1 %, D-dimer:7914 ng/mL, Fibrinogen:474 mg/dL, Lactic
   Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   62F with admission for pneumonia developing into ARDS. Sputum and BAL
   showing MRSA at this point.
   # Hypoxemic respiratory failure:
   ARDS in the setting of MRSA pneumonia. Possibility of other
   complicating factors; however, ANCA negative, [**Doctor First Name **] positive with titer
   only 1:80, HIV status unknown. Has completed steroid taper. Has had a
   high sedation requirement due to vent dyssynchrony when sedation
   lightened. To address sedation difficulty and attempt to liberate from
   fentanyl and midaz drips we initiated methadone and diazepam IV;
   however, she is still requiring the fentanyl and versed drips though at
   reduced doses. Surveillance sputum culture from [**2191-4-8**] and [**2191-4-10**]
   with rare MRSA growth. Completed course of Vancomycin. IP came to see
   patient [**2191-4-13**] and would like vent setting of PEEP 8 and FiO2 50%
   prior to attempted trach and PEG. Encouraging that drip sedation being
   liberated little by little and FiO2 is down to 55% with PEEP of 5 now.
   Has ongoing diuresis with stable Cr
   - will cont lasix gtt for increased diuresis
   - decreased RR with permissive hypercapnea in attempt to decrease PIP,
   will cont to attempt wean settings
   - Continue fentanyl patch at 200mcg/hr
   - Continue methadone and diazepam (PO route) titrated up as needed to
   allow liberation from fentanyl and midaz drips
   - Cont to follow oxygen sats and conservative ABG to guide ventilator
   settings, nebs PRN
   - esophageal balloon taken out
   - cont slow PEEP taper
   - f/u with IP re:plan for trach and PEG (current plan for Thurs)
   # DVT:
   Found to have L-IJ clot extending into subclavian. The line was removed
   however, the patient
s PTT was elevated initially without systemic
   anticoagulation.  Unclear if this rise in PTT is due only to heparin
   SC, however patient had previously normal PTT on this admission so
   unlikely to have suddenly developed a deficiency in a clotting factor
   unless poor nutritional status is now contributing. Currently unknown
   if PTT represents anticoagulation vs. hypercoaguable state. ACA
   antibodies, IgG positive, IgM negative. Heme consulted and given lupus
   anticoagulant positive and low heparin level, patient is likely not
   anticoagulated and PTT cannot be used to follow heparin. Since pending
   procedure, not starting anticoagulation now, but will need plan for
   anticoagulation after trach and PEG
   - daily coags
   - appreciate Hematology consult re: positive lupus anticoagulant and
   now low heparin level in setting of new DVT. Recs avoid hydralazine,
   cannot use lovenox due to renal function, will need to consider how to
   anticoagulate. Plan for now is to have trach and PEG on thurs so will
   start a heparin drip and follow heparin levels rather than PTT. Heparin
   level can be ordered stat and takes approximately 4 hours to return.
   # [**Last Name (un) **]:
   Thought to originally be attributed to ATN. Resolving with Cr steadily
   downtrending at 2.1 today with continued diuresis. No longer struggling
   with hyperphosphatemia.  High sodium has improved.
   - follow lytes and I/O balance.
   - Discontinued calcium acetate
   - free water flushes at 150cc q4.
   # Constipation:
   - Continue lactulose PO and PR as needed
   - If lactulose fails, could consider PO narcan to relieve constipation
   #Anemia:
   HCT of 22.2 on [**2191-4-9**] after steady downtrend during ICU course.
   Thought to be secondary to phlebotomy. Iron studies performed on
   [**2191-4-9**] and ferritin of 346 along with iron sat of 25% not consistent
   with iron deficiency anemia. Received 2 units pRBC
s with good response
   several days ago and is now essentially stable with HCT of 26.5 this
   AM. Per report, patient has history of pernicious anemia. B12 levels
   are WNL as of [**2191-4-11**].
   - Continue to trend
   - plan transfusion if HgB <7
   # Hypotension/Hypertension:
   Balance has now swung that patient has recently been hypertensive. This
   likely either unmasked essential hypertension vs. incomplete sedation.
   Will allow some permissive hypertension in setting of [**Last Name (un) **] in order to
   allow adequate perfusion of kidneys given unknown relative normal [**Name2 (NI) 1056**]
   pressure exposure for kidneys.
   - Continue to monitor
   - cont diltiazem to 60mg qid
   ICU Care
   Nutrition: Novasource Renal Full strength; Additives: Beneprotein, 15
   gm/day, Goal rate: 25 ml/hr, Flush w/ 150 ml water q4h
   Glycemic Control:  Insulin sliding scale
   Lines:
   Arterial Line - [**2191-4-2**] 07:52 PM
   PICC Line - [**2191-4-13**] 10:30 AM
   Prophylaxis:
   DVT: Heparin drip anticoagulation
   Stress ulcer: PPI
   VAP:  HOB elevation, oral care
   Communication:  With patient
s sister
   [**Name (NI) 156**] status: FULL
   Disposition: ICU care for now

2191-04-20 11:29:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 yo women with MRSA PNA, ARDS, found to be lupus anticoag +.  Bronch
   yesterday revealed that ETT was flush against tracheal wall, so it was
   advanced.  Temp spike this morning
   24 Hour Events:
 BRONCHOSCOPY - At [**2191-4-19**] 04:30 PM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 1 mg/hour
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2191-4-20**] 08:24 AM
   Fentanyl - [**2191-4-20**] 08:24 AM
   Other medications:
   protonix
   thyroxin
   SSI
   fentanyl patch
   senna
   dilt
   free H20
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-20**] 11:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.9
C (100.3
   HR: 85 (74 - 112) bpm
   BP: 138/62(90) {121/53(75) - 150/74(104)} mmHg
   RR: 26 (26 - 48) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                    995 mL
                                                                  1,078 mL
   PO:
             TF:
                                                                    229 mL
                                                                    279 mL
   IVF:
                                                                    195 mL
                                                                    199 mL
   Blood products:
   Total out:
                                                                  2,695 mL
                                                                  1,170 mL
   Urine:
                                                                  2,695 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,700 mL
                                                                    -92 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   RR (Set): 26
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI Deferred: FiO2 > 60%
   PIP: 21 cmH2O
   Plateau: 0 cmH2O
   SpO2: 95%
   ABG: 7.45/55/91.[**Numeric Identifier 253**]/38/11
   Ve: 8.4 L/min
   PaO2 / FiO2: 131
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : coarse)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   145 K/uL
   126 mg/dL
   2.1 mg/dL
   38 mEq/L
   4.0 mEq/L
   48 mg/dL
   101 mEq/L
   144 mEq/L
   21.6 %
   8.8 K/uL
        [image002.jpg]
                             [**2191-4-18**]  07:29 PM
                             [**2191-4-18**]  10:50 PM
                             [**2191-4-19**]  03:09 AM
                             [**2191-4-19**]  05:08 AM
                             [**2191-4-19**]  09:31 AM
                             [**2191-4-19**]  11:29 AM
                             [**2191-4-19**]  04:55 PM
                             [**2191-4-19**]  06:20 PM
                             [**2191-4-20**]  04:33 AM
                             [**2191-4-20**]  06:24 AM
   WBC
   8.1
   8.8
   Hct
   23.3
   21.6
   Plt
   170
   145
   Cr
   2.1
   2.1
   2.1
   2.1
   TCO2
   42
   40
   42
   40
   41
   39
   Glucose
   108
   101
   101
   126
   Other labs: PT / PTT / INR:13.6/98.9/1.2, ALT / AST:14/18, Alk Phos / T
   Bili:86/0.2, Differential-Neuts:88.7 %, Band:1.0 %, Lymph:5.4 %,
   Mono:3.7 %, Eos:2.1 %, D-dimer:7914 ng/mL, Fibrinogen:474 mg/dL, Lactic
   Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Respiratory failure:  Peak pressures widely fluctuating, likely related
   to positioning of ETT.  To get T+G tomorrow
   DVT:  transient antiphospholipid antibody syndrome, on heparin drip
   fever:  Cultured, follow up cx, no empiric antibiotics currently
   anemia:  Hct down to 21, so will transfuse 1U
   TFs
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2191-4-19**] 12:30 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2191-4-2**] 07:52 PM
   PICC Line - [**2191-4-13**] 10:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: communication with sister
   [**Name (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2191-04-21 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2191-4-20**] 08:25 AM
 URINE CULTURE - At [**2191-4-20**] 08:25 AM
 SPUTUM CULTURE - At [**2191-4-20**] 08:44 AM
 BRONCHOSCOPY - At [**2191-4-20**] 03:05 PM
 FEVER - 101.5
F - [**2191-4-20**] 08:00 AM
   - FiO2 titrated back down to 55%
   - Bronch performed to reposition ET tube
   - Heparin drip titrated up and found to be therapeutic at 700 units/hr
   - Overnight had high PIPs; however, attributed to ET tube positioning
   and not related to desats. Patient repositioning attempted; however, no
   change in PIPs. Sedation appeared adequate at pulse an BP were within
   normal range.
   - Tube feeds were off at midnight
   - Heparin drip turned off at 0400 on [**4-21**]
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2191-4-20**] 12:04 PM
   Fentanyl - [**2191-4-21**] 04:25 AM
   Midazolam (Versed) - [**2191-4-21**] 04:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-21**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.3
C (99.1
   HR: 69 (65 - 112) bpm
   BP: 156/71(105) {129/60(84) - 161/80(114)} mmHg
   RR: 27 (25 - 41) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                  2,015 mL
                                                                    259 mL
   PO:
             TF:
                                                                    600 mL
   IVF:
                                                                    419 mL
                                                                    139 mL
   Blood products:
                                                                    276 mL
   Total out:
                                                                  2,235 mL
                                                                  1,320 mL
   Urine:
                                                                  2,035 mL
                                                                  1,320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -220 mL
                                                                 -1,061 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 55%
   PIP: 36 cmH2O
   SpO2: 92%
   ABG: 7.44/62/73.[**Numeric Identifier 252**]/38/14
   Ve: 6.9 L/min
   PaO2 / FiO2: 133
   Physical Examination
   GEN: Intubated, sedated, does not follow commands
   HEENT: PERRL. Anicteric. No pallor. No cervical LAD.
   CV: RR, nl S1, nl S2, No murmurs appreciated.
   PULM: Coarse breath sounds bilaterally anteriorly
   ABD: Soft. Non-distended. Not tympanic. Decreased bowel sounds.
   Superficial ecchymoses.
   EXT: Warm. Diffusely edematous
   NEURO: sedated, non-response, withdraws to painful stimuli
   Labs / Radiology
   143 K/uL
   8.4 g/dL
   109 mg/dL
   2.0 mg/dL
   38 mEq/L
   3.2 mEq/L
   41 mg/dL
   99 mEq/L
   145 mEq/L
   25.5 %
   8.8 K/uL
        [image002.jpg]
                             [**2191-4-19**]  03:09 AM
                             [**2191-4-19**]  05:08 AM
                             [**2191-4-19**]  09:31 AM
                             [**2191-4-19**]  11:29 AM
                             [**2191-4-19**]  04:55 PM
                             [**2191-4-19**]  06:20 PM
                             [**2191-4-20**]  04:33 AM
                             [**2191-4-20**]  06:24 AM
                             [**2191-4-20**]  04:54 PM
                             [**2191-4-21**]  04:27 AM
   WBC
   8.1
   8.8
   8.8
   Hct
   23.3
   21.6
   25.5
   Plt
   170
   145
   143
   Cr
   2.1
   2.1
   2.1
   2.0
   TCO2
   40
   42
   40
   41
   39
   43
   Glucose
   101
   101
   126
   109
   Other labs: PT / PTT / INR:14.3/118.9/1.2, ALT / AST:14/18, Alk Phos /
   T Bili:86/0.2, Differential-Neuts:88.7 %, Band:1.0 %, Lymph:5.4 %,
   Mono:3.7 %, Eos:2.1 %, D-dimer:7914 ng/mL, Fibrinogen:474 mg/dL, Lactic
   Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   62F with admission for pneumonia developing into ARDS. Sputum and BAL
   showing MRSA at this point.
   # Hypoxemic respiratory failure:
   ARDS in the setting of MRSA pneumonia. Possibility of other
   complicating factors; however, ANCA negative, [**Doctor First Name **] positive with titer
   only 1:80, HIV status unknown. Has completed steroid taper. Drip
   sedation has been liberated and patient now doing well on bolus
   fentanyl and midazolam. Surveillance sputum culture from [**2191-4-8**] and
   [**2191-4-10**] with rare MRSA growth. Completed course of Vancomycin. IP
   planning for trach and PEG on [**2191-4-21**] if vent settings (FiO2 and
   PEEP) are low enough to allow. Has ongoing diuresis with stable Cr.
   Aside from desaturation last night requiring increase in FiO2 to 70%,
   patient had been doing well at reduced vent settings. During
   bronchoscopy on [**2191-4-19**] was discovered that patient had tip of ET
   tube against tracheal wall. This appeared to contribute to high peak
   inspiratory pressures and thus ET tube was repositioned.
   - weaned well to back to 55%FiO2 in anticipation of trach/peg today.
   - Continue fentanyl patch at 200mcg/hr
   - Continue methadone and diazepam (PO route)
   - Bolus fentanyl and midazolam as needed
   - Remain off  fentanyl and midazolam drips
   - Heparin/tube feeds off for trach peg today
   - lasix for diuresis, goal net negative 1 litre.
   # Fever:
   Spike to 101.5 this AM is first temperature spike since hospitalized in
   ICU here. Urine, blood, sputum, stool cultures sent. Concern for
   hospital-acquired infection. No evidence of skin breakdown.
   - Follow-up pending cultures, no antibiotics at this time.
   # DVT:
   Found to have L-IJ clot extending into subclavian. The line was removed
   however, the patient
s PTT was elevated initially without systemic
   anticoagulation.  Unclear if this rise in PTT is due only to heparin
   SC, however patient had previously normal PTT on this admission so
   unlikely to have suddenly developed a deficiency in a clotting factor
   unless poor nutritional status is now contributing. Currently unknown
   if PTT represents anticoagulation vs. hypercoaguable state. ACA
   antibodies, IgG positive, IgM negative. Heme consulted and given lupus
   anticoagulant positive and low heparin level, patient is likely not
   anticoagulated and PTT cannot be used to follow heparin. Heparin drip
   was begun on [**2191-4-19**] with STAT unfractionated heparin levels being
   used to titrate heparin drip.
   - Heparin drip off currently but will need to be titrated to
   unfractionated heparin level (therapeutic 0.3-0.7) (ordered STAT and
   takes 4 hours to return) when turned back on after trach/peg
   # [**Last Name (un) **]:
   Thought to originally be attributed to ATN. Resolving with Cr stable at
   2.1 today with continued diuresis.
   - follow lytes and I/O balance, net goal negative.
   - free water flushes at 150cc q4
   # Constipation:  Currently stooling.
   - Continue lactulose PO and PR as needed
   - If lactulose fails, could consider PO narcan to relieve constipation
   #Anemia:
   HCT slowly downtrending to 21.6 today. Stool is guaiac negative. Likely
   all related to phlebotomy.  Transfused 1unit PRBC on [**4-20**] for slowly
   downward drifting HCT.
   - Minimize phlebotomy
   - Continue to trend
   # Hypotension/Hypertension:
   Currently stable with systolics in 120s
 150s when sedation managed.
   Allowing for some permission hypertension for renal perfusion; however,
   will consider tighter control.
   - Continue to monitor
   - cont diltiazem to 60mg qid
   FEN: TF off
   Prophylaxis: Pneumoboots/heparin off, PPI, bowel regimen
   Access:  PICC, aline
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2191-4-2**] 07:52 PM
   PICC Line - [**2191-4-13**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-04-21 12:12:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 yo women with ARDS secondary to MRSA pna.  Stable overnight, for T+G
   today  Febrile.
   24 Hour Events:
 BLOOD CULTURED - At [**2191-4-20**] 08:25 AM
 URINE CULTURE - At [**2191-4-20**] 08:25 AM
 SPUTUM CULTURE - At [**2191-4-20**] 08:44 AM
 BRONCHOSCOPY - At [**2191-4-20**] 03:05 PM
 FEVER - 101.5
F - [**2191-4-20**] 08:00 AM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2191-4-20**] 12:04 PM
   Midazolam (Versed) - [**2191-4-21**] 07:00 AM
   Fentanyl - [**2191-4-21**] 10:01 AM
   Other medications:
   protonix
   lipitor
   docusate
   levoxyl
   chlorhex
   SSI
   valium
   senna
   methadone
   diltiazem
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-21**] 12:12 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (99
   HR: 90 (65 - 115) bpm
   BP: 148/74(104) {129/60(84) - 162/87(118)} mmHg
   RR: 26 (25 - 41) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                  2,015 mL
                                                                    397 mL
   PO:
             TF:
                                                                    600 mL
   IVF:
                                                                    419 mL
                                                                    247 mL
   Blood products:
                                                                    276 mL
   Total out:
                                                                  2,235 mL
                                                                  1,725 mL
   Urine:
                                                                  2,035 mL
                                                                  1,725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -220 mL
                                                                 -1,328 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 55%
   PIP: 53 cmH2O
   SpO2: 97%
   ABG: 7.46/57/69/38/13
   Ve: 6.8 L/min
   PaO2 / FiO2: 125
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : coarse b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, follows some commands
   Labs / Radiology
   8.4 g/dL
   143 K/uL
   109 mg/dL
   2.0 mg/dL
   38 mEq/L
   3.2 mEq/L
   41 mg/dL
   99 mEq/L
   145 mEq/L
   25.5 %
   8.8 K/uL
        [image002.jpg]
                             [**2191-4-19**]  05:08 AM
                             [**2191-4-19**]  09:31 AM
                             [**2191-4-19**]  11:29 AM
                             [**2191-4-19**]  04:55 PM
                             [**2191-4-19**]  06:20 PM
                             [**2191-4-20**]  04:33 AM
                             [**2191-4-20**]  06:24 AM
                             [**2191-4-20**]  04:54 PM
                             [**2191-4-21**]  04:27 AM
                             [**2191-4-21**]  11:22 AM
   WBC
   8.8
   8.8
   Hct
   21.6
   25.5
   Plt
   145
   143
   Cr
   2.1
   2.1
   2.0
   TCO2
   40
   42
   40
   41
   39
   43
   42
   Glucose
   101
   126
   109
   Other labs: PT / PTT / INR:14.3/118.9/1.2, ALT / AST:14/18, Alk Phos /
   T Bili:86/0.2, Differential-Neuts:88.7 %, Band:1.0 %, Lymph:5.4 %,
   Mono:3.7 %, Eos:2.1 %, D-dimer:7914 ng/mL, Fibrinogen:474 mg/dL, Lactic
   Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Microbiology: sputum for [**4-20**] yeast and MRSA
   Assessment and Plan
   Respiratory failure:  ARDS, MRSA PNA.  To get trach today.  Peak
   pressures high likely related to tortuous trachea and tube position
   Fevers:  follow cx.  Possible source includes new PNA, although no new
   infiltrates, no increased sputum, and no leukocytosis.  will follow
   Lupus anticoag:  on heparin after trach
   acute renal failure:  Creatinine stable.  Continue diuresis
   afib: on dilt
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2191-4-2**] 07:52 PM
   PICC Line - [**2191-4-13**] 10:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2191-04-22 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Trach and PEG at bedside in evening. Got Portex, and has had elevated
   peaks since then. Was a difficult procedure per thoracics
   - ABG this morning was 7.43/59/52 with high peak and FiO2 was increased
   to 80%
   - Ok to start tube feeds tonight around 10pm.
 PERCUTANEOUS TRACHEOSTOMY - At [**2191-4-21**] 10:14 PM
   Surgery, anesthesia at bedside performing trach
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Fentanyl - [**2191-4-21**] 03:09 PM
   Midazolam (Versed) - [**2191-4-21**] 10:00 PM
   Labetalol - [**2191-4-22**] 03:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-22**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 83 (64 - 115) bpm
   BP: 171/83(115) {123/62(84) - 173/94(130)} mmHg
   RR: 28 (23 - 51) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                    612 mL
                                                                    212 mL
   PO:
             TF:
   IVF:
                                                                    372 mL
                                                                    152 mL
   Blood products:
   Total out:
                                                                  2,480 mL
                                                                    600 mL
   Urine:
                                                                  2,480 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,868 mL
                                                                   -388 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 80%
   RSBI Deferred: Unstable Airway, Agitated
   PIP: 39 cmH2O
   SpO2: 94%
   ABG: 7.43/59/52/35/11
   Ve: 7.9 L/min
   PaO2 / FiO2: 65
   Physical Examination
   GEN: Intubated, sedated, does not follow commands
   HEENT: PERRL. Anicteric. No pallor. No cervical LAD.
   CV: RR, nl S1, nl S2, No murmurs appreciated.
   PULM: Coarse breath sounds bilaterally anteriorly
   ABD: Soft. Non-distended. Not tympanic. Decreased bowel sounds.
   Superficial ecchymoses.
   EXT: Warm. Diffusely edematous
   NEURO: sedated, non-response, withdraws to painful stimuli
   Labs / Radiology
   156 K/uL
   8.3 g/dL
   86 mg/dL
   1.8 mg/dL
   35 mEq/L
   4.1 mEq/L
   36 mg/dL
   101 mEq/L
   143 mEq/L
   25.6 %
   8.6 K/uL
        [image002.jpg]
                             [**2191-4-19**]  04:55 PM
                             [**2191-4-19**]  06:20 PM
                             [**2191-4-20**]  04:33 AM
                             [**2191-4-20**]  06:24 AM
                             [**2191-4-20**]  04:54 PM
                             [**2191-4-21**]  04:27 AM
                             [**2191-4-21**]  11:22 AM
                             [**2191-4-21**]  05:41 PM
                             [**2191-4-22**]  03:20 AM
                             [**2191-4-22**]  06:37 AM
   WBC
   8.8
   8.8
   8.6
   Hct
   21.6
   25.5
   25.6
   Plt
   145
   143
   156
   Cr
   2.1
   2.1
   2.0
   1.9
   1.8
   TCO2
   41
   39
   43
   42
   40
   Glucose
   101
   126
   109
   96
   86
   Other labs: PT / PTT / INR:14.6/67.0/1.3, ALT / AST:14/18, Alk Phos / T
   Bili:86/0.2, Differential-Neuts:88.7 %, Band:1.0 %, Lymph:5.4 %,
   Mono:3.7 %, Eos:2.1 %, D-dimer:7914 ng/mL, Fibrinogen:474 mg/dL, Lactic
   Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   62F with admission for pneumonia developing into ARDS. Sputum and BAL
   showing MRSA at this point.
   # Hypoxemic respiratory failure:
   ARDS in the setting of MRSA pneumonia. Possibility of other
   complicating factors; however, ANCA negative, [**Doctor First Name **] positive with titer
   only 1:80, HIV status unknown. Has completed steroid taper. Drip
   sedation has been liberated and patient now doing well on bolus
   fentanyl and midazolam. Surveillance sputum culture from [**2191-4-8**] and
   [**2191-4-10**] with rare MRSA growth. Completed course of Vancomycin. IP
   planning for trach and PEG on [**2191-4-21**] if vent settings (FiO2 and
   PEEP) are low enough to allow. Has ongoing diuresis with stable Cr.
   Aside from desaturation last night requiring increase in FiO2 to 70%,
   patient had been doing well at reduced vent settings. During
   bronchoscopy on [**2191-4-19**] was discovered that patient had tip of ET
   tube against tracheal wall. This appeared to contribute to high peak
   inspiratory pressures and thus ET tube was repositioned.
   - weaned well to back to 55%FiO2 in anticipation of trach/peg today.
   - Continue fentanyl patch at 200mcg/hr
   - Continue methadone and diazepam (PO route)
   - Bolus fentanyl and midazolam as needed
   - Remain off  fentanyl and midazolam drips
   - Heparin/tube feeds off for trach peg today
   - lasix for diuresis, goal net negative 1 litre.
   # Fever:
   Spike to 101.5 this AM is first temperature spike since hospitalized in
   ICU here. Urine, blood, sputum, stool cultures sent. Concern for
   hospital-acquired infection. No evidence of skin breakdown.
   - Follow-up pending cultures, no antibiotics at this time.
   # DVT:
   Found to have L-IJ clot extending into subclavian. The line was removed
   however, the patient
s PTT was elevated initially without systemic
   anticoagulation.  Unclear if this rise in PTT is due only to heparin
   SC, however patient had previously normal PTT on this admission so
   unlikely to have suddenly developed a deficiency in a clotting factor
   unless poor nutritional status is now contributing. Currently unknown
   if PTT represents anticoagulation vs. hypercoaguable state. ACA
   antibodies, IgG positive, IgM negative. Heme consulted and given lupus
   anticoagulant positive and low heparin level, patient is likely not
   anticoagulated and PTT cannot be used to follow heparin. Heparin drip
   was begun on [**2191-4-19**] with STAT unfractionated heparin levels being
   used to titrate heparin drip.
   - Heparin drip off currently but will need to be titrated to
   unfractionated heparin level (therapeutic 0.3-0.7) (ordered STAT and
   takes 4 hours to return) when turned back on after trach/peg
   # [**Last Name (un) **]:
   Thought to originally be attributed to ATN. Resolving with Cr stable at
   2.1 today with continued diuresis.
   - follow lytes and I/O balance, net goal negative.
   - free water flushes at 150cc q4
   # Constipation:  Currently stooling.
   - Continue lactulose PO and PR as needed
   - If lactulose fails, could consider PO narcan to relieve constipation
   #Anemia:
   HCT slowly downtrending to 21.6 today. Stool is guaiac negative. Likely
   all related to phlebotomy.  Transfused 1unit PRBC on [**4-20**] for slowly
   downward drifting HCT.
   - Minimize phlebotomy
   - Continue to trend
   # Hypotension/Hypertension:
   Currently stable with systolics in 120s
 150s when sedation managed.
   Allowing for some permission hypertension for renal perfusion; however,
   will consider tighter control.
   - Continue to monitor
   - cont diltiazem to 60mg qid
   FEN: TF off
   Prophylaxis: Pneumoboots/heparin off, PPI, bowel regimen
   Access:  PICC, aline
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2191-4-2**] 07:52 PM
   PICC Line - [**2191-4-13**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-04-22 08:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 yo women with PNA/ARDS s/p trach an PEG yesterday
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2191-4-21**] 10:14 PM
   Surgery, anesthesia at bedside performing trach
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Fentanyl - [**2191-4-21**] 03:09 PM
   Midazolam (Versed) - [**2191-4-21**] 10:00 PM
   Labetalol - [**2191-4-22**] 03:54 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-22**] 08:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.5
C (99.5
   HR: 77 (64 - 115) bpm
   BP: 166/81(112) {123/62(84) - 173/94(130)} mmHg
   RR: 26 (23 - 51) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                    610 mL
                                                                    237 mL
   PO:
             TF:
   IVF:
                                                                    370 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                  2,480 mL
                                                                    600 mL
   Urine:
                                                                  2,480 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,870 mL
                                                                   -363 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+/PSV
   Vt (Set): 300 (300 - 300) mL
   PS : 18 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 80%
   RSBI Deferred: Unstable Airway, Agitated
   PIP: 41 cmH2O
   SpO2: 100%
   ABG: 7.43/59/52/35/11
   Ve: 7.5 L/min
   PaO2 / FiO2: 65
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   156 K/uL
   86 mg/dL
   1.8 mg/dL
   35 mEq/L
   4.1 mEq/L
   36 mg/dL
   101 mEq/L
   143 mEq/L
   25.6 %
   8.6 K/uL
        [image002.jpg]
                             [**2191-4-19**]  04:55 PM
                             [**2191-4-19**]  06:20 PM
                             [**2191-4-20**]  04:33 AM
                             [**2191-4-20**]  06:24 AM
                             [**2191-4-20**]  04:54 PM
                             [**2191-4-21**]  04:27 AM
                             [**2191-4-21**]  11:22 AM
                             [**2191-4-21**]  05:41 PM
                             [**2191-4-22**]  03:20 AM
                             [**2191-4-22**]  06:37 AM
   WBC
   8.8
   8.8
   8.6
   Hct
   21.6
   25.5
   25.6
   Plt
   145
   143
   156
   Cr
   2.1
   2.1
   2.0
   1.9
   1.8
   TCO2
   41
   39
   43
   42
   40
   Glucose
   101
   126
   109
   96
   86
   Other labs: PT / PTT / INR:14.6/67.0/1.3, ALT / AST:14/18, Alk Phos / T
   Bili:86/0.2, Differential-Neuts:88.7 %, Band:1.0 %, Lymph:5.4 %,
   Mono:3.7 %, Eos:2.1 %, D-dimer:7914 ng/mL, Fibrinogen:474 mg/dL, Lactic
   Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Respiratory failure:  Will try to wean sedation back off and treat only
   with bolus sedation.  Continue PO meds.  Will resume trying to wean
   once
   awake.    Will take a look with a bronchoscope to confirm trach tube
   positioning.
   fevers:  no further fever
   left IJ clot:  continue back heparin
   acute renal failure:  improving creatinine
   anemia:  hct stable
   HTN:  may need to start antihypertensives
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2191-4-2**] 07:52 PM
   PICC Line - [**2191-4-13**] 10:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2191-04-23 07:28:00 Physician Resident Progress Note
Chief Complaint: ARDS
   24 Hour Events:
   - Heme recs if cr improves can do lovenox, anticoag x1m, rpt u/s and LA
   1 month, if still + rpt LA in 12wks. sign off.
   - Trach site with onset of oozing during afternoon, hep gtt turned
   off.
   - Thoracics eval, recs cont d/c hep gtt x 36hrs (heparin drip off at
   1600 on [**2191-4-22**])
   - Continued high PIP, no change in resp mechanics with PEEP to 10, put
   back to PEEP 5.  O2 weaned down.
   - Tube feeds restarted at midnight
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2191-4-22**] 04:54 PM
   Pantoprazole (Protonix) - [**2191-4-22**] 08:00 PM
   Midazolam (Versed) - [**2191-4-22**] 10:45 PM
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-23**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98
   HR: 72 (68 - 116) bpm
   BP: 155/70(100) {137/66(93) - 168/101(118)} mmHg
   RR: 35 (20 - 45) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
                  Total In:
                                                                  1,079 mL
                                                                    496 mL
   PO:
                  TF:
                  96 mL
   IVF:
                                                                    319 mL
   Blood products:
   Total out:
                                                                  2,345 mL
                                                                    420 mL
   Urine:
                                                                  2,345 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,266 mL
                                                                     76 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+/PSV
   Vt (Spontaneous): 295 (281 - 320) mL
   PS : 18 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI Deferred: FiO2 > 60%
   PIP: 40 cmH2O
   SpO2: 97%
   ABG: 7.43/60/70/37/12
   Ve: 6.7 L/min
   PaO2 / FiO2: 100
   Physical Examination
   GEN: Intubated, sedated, does not follow commands
   HEENT: PERRL. Anicteric. No pallor. No cervical LAD. Trach in place
   CV: RR, nl S1, nl S2, No murmurs appreciated.
   PULM: Coarse breath sounds bilaterally anteriorly
   ABD: Soft. Non-distended. Not tympanic. Decreased bowel sounds.
   Superficial ecchymoses. PEG tube in place.
   EXT: Warm. Diffusely edematous
   NEURO: sedated, non-response, withdraws to painful stimuli
   Labs / Radiology
   160 K/uL
   8.4 g/dL
   116 mg/dL
   1.8 mg/dL
   37 mEq/L
   3.4 mEq/L
   29 mg/dL
   100 mEq/L
   143 mEq/L
   25.1 %
   8.6 K/uL
        [image002.jpg]
                             [**2191-4-21**]  11:22 AM
                             [**2191-4-21**]  05:41 PM
                             [**2191-4-22**]  03:20 AM
                             [**2191-4-22**]  06:37 AM
                             [**2191-4-22**]  09:26 AM
                             [**2191-4-22**]  02:08 PM
                             [**2191-4-22**]  04:40 PM
                             [**2191-4-22**]  07:18 PM
                             [**2191-4-23**]  04:18 AM
                             [**2191-4-23**]  04:37 AM
   WBC
   8.6
   8.6
   Hct
   25.6
   27
   25.1
   Plt
   156
   160
   Cr
   1.9
   1.8
   1.8
   TCO2
   42
   40
   40
   39
   42
   42
   42
   Glucose
   96
   86
   116
   Other labs: PT / PTT / INR:14.4/57.5/1.3, ALT / AST:14/18, Alk Phos / T
   Bili:86/0.2, Differential-Neuts:88.7 %, Band:1.0 %, Lymph:5.4 %,
   Mono:3.7 %, Eos:2.1 %, D-dimer:7914 ng/mL, Fibrinogen:474 mg/dL, Lactic
   Acid:0.5 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   MICRO:
   [**2191-4-20**]  BLOOD CULTURE Blood Culture, Routine-PENDING NGTD
   [**2191-4-20**]  RESPIRATORY CULTURE-PRELIMINARY {STAPH AUREUS COAG +}
   SPARSE GROWTH
   [**2191-4-20**]  BLOOD CULTURE Blood Culture, Routine-PENDING NGTD
   Assessment and Plan
   62F with admission for pneumonia developing into ARDS. Sputum and BAL
   showing MRSA at this point.
   # Hypoxemic respiratory failure:
   ARDS in the setting of MRSA pneumonia. Possibility of other
   complicating factors; however, ANCA negative, [**Doctor First Name **] positive with titer
   only 1:80, HIV status unknown. Has completed steroid taper. Drip
   sedation has been liberated and patient now doing well on bolus
   fentanyl and midazolam. Surveillance sputum culture from [**2191-4-8**] and
   [**2191-4-10**] with rare MRSA growth. Completed course of Vancomycin.
   Received trach and PEG on [**2191-4-21**]. Has ongoing diuresis with
   improving Cr. Aside from desaturation last night requiring increase in
   FiO2 to 80%, patient had been doing well. During bronchoscopy on
   [**2191-4-19**] was discovered that patient had tip of ET tube against
   tracheal wall. This appeared to contribute to high peak inspiratory
   pressures and thus ET tube was repositioned.
   - Continue fentanyl patch at 200mcg/hr
   - Continue methadone and diazepam (PO route)
   - Bolus fentanyl and midazolam as needed
   - discontinue fentanyl and midazolam drips (these were started at the
   time of the trach and PEG)
   - lasix for diuresis, goal net negative 1 litre.
   # Fever:
   Spike to 101.5 two days age and was first temperature spike since
   hospitalized in ICU here. Urine, blood, sputum, stool cultures sent.
   Concern for hospital-acquired infection. No evidence of skin breakdown.
   - Follow-up pending cultures, no antibiotics at this time.
   # DVT:
   Found to have L-IJ clot extending into subclavian. The line was removed
   however, the patient
s PTT was elevated initially without systemic
   anticoagulation.  Initially unclear if this rise in PTT is due only to
   heparin SC, however patient had previously normal PTT on this
   admission. Heme consulted and given lupus anticoagulant positive and
   low heparin level, patient was likely not anticoagulated and PTT cannot
   be used to follow heparin. Heparin drip was begun on [**2191-4-19**] with
   STAT unfractionated heparin levels being used to titrate heparin drip.
   - Heparin drip off for the procedure last night but is now restarted
   and will need to be titrated to unfractionated heparin level
   (therapeutic 0.3-0.7) (ordered STAT and takes 4 hours to return)
   # [**Last Name (un) **]:
   Thought to originally be attributed to ATN. Resolving with Cr improving
   again today with continued diuresis.
   - follow lytes and I/O balance, net goal negative.
   - free water flushes at 150cc q4
   # Constipation:  Currently stooling.
   - Continue lactulose PO and PR as needed
   - If lactulose fails, could consider PO narcan to relieve constipation
   #Anemia:
   HCT slowly downtrended to 21.6. Stool is guaiac negative. Likely all
   related to phlebotomy.  Transfused 1unit PRBC on [**4-20**] for slowly
   downward drifting HCT and has been stable since
   - Minimize phlebotomy
   - Continue to trend
   # Hypotension/Hypertension:
   Currently stable with systolics in 120s
 150s when sedation managed.
   Allowing for some permission hypertension for renal perfusion; however,
   will consider tighter control.
   - Continue to monitor
   - cont diltiazem to 60mg qid
   ICU Care
   Nutrition: Novasource Renal Full strength; Additives: Beneprotein, 15
   gm/day. Goal rate: 25 ml/hr
   Glycemic Control:
   Lines:
   Arterial Line - [**2191-4-2**] 07:52 PM
   PICC Line - [**2191-4-13**] 10:30 AM
   Prophylaxis:
   DVT: Heparin drip on hold, pneumoboots
   Stress ulcer: PPI
   VAP:  Vent bundle
   Communication:  Sister
   [**Name (NI) 156**] status: Full code
   Disposition: ICU for now, will need to be off drips before can consider
   long-term facility

2191-04-23 09:15:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Pneumonia, ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - oozing around trache site - herparin drip held
   History obtained from Medical records
   Patient unable to provide history: Sedated, trached
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2191-4-22**] 04:54 PM
   Pantoprazole (Protonix) - [**2191-4-22**] 08:00 PM
   Midazolam (Versed) - [**2191-4-22**] 10:45 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-23**] 09:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.6
C (97.9
   HR: 71 (68 - 116) bpm
   BP: 153/69(97) {137/66(93) - 168/101(118)} mmHg
   RR: 34 (20 - 45) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
                  Total In:
                                                                  1,079 mL
                                                                    733 mL
   PO:
                  TF:
                  133 mL
   IVF:
                                                                    319 mL
   Blood products:
   Total out:
                                                                  2,345 mL
                                                                    540 mL
   Urine:
                                                                  2,345 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,266 mL
                                                                    193 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+/PSV
   Vt (Spontaneous): 324 (281 - 324) mL
   PS : 18 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI Deferred: FiO2 > 60%
   PIP: 40 cmH2O
   SpO2: 98%
   ABG: 7.43/60/70/37/12
   Ve: 6.6 L/min
   PaO2 / FiO2: 100
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, trache tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : anterior)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   160 K/uL
   116 mg/dL
   1.8 mg/dL
   37 mEq/L
   3.4 mEq/L
   29 mg/dL
   100 mEq/L
   143 mEq/L
   25.1 %
   8.6 K/uL
        [image002.jpg]
                             [**2191-4-21**]  11:22 AM
                             [**2191-4-21**]  05:41 PM
                             [**2191-4-22**]  03:20 AM
                             [**2191-4-22**]  06:37 AM
                             [**2191-4-22**]  09:26 AM
                             [**2191-4-22**]  02:08 PM
                             [**2191-4-22**]  04:40 PM
                             [**2191-4-22**]  07:18 PM
                             [**2191-4-23**]  04:18 AM
                             [**2191-4-23**]  04:37 AM
   WBC
   8.6
   8.6
   Hct
   25.6
   27
   25.1
   Plt
   156
   160
   Cr
   1.9
   1.8
   1.8
   TCO2
   42
   40
   40
   39
   42
   42
   42
   Glucose
   96
   86
   116
   Other labs: PT / PTT / INR:14.4/57.5/1.3, ALT / AST:14/18, Alk Phos / T
   Bili:86/0.2, Differential-Neuts:88.7 %, Band:1.0 %, Lymph:5.4 %,
   Mono:3.7 %, Eos:2.1 %, D-dimer:7914 ng/mL, Fibrinogen:474 mg/dL, Lactic
   Acid:0.5 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Assessment and Plan
   Respiratory failure:
   -PNA -> ARDS
   - s/p trache
   - still with poor compliance
   Mental status
   -cont wean sedation
   Anemia
   -phlebotomy
   -heme negative previously.  recheck guiac
   Fevers:
   -afeb again
   left IJ clot
   - heparin on hold sec bleeding around trache
   acute renal failure:
   - improving creatinine
   Remainder of plan per resident note
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2191-4-23**] 01:40 AM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2191-4-2**] 07:52 PM
   PICC Line - [**2191-4-13**] 10:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 40 minutes
   Patient is critically ill

2191-04-24 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient remained on pressure control with FiO2 of 70% and inability
   to titrate down
   - Had PEEP increase from 5 to 8 due to ABG with pO2 of 56 this morning
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2191-4-23**] 05:00 PM
   Fentanyl - [**2191-4-23**] 05:47 PM
   Midazolam (Versed) - [**2191-4-23**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-24**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.1
   HR: 74 (71 - 105) bpm
   BP: 143/63(90) {127/63(90) - 161/84(115)} mmHg
   RR: 26 (19 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                  1,769 mL
                                                                    672 mL
   PO:
             TF:
                                                                    509 mL
                                                                    185 mL
   IVF:
                                                                    180 mL
                                                                     98 mL
   Blood products:
   Total out:
                                                                  2,690 mL
                                                                    710 mL
   Urine:
                                                                  2,650 mL
                                                                    510 mL
   NG:
                                                                     40 mL
   Stool:
   Drains:
   Balance:
                                                                   -921 mL
                                                                    -38 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+/PSV
   Vt (Spontaneous): 364 (324 - 364) mL
   PS : 18 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 70%
   PIP: 41 cmH2O
   Plateau: 35 cmH2O
   SpO2: 97%
   ABG: 7.47/57/56/38/14
   Ve: 7.1 L/min
   PaO2 / FiO2: 80
   Physical Examination
   GEN: Intubated, sedated, does not follow commands
   HEENT: PERRL. Anicteric. No pallor. No cervical LAD. Trach in place
   CV: RR, nl S1, nl S2, No murmurs appreciated.
   PULM: Coarse breath sounds bilaterally anteriorly
   ABD: Soft. Non-distended. Not tympanic. Decreased bowel sounds.
   Superficial ecchymoses. PEG tube in place.
   EXT: Warm. Diffusely edematous
   NEURO: sedated, non-response, withdraws to painful stimuli
   Labs / Radiology
   192 K/uL
   7.9 g/dL
   131 mg/dL
   1.7 mg/dL
   38 mEq/L
   3.4 mEq/L
   27 mg/dL
   96 mEq/L
   141 mEq/L
   23.3 %
   8.2 K/uL
        [image002.jpg]
                             [**2191-4-22**]  09:26 AM
                             [**2191-4-22**]  02:08 PM
                             [**2191-4-22**]  04:40 PM
                             [**2191-4-22**]  07:18 PM
                             [**2191-4-23**]  04:18 AM
                             [**2191-4-23**]  04:37 AM
                             [**2191-4-23**]  11:14 AM
                             [**2191-4-23**]  06:52 PM
                             [**2191-4-24**]  02:57 AM
                             [**2191-4-24**]  04:57 AM
   WBC
   8.6
   8.2
   Hct
   27
   25.1
   23.3
   Plt
   160
   192
   Cr
   1.8
   1.7
   TCO2
   40
   39
   42
   42
   42
   44
   44
   43
   Glucose
   116
   131
   Other labs: PT / PTT / INR:14.1/53.2/1.2, ALT / AST:14/18, Alk Phos / T
   Bili:86/0.2, Differential-Neuts:88.7 %, Band:1.0 %, Lymph:5.4 %,
   Mono:3.7 %, Eos:2.1 %, D-dimer:7914 ng/mL, Fibrinogen:474 mg/dL, Lactic
   Acid:0.5 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   62F with admission for pneumonia developing into ARDS. Sputum and BAL
   showing MRSA at this point.
   # Hypoxemic respiratory failure:
   ARDS in the setting of MRSA pneumonia. Possibility of other
   complicating factors; however, ANCA negative, [**Doctor First Name **] positive with titer
   only 1:80, HIV status unknown. Has completed steroid taper. Drip
   sedation has been liberated and patient now doing well on bolus
   fentanyl and midazolam. Surveillance sputum culture from [**2191-4-8**] and
   [**2191-4-10**] with rare MRSA growth. Completed course of Vancomycin. Sputum
   culture from [**2191-4-20**] with sparse MRSA, thought to be related to
   colonization. Received trach and PEG on [**2191-4-21**].
   - Continue fentanyl patch at 200mcg/hr
   - Continue methadone and diazepam (PO route), will attempt to wean
   methadone today to 30mg IV q4
   - Bolus fentanyl and midazolam as needed
   - cont diuresis, goal net negative to even
   # Fever:
   Spike to 101.5 on [**4-20**] and was first temperature spike since
   hospitalized in ICU here. Afebrile since. Urine, blood, sputum, stool
   cultures sent. Urine was negative. Blood no growth and pending. Stool
   was c.diff negative. Sputum with MRSA, but thought to be colonization
   at this point.
   - Follow-up pending blood cultures.
   - If spikes again or has increased secretions, will treat for PNA
   # DVT:
   Found to have L-IJ clot extending into subclavian. The line was removed
   however; the patient
s PTT was elevated initially without systemic
   anticoagulation.  Initially unclear if this rise in PTT is due only to
   heparin SC, however patient had previously normal PTT on this
   admission. Lupus anticoag was found to be positive and Heme consult was
   obtained and feels that patient has a transient positive lupus
   anticoagulant. Any PTT elevation is thought to be unreliable in
   determining patient
s anti-coag status. Heparin drip was begun on
   [**2191-4-19**] with STAT unfractionated heparin levels being used to titrate
   heparin drip. Is now on hold for heparin drip due to oozing of blood
   around trach site and will be restarted on morning of [**2191-4-24**].
   - Heparin drip to be restarted on morning of [**2191-4-24**] and will need to
   be titrated to unfractionated heparin level (therapeutic 0.3-0.7)
   (ordered STAT and takes 4 hours to return)
   - Will manage anticoagulation with enoxaparin once renal function
   allows
   - Patient should have repeat LUE ultrasound as well as lupus
   anticoagulant (LA) in one month and if LA remains positive will need
   recheck in 12 weeks
   # [**Last Name (un) **]:
   Thought to originally be attributed to ATN. Resolving with Cr improving
   to 1.7 today.
   - [**Last Name (un) **] Cr
   # Constipation:
   Currently stooling.
   - Continue lactulose PO and PR as needed
   - If lactulose fails, could consider PO narcan to relieve constipation
   #Anemia:
   HCT is 23.3 today. Stool is guaiac negative. Likely all related to
   phlebotomy.  Transfused 1unit PRBC on [**4-20**] for slowly downward drifting
   HCT and has been stable since.
   - Minimize phlebotomy
   - Continue to [**Last Name (LF) 1940**], [**First Name3 (LF) 124**] hold off on transfusion today
   # Hypotension/Hypertension:
   Currently stable with systolics in 120s
 150s when sedation managed.
   - Continue to monitor
   - cont diltiazem to 60mg qid
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2191-4-24**] 12:00 AM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2191-4-2**] 07:52 PM
   PICC Line - [**2191-4-13**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-04-24 10:57:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Pneumonia, ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - PEEP inc 5 to 8
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Fentanyl - [**2191-4-23**] 05:47 PM
   Midazolam (Versed) - [**2191-4-23**] 11:30 PM
   Furosemide (Lasix) - [**2191-4-24**] 08:53 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-24**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 75 (69 - 105) bpm
   BP: 124/61(83) {124/59(83) - 161/80(110)} mmHg
   RR: 24 (19 - 39) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                  1,769 mL
                                                                  1,006 mL
   PO:
             TF:
                                                                    509 mL
                                                                    264 mL
   IVF:
                                                                    180 mL
                                                                    152 mL
   Blood products:
   Total out:
                                                                  2,690 mL
                                                                    850 mL
   Urine:
                                                                  2,650 mL
                                                                    650 mL
   NG:
                                                                     40 mL
   Stool:
   Drains:
   Balance:
                                                                   -921 mL
                                                                    156 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+/PSV
   Vt (Spontaneous): 357 (357 - 364) mL
   PS : 18 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 70%
   PIP: 40 cmH2O
   Plateau: 35 cmH2O
   SpO2: 93%
   ABG: 7.42/70/98.[**Numeric Identifier 20**]/38/16
   Ve: 7.8 L/min
   PaO2 / FiO2: 140
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, trache
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Not assessed, Sedated, Tone: Not
   assessed
   Labs / Radiology
   7.9 g/dL
   192 K/uL
   131 mg/dL
   1.7 mg/dL
   38 mEq/L
   3.4 mEq/L
   27 mg/dL
   96 mEq/L
   141 mEq/L
   23.3 %
   8.2 K/uL
        [image002.jpg]
                             [**2191-4-22**]  02:08 PM
                             [**2191-4-22**]  04:40 PM
                             [**2191-4-22**]  07:18 PM
                             [**2191-4-23**]  04:18 AM
                             [**2191-4-23**]  04:37 AM
                             [**2191-4-23**]  11:14 AM
                             [**2191-4-23**]  06:52 PM
                             [**2191-4-24**]  02:57 AM
                             [**2191-4-24**]  04:57 AM
                             [**2191-4-24**]  10:19 AM
   WBC
   8.6
   8.2
   Hct
   27
   25.1
   23.3
   Plt
   160
   192
   Cr
   1.8
   1.7
   TCO2
   39
   42
   42
   42
   44
   44
   43
   47
   Glucose
   116
   131
   Other labs: PT / PTT / INR:14.1/53.2/1.2, ALT / AST:14/18, Alk Phos / T
   Bili:86/0.2, Differential-Neuts:88.7 %, Band:1.0 %, Lymph:5.4 %,
   Mono:3.7 %, Eos:2.1 %, D-dimer:7914 ng/mL, Fibrinogen:474 mg/dL, Lactic
   Acid:0.5 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Respiratory failure:
   -PNA -> ARDS
   - s/p trache
   - still with poor compliance
   - back up to 8 PEEP today from 5 yesterday
   Mental status
   -cont wean sedation
   Anemia
   -cont to drift downward
   - ? phlebotomy
   -stool guiac negative
   Fevers:
   -afeb x 2 days
   -cx remain negative other than MRSA in sputum, sig polys but min sputum
   on sxn so monitor for now
   left IJ clot
   - heparin on hold sec bleeding around trache
   acute renal failure:
   - improving creatinine
   Remainder of plan per resident note
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2191-4-24**] 12:00 AM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2191-4-2**] 07:52 PM
   PICC Line - [**2191-4-13**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2191-04-25 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Decreased sedation (methadone down to 30mg q4 from 40mg q4)
   - Patient became more alerted and would blink eyes to command
   - Switch to pressure support
   - Had temp to 101.1 and tachycardia and hypertension, got blood and
   urine culture. Did not have increased secretions and is known colonizer
   of MRSA so did not get repeat sputum.
   ROS:
   Unable to obtain due to patient sedation.
   Allergies:
   Sulfa (Sulfonamide Antibiotics) <Hives>
   Infusions:
   Heparin Sodium - 780 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-4-24**] 08:18 PM
   Furosemide (Lasix) - [**2191-4-24**] 11:30 PM
   Fentanyl - [**2191-4-25**] 01:17 AM
   Midazolam (Versed) - [**2191-4-25**] 01:17 AM
   Flowsheet Data as of  [**2191-4-25**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.5
C (99.5
   HR: 85 (74 - 122) bpm
   BP: 127/67(88) {118/57(78) - 178/99(129)} mmHg
   RR: 17 (16 - 64) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                  1,840 mL
                                                                    661 mL
   PO:
             TF:
                                                                    600 mL
                                                                     75 mL
   IVF:
                                                                    390 mL
                                                                    126 mL
   Blood products:
   Total out:
                                                                  2,510 mL
                                                                    865 mL
   Urine:
                                                                  2,210 mL
                                                                    845 mL
   NG:
                                                                    100 mL
                                                                     20 mL
   Balance:
                                                                   -670 mL
                                                                   -204 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 374 (357 - 374) mL
   PS : 22 cmH2O
   RR (Set): 26
   RR (Spontaneous): 29
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 34 cmH2O
   SpO2: 92%
   ABG: 7.46/61/155/38/17
   Ve: 8 L/min
   PaO2 / FiO2: 221
   Physical Examination
   GEN: Intubated, sedated
   HEENT: PERRL. Anicteric. No pallor. No cervical LAD. Trach in place
   CV: RR, nl S1, nl S2, No murmurs appreciated.
   PULM: Coarse breath sounds bilaterally anteriorly
   ABD: Soft. Non-distended. Not tympanic. Decreased bowel sounds.
   Superficial ecchymoses. PEG tube in place.
   EXT: Warm. Diffusely edematous
   NEURO: sedated, non-response, eyes open and blinking, does not track
   movement, does not follow commands
   Labs / Radiology
   216 K/uL
   7.4 g/dL
   133 mg/dL
   1.8 mg/dL
   38 mEq/L
   4.2 mEq/L
   24 mg/dL
   94 mEq/L
   141 mEq/L
   22.1 %
   8.8 K/uL
        [image002.jpg]
                             [**2191-4-23**]  11:14 AM
                             [**2191-4-23**]  06:52 PM
                             [**2191-4-24**]  02:57 AM
                             [**2191-4-24**]  04:57 AM
                             [**2191-4-24**]  10:19 AM
                             [**2191-4-24**]  03:52 PM
                             [**2191-4-24**]  08:09 PM
                             [**2191-4-25**]  02:09 AM
                             [**2191-4-25**]  04:13 AM
                             [**2191-4-25**]  04:37 AM
   WBC
   8.2
   8.8
   Hct
   23.3
   22.1
   Plt
   192
   216
   Cr
   1.7
   1.8
   TCO2
   44
   44
   43
   47
   49
   43
   46
   45
   Glucose
   131
   133
   Other labs: PT / PTT / INR:14.5/91.6/1.3, ALT / AST:14/18, Alk Phos / T
   Bili:86/0.2, Differential-Neuts:88.7 %, Band:1.0 %, Lymph:5.4 %,
   Mono:3.7 %, Eos:2.1 %, D-dimer:7914 ng/mL, Fibrinogen:474 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   MICRO:
   [**4-25**] Urinalysis: negative
   [**4-25**] Urine culture: pending
   [**4-25**] blood culture: pending
   Assessment and Plan
   62F with admission for pneumonia developing into ARDS. Sputum and BAL
   showing MRSA at this point.
   # Hypoxemic respiratory failure:
   ARDS in the setting of MRSA pneumonia. Possibility of other
   complicating factors; however, ANCA negative, [**Doctor First Name **] positive with titer
   only 1:80, HIV status unknown. Has completed steroid taper. Drip
   sedation has been liberated and patient now doing well on bolus
   fentanyl and midazolam. Surveillance sputum culture from [**2191-4-8**] and
   [**2191-4-10**] with rare MRSA growth. Completed course of Vancomycin. Sputum
   culture from [**2191-4-20**] with sparse MRSA, thought to be related to
   colonization. Received trach and PEG on [**2191-4-21**]. Was moved to
   pressure support ventilation on [**2191-4-24**] and doing well so far aside
   from one desat this AM requiring FiO2 increase to 100% temporarily.
   - Follow-up ABG after decreasing FiO2 back to 70% this AM
   - Continue fentanyl patch at 200mcg/hr
   - Continue methadone and diazepam (PO route), methadone was titrated
   down to 30 mg Q4H yesterday, will hold off on further titration today
   - Bolus fentanyl and midazolam as needed
   - Relax diuresis and goal of even today
   # Fever:
   Spike again last night. Blood and urine cultures negative thus far and
   remain negative from spike on [**2191-4-20**].
   - Follow-up pending blood cultures.
   - Follow-up urine culture
   # Anemia:
   HCT down to 22 today. Has slowly trended down. Stool has been guaiac
   negative; however, has not been rechecked since starting heparin drip.
   - Guaiac stool
   - Evening HCT check
   - Transfusion threshold of < 21 for HCT
   # DVT:
   Found to have L-IJ clot extending into subclavian. The line was removed
   however; the patient
s PTT was elevated initially without systemic
   anticoagulation.  Initially unclear if this rise in PTT is due only to
   heparin SC, however patient had previously normal PTT on this
   admission. Lupus anticoag was found to be positive and Heme consult was
   obtained and feels that patient has a transient positive lupus
   anticoagulant. Any PTT elevation is thought to be unreliable in
   determining patient
s anti-coag status. Heparin drip was begun on
   [**2191-4-19**] with STAT unfractionated heparin levels being used to titrate
   heparin drip. Is now on hold for heparin drip due to oozing of blood
   around trach site and will be restarted on morning of [**2191-4-24**].
   - Heparin drip titrated to unfractionated heparin level (therapeutic
   0.3-0.7) (ordered STAT and takes 4 hours to return)
   - Will manage anticoagulation with enoxaparin once renal function
   allows
   - Patient should have repeat LUE ultrasound as well as lupus
   anticoagulant (LA) in one month and if LA remains positive will need
   recheck in 12 weeks
   # [**Last Name (un) **]:
   Thought to originally be attributed to ATN. Cr appears to be fixed at
   ~1.8 at this time. Nephrology was consulted initially, but has signed
   off.
   - Relax on diuresis to see if Cr will further recover.
   - [**Last Name (un) **] Cr
   #Anemia:
   HCT is 23.3 today. Stool is guaiac negative. Likely all related to
   phlebotomy.  Transfused 1unit PRBC on [**4-20**] for slowly downward drifting
   HCT and has been stable since.
   - Minimize phlebotomy
   - Continue to [**Last Name (LF) 1940**], [**First Name3 (LF) 124**] hold off on transfusion today
   # Hypertension:
   Currently stable with systolics in 120s
 150s when sedation managed.
   - Continue to monitor
   - Cont diltiazem to 60mg qid
   ICU Care
   Nutrition: Nutren 2.0 (Full) - [**2191-4-24**] 12:00 AM 10 mL/hour, should
   advance back to goal of 25 mL/hour
   Glycemic Control:  Sliding scale insulin
   Lines:
   Arterial Line - [**2191-4-2**] 07:52 PM
   PICC Line - [**2191-4-13**] 10:30 AM
   Prophylaxis:
   DVT: Heparin drip
   Stress ulcer: PPI
   VAP:  Oral care and head of bed elevation
   Communication:  With patient
s sister
   [**Name (NI) 156**] status: Full code
   Disposition: Remain in ICU
   ------ Protected Section ------
   Disregard second
# Anemia
 section in assessment and plan. The
   inclusion of that section was in error.
   ------ Protected Section Addendum Entered By:[**Name (NI) 786**] [**Last Name (NamePattern1) 5467**], MD
   on:[**2191-4-26**] 11:37 ------

2191-04-25 10:48:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Pneumonia, ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2191-4-25**] 01:45 AM
   from PICC
 URINE CULTURE - At [**2191-4-25**] 03:00 AM
 BLOOD CULTURED - At [**2191-4-25**] 04:00 AM
 FEVER - 101.1
F - [**2191-4-25**] 01:00 AM
   - mental status improving, following commands intermittently
   - changed to PSV
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-4-24**] 08:18 PM
   Furosemide (Lasix) - [**2191-4-24**] 11:30 PM
   Fentanyl - [**2191-4-25**] 01:17 AM
   Midazolam (Versed) - [**2191-4-25**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-25**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.1
C (98.7
   HR: 90 (74 - 122) bpm
   BP: 161/92(116) {118/57(78) - 178/99(129)} mmHg
   RR: 20 (16 - 64) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                  1,840 mL
                                                                    784 mL
   PO:
             TF:
                                                                    600 mL
                                                                    108 mL
   IVF:
                                                                    390 mL
                                                                    186 mL
   Blood products:
   Total out:
                                                                  2,510 mL
                                                                  1,145 mL
   Urine:
                                                                  2,210 mL
                                                                  1,125 mL
   NG:
                                                                    100 mL
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                   -670 mL
                                                                   -361 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 293 (293 - 374) mL
   PS : 22 cmH2O
   RR (Set): 26
   RR (Spontaneous): 40
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 35 cmH2O
   SpO2: 92%
   ABG: 7.46/61/155/38/17
   Ve: 13.1 L/min
   PaO2 / FiO2: 221
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: trached
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Clear : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   216 K/uL
   133 mg/dL
   1.8 mg/dL
   38 mEq/L
   4.2 mEq/L
   24 mg/dL
   94 mEq/L
   141 mEq/L
   22.1 %
   8.8 K/uL
        [image002.jpg]
                             [**2191-4-23**]  11:14 AM
                             [**2191-4-23**]  06:52 PM
                             [**2191-4-24**]  02:57 AM
                             [**2191-4-24**]  04:57 AM
                             [**2191-4-24**]  10:19 AM
                             [**2191-4-24**]  03:52 PM
                             [**2191-4-24**]  08:09 PM
                             [**2191-4-25**]  02:09 AM
                             [**2191-4-25**]  04:13 AM
                             [**2191-4-25**]  04:37 AM
   WBC
   8.2
   8.8
   Hct
   23.3
   22.1
   Plt
   192
   216
   Cr
   1.7
   1.8
   TCO2
   44
   44
   43
   47
   49
   43
   46
   45
   Glucose
   131
   133
   Other labs: PT / PTT / INR:14.5/91.6/1.3, ALT / AST:14/18, Alk Phos / T
   Bili:86/0.2, Differential-Neuts:88.7 %, Band:1.0 %, Lymph:5.4 %,
   Mono:3.7 %, Eos:2.1 %, D-dimer:7914 ng/mL, Fibrinogen:474 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Respiratory failure:
   -PNA -> ARDS
   - s/p trache
   - lungs still with poor compliance
   - cont wean as tolerated
    Mental status
   -cont wean drip sedation
   -methadone
   Anemia
   -cont to drift downward
   - ? phlebotomy
   -stool guiac negative
   Fevers:
   -afeb x 2 days
   -cx remain negative other than MRSA in sputum, sig polys but min sputum
   on sxn so monitor for now
   left IJ clot
   - heparin drip
   acute renal failure:
   - creatine stabilizing around 1.7.  Unclear if will be a new baseline
   or if will get back toward her previous ~.8 baseline
    Remainder of plan per resident note
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2191-4-24**] 11:59 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2191-4-2**] 07:52 PM
   PICC Line - [**2191-4-13**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2191-04-26 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Continued on pressure support ventilation without incident
   ROS:
   Unable to obtain due to sedation.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Labetalol - [**2191-4-26**] 12:38 AM
   Fentanyl - [**2191-4-26**] 04:02 AM
   Midazolam (Versed) - [**2191-4-26**] 06:30 AM
   Flowsheet Data as of  [**2191-4-26**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.9
C (100.2
   HR: 103 (79 - 111) bpm
   BP: 131/66(88) {118/55(76) - 173/98(125)} mmHg
   RR: 20 (18 - 42) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
             Total In:
                                                                  1,367 mL
                                                                    401 mL
   PO:
             TF:
                                                                    317 mL
                                                                    175 mL
   IVF:
                                                                    429 mL
                                                                    126 mL
   Blood products:
   Total out:
                                                                  1,755 mL
                                                                    440 mL
   Urine:
                                                                  1,735 mL
                                                                    440 mL
   NG:
                                                                     20 mL
   Balance:
                                                                   -388 mL
                                                                    -38 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 380 (293 - 395) mL
   PS : 22 cmH2O
   RR (Spontaneous): 27
   PEEP: 10 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   SpO2: 96%
   ABG: 7.45/60/81.[**Numeric Identifier **]/37/14
   Ve: 12.3 L/min
   PaO2 / FiO2: 103
   Physical Examination
   GEN: Intubated, sedated
   HEENT: PERRL. Anicteric. No pallor. No cervical LAD. Trach in place
   CV: RR, nl S1, nl S2, No murmurs appreciated.
   PULM: Coarse breath sounds bilaterally anteriorly
   ABD: Soft. Non-distended. Not tympanic. Decreased bowel sounds.
   Superficial ecchymoses. PEG tube in place.
   EXT: Warm. Diffusely edematous
   NEURO: sedated, non-response, eyes open and blinking, does not track
   movement, does not follow commands
   Labs / Radiology
   244 K/uL
   7.3 g/dL
   123 mg/dL
   1.8 mg/dL
   37 mEq/L
   4.3 mEq/L
   25 mg/dL
   95 mEq/L
   140 mEq/L
   22.0 %
   8.6 K/uL
        [image002.jpg]
                             [**2191-4-24**]  10:19 AM
                             [**2191-4-24**]  03:52 PM
                             [**2191-4-24**]  08:09 PM
                             [**2191-4-25**]  02:09 AM
                             [**2191-4-25**]  04:13 AM
                             [**2191-4-25**]  04:37 AM
                             [**2191-4-25**]  11:01 AM
                             [**2191-4-25**]  05:39 PM
                             [**2191-4-26**]  03:20 AM
                             [**2191-4-26**]  03:46 AM
   WBC
   8.8
   8.6
   Hct
   22.1
   22.0
   Plt
   216
   244
   Cr
   1.8
   1.8
   TCO2
   47
   49
   43
   46
   45
   46
   43
   43
   Glucose
   133
   123
   Other labs: PT / PTT / INR:14.7/101.0/1.3, ALT / AST:14/18, Alk Phos /
   T Bili:86/0.2, Differential-Neuts:88.7 %, Band:1.0 %, Lymph:5.4 %,
   Mono:3.7 %, Eos:2.1 %, D-dimer:7914 ng/mL, Fibrinogen:474 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   62F with admission for pneumonia developing into ARDS. Sputum and BAL
   showing MRSA at this point.
   # Hypoxemic respiratory failure:
   ARDS in the setting of MRSA pneumonia. Possibility of other
   complicating factors; however, ANCA negative, [**Doctor First Name **] positive with titer
   only 1:80, HIV status unknown. Has completed steroid taper. Drip
   sedation has been liberated and patient now doing well on bolus
   fentanyl and midazolam. Surveillance sputum culture from [**2191-4-8**] and
   [**2191-4-10**] with rare MRSA growth. Completed course of Vancomycin. Sputum
   culture from [**2191-4-20**] with sparse MRSA, thought to be related to
   colonization. Received trach and PEG on [**2191-4-21**]. Was moved to
   pressure support ventilation on [**2191-4-24**] and doing well so far aside
   from one desat this AM requiring FiO2 increase to 100% temporarily.
   - Follow-up ABG after decreasing FiO2 back to 70% this AM
   - Continue fentanyl patch at 200mcg/hr
   - Continue methadone and diazepam (PO route), methadone was titrated
   down to 30 mg Q4H yesterday, will hold off on further titration today
   - Bolus fentanyl and midazolam as needed
   - Relax diuresis and goal of even today
   # Fever:
   Spike again last night. Blood and urine cultures negative thus far and
   remain negative from spike on [**2191-4-20**].
   - Follow-up pending blood cultures.
   - Follow-up urine culture
   # Anemia:
   HCT down to 22 today. Has slowly trended down. Stool has been guaiac
   negative; however, has not been rechecked since starting heparin drip.
   - Guaiac stool
   - Evening HCT check
   - Transfusion threshold of < 21 for HCT
   # DVT:
   Found to have L-IJ clot extending into subclavian. The line was removed
   however; the patient
s PTT was elevated initially without systemic
   anticoagulation.  Initially unclear if this rise in PTT is due only to
   heparin SC, however patient had previously normal PTT on this
   admission. Lupus anticoag was found to be positive and Heme consult was
   obtained and feels that patient has a transient positive lupus
   anticoagulant. Any PTT elevation is thought to be unreliable in
   determining patient
s anti-coag status. Heparin drip was begun on
   [**2191-4-19**] with STAT unfractionated heparin levels being used to titrate
   heparin drip. Is now on hold for heparin drip due to oozing of blood
   around trach site and will be restarted on morning of [**2191-4-24**].
   - Heparin drip titrated to unfractionated heparin level (therapeutic
   0.3-0.7) (ordered STAT and takes 4 hours to return)
   - Will manage anticoagulation with enoxaparin once renal function
   allows
   - Patient should have repeat LUE ultrasound as well as lupus
   anticoagulant (LA) in one month and if LA remains positive will need
   recheck in 12 weeks
   # [**Last Name (un) **]:
   Thought to originally be attributed to ATN. Cr appears to be fixed at
   ~1.8 at this time. Nephrology was consulted initially, but has signed
   off.
   - Relax on diuresis to see if Cr will further recover.
   - [**Last Name (un) **] Cr
   #Anemia:
   HCT is 23.3 today. Stool is guaiac negative. Likely all related to
   phlebotomy.  Transfused 1unit PRBC on [**4-20**] for slowly downward drifting
   HCT and has been stable since.
   - Minimize phlebotomy
   - Continue to [**Last Name (LF) 1940**], [**First Name3 (LF) 124**] hold off on transfusion today
   # Hypertension:
   Currently stable with systolics in 120s
 150s when sedation managed.
   - Continue to monitor
   - Cont diltiazem to 60mg qid
   ICU Care
   Nutrition: Nutren 2.0 (Full) - [**2191-4-24**] 12:00 AM 10 mL/hour, should
   advance back to goal of 25 mL/hour
   Glycemic Control:  Sliding scale insulin
   Lines:
   Arterial Line - [**2191-4-2**] 07:52 PM
   PICC Line - [**2191-4-13**] 10:30 AM
   Prophylaxis:
   DVT: Heparin drip
   Stress ulcer: PPI
   VAP:  Oral care and head of bed elevation
   Communication:  With patient
s sister
   [**Name (NI) 156**] status: Full code
   Disposition: Remain in ICU

2191-04-26 11:19:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63 yo women with MRSA PNA and ARDS.  Continues on high vent settings,
   requiring high FiO2.  Febrile yesterday.
   24 Hour Events:
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Labetalol - [**2191-4-26**] 12:38 AM
   Fentanyl - [**2191-4-26**] 10:00 AM
   Midazolam (Versed) - [**2191-4-26**] 10:15 AM
   Other medications:
   protonix
   lipitor
   colace
   chlorhexidine
   SSI
   fentanyl
   valium
   senna
   dilt
   synthroid
   hep SS
   methadone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-26**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.5
C (99.5
   HR: 115 (79 - 115) bpm
   BP: 199/99(140) {118/55(76) - 199/99(140)} mmHg
   RR: 42 (18 - 42) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
             Total In:
                                                                  1,367 mL
                                                                    622 mL
   PO:
             TF:
                                                                    317 mL
                                                                    275 mL
   IVF:
                                                                    429 mL
                                                                    198 mL
   Blood products:
   Total out:
                                                                  1,755 mL
                                                                    620 mL
   Urine:
                                                                  1,735 mL
                                                                    620 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                   -388 mL
                                                                      2 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 332 (301 - 395) mL
   PS : 22 cmH2O
   RR (Spontaneous): 32
   PEEP: 10 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   SpO2: 91%
   ABG: 7.45/60/81.[**Numeric Identifier **]/37/14
   Ve: 12.1 L/min
   PaO2 / FiO2: 103
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : coarse rales b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Movement: Not assessed, Tone: Not assessed, opens
   eyes to voice, but doesn't follow commands
   Labs / Radiology
   7.3 g/dL
   244 K/uL
   123 mg/dL
   1.8 mg/dL
   37 mEq/L
   4.3 mEq/L
   25 mg/dL
   95 mEq/L
   140 mEq/L
   22.0 %
   8.6 K/uL
        [image002.jpg]
                             [**2191-4-24**]  10:19 AM
                             [**2191-4-24**]  03:52 PM
                             [**2191-4-24**]  08:09 PM
                             [**2191-4-25**]  02:09 AM
                             [**2191-4-25**]  04:13 AM
                             [**2191-4-25**]  04:37 AM
                             [**2191-4-25**]  11:01 AM
                             [**2191-4-25**]  05:39 PM
                             [**2191-4-26**]  03:20 AM
                             [**2191-4-26**]  03:46 AM
   WBC
   8.8
   8.6
   Hct
   22.1
   22.0
   Plt
   216
   244
   Cr
   1.8
   1.8
   TCO2
   47
   49
   43
   46
   45
   46
   43
   43
   Glucose
   133
   123
   Other labs: PT / PTT / INR:14.7/101.0/1.3, ALT / AST:14/18, Alk Phos /
   T Bili:86/0.2, Differential-Neuts:88.7 %, Band:1.0 %, Lymph:5.4 %,
   Mono:3.7 %, Eos:2.1 %, D-dimer:7914 ng/mL, Fibrinogen:474 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR: Increased b/l infiltrates
   Assessment and Plan
   Hypoxemic respiratory failure:  Is worse with worsening CXR.   Will do
   miniBAL and start broad spectrum antibiotics for VAP given fever and
   worsening infiltrates.
   lupus anticoag/DVT:  on heparin gtt
   DM II control
   anemia:  hct low but stable
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2191-4-24**] 11:59 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2191-4-2**] 07:52 PM
   PICC Line - [**2191-4-13**] 10:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2191-04-27 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Was started on Linezolid, Zosyn, Cipro due to new fevers, increased
   secretions, worsening CXR, and worsening hypoxia
   - One out of two blood cultures returned as positive for gram positive
   cocci in clutsters
   - New blood cultures drawn for surveillance
   - Mini-BAL performed, gram stain with 4+ gram positive cocci
   - Called her sister, [**Name (NI) 5916**], in the evening to let her know about new
   infection and she will be in for family meeting in early afternoon on
   [**4-27**]
   - Patient with sats in low 90s overnight and was difficult to
   ventilate, was on volume control for several hours, had ABG of
   7.38/64/46 early morning of [**4-27**]; switched to pressure control  and
   FiO2 increased to 100% and ABG redrawn to show 7.36/69/53
   - Morning HCT was down to 21.3 so transfused 1 unit PRBCs
   - Urine lytes sent due to low UOP and slight increase/plateau in Cr
 BAL FLUID CULTURE - At [**2191-4-26**] 03:38 PM
 BLOOD CULTURED - At [**2191-4-27**] 02:45 AM
   obtained from the picc line
 URINE CULTURE - At [**2191-4-27**] 05:04 AM
   urine lytes sent
 FEVER - 101.5
F - [**2191-4-26**] 08:00 PM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2191-4-26**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2191-4-27**] 02:00 AM
   Linezolid - [**2191-4-27**] 04:16 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2191-4-27**] 12:40 AM
   Fentanyl - [**2191-4-27**] 12:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-27**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.2
C (99
   HR: 89 (84 - 115) bpm
   BP: 139/66(91) {101/51(68) - 199/113(140)} mmHg
   RR: 23 (22 - 57) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
           Total In:
                                                                  2,468 mL
                                                                  1,349 mL
   PO:
           TF:
                                                                    601 mL
                                                                    179 mL
   IVF:
                                                                  1,377 mL
                                                                    822 mL
   Blood products:
   38 mL
   Total out:
                                                                  1,215 mL
                                                                    215 mL
   Urine:
                                                                  1,215 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,253 mL
                                                                  1,134 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+Assist
   Vt (Set): 0 (0 - 350) mL
   Vt (Spontaneous): 351 (332 - 351) mL
   PS : 22 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 43 cmH2O
   SpO2: 94%
   ABG: 7.36/69/53/35/9
   Ve: 11 L/min
   PaO2 / FiO2: 53
   Physical Examination
   GEN: Intubated, sedated
   HEENT: PERRL. Anicteric. No pallor. No cervical LAD. Trach in place
   CV: RR, nl S1, nl S2, No murmurs appreciated.
   PULM: Coarse breath sounds bilaterally anteriorly
   ABD: Soft. Non-distended. Not tympanic. Decreased bowel sounds.
   Superficial ecchymoses. PEG tube in place.
   EXT: Warm. Diffusely edematous
   NEURO: sedated, non-response, eyes open and blinking, does not track
   movement, does not follow commands
   Labs / Radiology
   281 K/uL
   7.1 g/dL
   90 mg/dL
   1.9 mg/dL
   35 mEq/L
   4.1 mEq/L
   25 mg/dL
   92 mEq/L
   135 mEq/L
   21.3 %
   10.9 K/uL
        [image002.jpg]
                             [**2191-4-25**]  04:13 AM
                             [**2191-4-25**]  04:37 AM
                             [**2191-4-25**]  11:01 AM
                             [**2191-4-25**]  05:39 PM
                             [**2191-4-26**]  03:20 AM
                             [**2191-4-26**]  03:46 AM
                             [**2191-4-26**]  03:27 PM
                             [**2191-4-27**]  02:38 AM
                             [**2191-4-27**]  04:58 AM
                             [**2191-4-27**]  06:41 AM
   WBC
   8.8
   8.6
   10.9
   Hct
   22.1
   22.0
   21.3
   Plt
   [**Telephone/Fax (3) 5917**]
   Cr
   1.8
   1.8
   1.9
   TCO2
   45
   46
   43
   43
   43
   39
   41
   Glucose
   133
   123
   90
   Other labs: PT / PTT / INR:15.8/137.7/1.4, ALT / AST:14/18, Alk Phos /
   T Bili:86/0.2, Differential-Neuts:85.3 %, Band:1.0 %, Lymph:7.1 %,
   Mono:4.8 %, Eos:2.5 %, D-dimer:7914 ng/mL, Fibrinogen:474 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   62F with admission for pneumonia developing into ARDS. Sputum and BAL
   showing MRSA at this point.
   # Hypoxemic respiratory failure:
   ARDS in the setting of MRSA pneumonia. Possibility of other
   complicating factors; however, ANCA negative, [**Doctor First Name **] positive with titer
   only 1:80, HIV status unknown. Has completed steroid taper. Drip
   sedation had been weaned, however the patient is now again requiring
   drip plus bolus sedation (fentanyl and midazolam). Surveillance sputum
   culture from [**2191-4-8**] and [**2191-4-10**] with rare MRSA growth and the
   patient completed a course of Vancomycin. Sputum culture from [**2191-4-20**]
   with sparse MRSA, thought to be related to colonization initially;
   however, has been persistently febrile. Received trach and PEG on
   [**2191-4-21**]. Was moved to pressure support ventilation on [**2191-4-24**] and
   now with increasing vent requirements and need for increasing pressure
   and PEEP to maintain sats. CXR appears worse and in setting of new
   fevers and now with blood culture from [**4-25**] and gram stain from [**4-26**]
   mini-BAL with gram positive cocci. Continuing Linezolid, Vanc and
   Ciprofloxacin for now. Now on pressure control with FiO2 of 100%.
   - Cont empiric VAP coverage with Linezolid, Zosyn, Ciprofloxacin
   - Mini-BAL today
   - Continue fenatnyl and midazolam drips as needed, cont fentanyl patch
   at 200mcg/hr
   - Continue methadone and diazepam (PO route)
   - Bolus fentanyl and midazolam as needed
   - Diuresis with goal of even to -1L today
   - follow-up speciation, sensitivities, and also surveillance cultures
   - will need family meeting to discuss worsening condition
   # Fever:
   Febrile in last several days. Blood and mini-BAL cultures indicating
   new infection. CXR appears worse.
   - Cont empiric VAP coverage with Linezolid, Zosyn, Ciprofloxacin
   - Mini-BAL yesterday showing increased gram +ve cocci
   - Follow-up pending blood cultures
   - Follow-up urine culture
   # Anemia:
   HCT slightly down at 21.3 today. Has slowly trended down. Stool is
   guaiac negative.
   - Transfusion one unit pRBCs
   # DVT:
   Found to have L-IJ clot extending into subclavian. The line was removed
   however; the patient
s PTT was elevated initially without systemic
   anticoagulation.  Initially unclear if this rise in PTT is due only to
   heparin SC, however patient had previously normal PTT on this
   admission. Lupus anticoag was found to be positive and Heme consult was
   obtained and feels that patient has a transient positive lupus
   anticoagulant. Any PTT elevation is thought to be unreliable in
   determining patient
s anti-coag status. Heparin drip was begun on
   [**2191-4-19**] with STAT unfractionated heparin levels being used to titrate
   heparin drip. Drip was on hold briefly after trach procedure due to
   oozing of blood around trach site and was restarted on morning of
   [**2191-4-24**].
   - Heparin drip titrated to unfractionated heparin level (therapeutic
   0.3-0.7) (ordered STAT and takes 4 hours to return)
   - Will manage anticoagulation with enoxaparin once renal function
   allows
   - Patient should have repeat LUE ultrasound as well as lupus
   anticoagulant (LA) in one month and if LA remains positive will need
   recheck in 12 weeks
   # [**Last Name (un) **]:
   Thought to originally be attributed to ATN. Cr appears to be fixed at
   ~1.8-1.9 at this time. Nephrology was consulted initially, but has
   signed off. Urine lytes sent due to low urine output. Fract Urea 60%
   which is consistent with ATN (50-65%).
   - Relax on diuresis to see if Cr will further recover.
   - Trend Cr
   # Hypertension:
   Currently stable with systolics in 120s
 150s when sedation managed.
   - Continue to monitor
   - Cont Diltiazem 60 mg four times daily
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2191-4-26**] 11:13 AM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2191-4-2**] 07:52 PM
   PICC Line - [**2191-4-13**] 10:30 AM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: PPI
   VAP:  Linezolid, Zosyn, Cipro
   Comments:
   Communication:
   Code status: Full code
   Disposition:pending

2191-04-27 09:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 yo women with MRSA PNA, ARDS.  Patient much worse today.  Increasing
   oxygen requirement.  Febrile again today.
   24 Hour Events:
 BAL FLUID CULTURE - At [**2191-4-26**] 03:38 PM
 BLOOD CULTURED - At [**2191-4-27**] 02:45 AM
   obtained from the picc line
 URINE CULTURE - At [**2191-4-27**] 05:04 AM
   urine lytes sent
 FEVER - 101.5
F - [**2191-4-26**] 08:00 PM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2191-4-26**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2191-4-27**] 02:00 AM
   Linezolid - [**2191-4-27**] 04:16 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Fentanyl - [**2191-4-27**] 07:43 AM
   Midazolam (Versed) - [**2191-4-27**] 07:43 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-27**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.3
C (99.1
   HR: 90 (84 - 115) bpm
   BP: 142/68(92) {101/51(68) - 199/113(140)} mmHg
   RR: 22 (22 - 57) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
           Total In:
                                                                  2,468 mL
                                                                  1,868 mL
   PO:
           TF:
                                                                    601 mL
                                                                    216 mL
   IVF:
                                                                  1,377 mL
                                                                    877 mL
   Blood products:
   375 mL
   Total out:
                                                                  1,215 mL
                                                                    320 mL
   Urine:
                                                                  1,215 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,253 mL
                                                                  1,548 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+Assist
   Vt (Set): 0 (0 - 350) mL
   Vt (Spontaneous): 351 (340 - 351) mL
   PS : 22 cmH2O
   RR (Set): 26
   RR (Spontaneous): 4
   PEEP: 16 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 43 cmH2O
   SpO2: 97%
   ABG: 7.36/69/53/35/9
   Ve: 11.1 L/min
   PaO2 / FiO2: 53
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : coarse)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: No(t) Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.1 g/dL
   281 K/uL
   90 mg/dL
   1.9 mg/dL
   35 mEq/L
   4.1 mEq/L
   25 mg/dL
   92 mEq/L
   135 mEq/L
   21.3 %
   10.9 K/uL
        [image002.jpg]
                             [**2191-4-25**]  04:13 AM
                             [**2191-4-25**]  04:37 AM
                             [**2191-4-25**]  11:01 AM
                             [**2191-4-25**]  05:39 PM
                             [**2191-4-26**]  03:20 AM
                             [**2191-4-26**]  03:46 AM
                             [**2191-4-26**]  03:27 PM
                             [**2191-4-27**]  02:38 AM
                             [**2191-4-27**]  04:58 AM
                             [**2191-4-27**]  06:41 AM
   WBC
   8.8
   8.6
   10.9
   Hct
   22.1
   22.0
   21.3
   Plt
   [**Telephone/Fax (3) 5917**]
   Cr
   1.8
   1.8
   1.9
   TCO2
   45
   46
   43
   43
   43
   39
   41
   Glucose
   133
   123
   90
   Other labs: PT / PTT / INR:15.8/137.7/1.4, ALT / AST:14/18, Alk Phos /
   T Bili:86/0.2, Differential-Neuts:85.3 %, Band:1.0 %, Lymph:7.1 %,
   Mono:4.8 %, Eos:2.5 %, D-dimer:7914 ng/mL, Fibrinogen:474 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Respiratory failure:  worsening oxygenation.  CXR with evidence of
   fibrotic changes in setting of ARDS.  [**Month (only) 8**] have VAP given fevers.
   DIfficult to tell
   if new infiltrate is present.  Started in linezolid, zosyn, cipro.  Is
   now on an FiO2 of 1.
   Reasonable to try some diuresis.
   Acute renal failure:  Creatinine has plateaued at 1.9
   Fevers:  resite A-line as cx were positive from A-line.
   DVT/lupus anticoag:  On heparin drip, dosed by heparin level
   ICU Care
   Nutrition:
   Comments: TFs:  Having periodically increased residuals
   Glycemic Control:
   Lines:
   Arterial Line - [**2191-4-2**] 07:52 PM
   PICC Line - [**2191-4-13**] 10:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2191-04-28 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2191-4-27**] 12:30 PM
 ARTERIAL LINE - STOP [**2191-4-27**] 12:32 PM
   - Transfused 1 unit with appropriate increase in HCT.
   - Continued diruesis with Lasix
   - Family meeting discussing new infection and poor prognosis. Family
   stated the patient would like to do everything and they would like to
   reassess in a couple of days.
   - Placed on Lasix drip with poor response, free water flushes
   decreased.
   - Added Diuril 500 mg IV BID to attempt diuresis
   - Worsening ABG: 7.32/75/46 called family to ask them to come in early
   today. Repeat ABG: 7.25/85/47
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2191-4-27**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2191-4-28**] 02:00 AM
   Linezolid - [**2191-4-28**] 04:15 AM
   Infusions:
   Fentanyl - 250 mcg/hour
   Furosemide (Lasix) - 18 mg/hour
   Heparin Sodium - 800 units/hour
   Midazolam (Versed) - 12 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2191-4-27**] 05:00 PM
   Pantoprazole (Protonix) - [**2191-4-27**] 08:00 PM
   Fentanyl - [**2191-4-28**] 06:26 AM
   Midazolam (Versed) - [**2191-4-28**] 06:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-28**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.2
   HR: 98 (86 - 104) bpm
   BP: 127/60(81) {119/56(-14) - 169/74(104)} mmHg
   RR: 33 (17 - 47) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                  3,318 mL
                                                                  1,213 mL
   PO:
             TF:
                                                                    401 mL
                                                                    175 mL
   IVF:
                                                                  1,832 mL
                                                                    938 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,075 mL
                                                                    375 mL
   Urine:
                                                                  1,475 mL
                                                                    375 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,243 mL
                                                                    838 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+Assist
   Vt (Set): 350 (350 - 350) mL
   PC : 24 cmH2O
   RR (Set): 26
   RR (Spontaneous): 3
   PEEP: 16 cmH2O
   FiO2: 100%
   PIP: 33 cmH2O
   SpO2: 90%
   ABG: 7.25/85.[**Numeric Identifier 299**]/47/31/6
   Ve: 7.4 L/min
   PaO2 / FiO2: 47
   Physical Examination
   GEN: Intubated, sedated
   HEENT: PERRL. Anicteric. No pallor. No cervical LAD. Trach in place
   CV: RR, nl S1, nl S2, No murmurs appreciated.
   PULM: Coarse breath sounds bilaterally anteriorly
   ABD: Soft. Non-distended. Not tympanic. Decreased bowel sounds.
   Superficial ecchymoses. PEG tube in place.
   EXT: Warm. Diffusely edematous
   NEURO: sedated, non-response, does not track movement, does not follow
   commands
   Labs / Radiology
   321 K/uL
   7.8 g/dL
   127 mg/dL
   2.0 mg/dL
   31 mEq/L
   4.4 mEq/L
   26 mg/dL
   91 mEq/L
   134 mEq/L
   24
   14.3 K/uL
        [image002.jpg]
                             [**2191-4-26**]  03:27 PM
                             [**2191-4-27**]  02:38 AM
                             [**2191-4-27**]  04:58 AM
                             [**2191-4-27**]  06:41 AM
                             [**2191-4-27**]  11:05 AM
                             [**2191-4-27**]  02:40 PM
                             [**2191-4-27**]  10:40 PM
                             [**2191-4-28**]  04:10 AM
                             [**2191-4-28**]  04:15 AM
                             [**2191-4-28**]  05:38 AM
   WBC
   10.9
   14.3
   Hct
   21.3
   24.6
   23.3
   24
   Plt
   281
   321
   Cr
   1.9
   1.9
   2.0
   TCO2
   43
   39
   41
   41
   40
   39
   Glucose
   90
   127
   Other labs: PT / PTT / INR:15.8/94.1/1.4, ALT / AST:14/18, Alk Phos / T
   Bili:86/0.2, Differential-Neuts:85.3 %, Band:1.0 %, Lymph:7.1 %,
   Mono:4.8 %, Eos:2.5 %, D-dimer:7914 ng/mL, Fibrinogen:783 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   62F with admission for pneumonia developing into ARDS. Sputum and BAL
   showing MRSA at this point.
   # Hypoxemic respiratory failure:
   ARDS in the setting of MRSA pneumonia. Possibility of other
   complicating factors; however, ANCA negative, [**Doctor First Name **] positive with titer
   only 1:80, HIV status unknown. Has completed steroid taper. Drip
   sedation had been weaned, however the patient is now again requiring
   drip plus bolus sedation (fentanyl and midazolam). Surveillance sputum
   culture from [**2191-4-8**] and [**2191-4-10**] with rare MRSA growth and the
   patient completed a course of Vancomycin. Sputum culture from [**2191-4-20**]
   with sparse MRSA, thought to be related to colonization initially;
   however, has been persistently febrile. Received trach and PEG on
   [**2191-4-21**]. Was moved to pressure support ventilation on [**2191-4-24**] and
   now with increasing vent requirements and need for increasing pressure
   and PEEP to maintain sats. CXR appears worse and in setting of new
   fevers. Blood cultures from [**4-25**] show coag neg staph and gram stain
   from [**4-26**] mini-BAL with coag positive staph aureus. Continuing
   Linezolid, Vanc and Ciprofloxacin for now. Respiratory status worsening
   on pressure control with FiO2 of 100%, recruitment attempts without
   effect.
   - Cont empiric VAP coverage with Linezolid, Zosyn, Ciprofloxacin
   - Mini-BAL culture shows coag positive staph aureus (10-100,000)
   - Continue fenatnyl and midazolam drips as needed, cont fentanyl patch
   at 200mcg/hr
   - Continue methadone and diazepam (PO route)
   - Bolus fentanyl and midazolam as needed
   - Diuresis with goal of -1L today
   - follow-up speciation, sensitivities, and also surveillance cultures
   - wean FiO2
   - will need family meeting to discuss worsening condition
   # Fever:
   Febrile in last several days. Blood and mini-BAL cultures indicating
   new infection. CXR appears worse.
   - Cont empiric VAP coverage with Linezolid, Zosyn, Ciprofloxacin
   - Mini-BAL yesterday showing increased gram +ve cocci
   - Follow-up pending blood cultures
   - Follow-up urine culture
   # Anemia:
   HCT to 24 from 21.3 yesterday after one unit pRBCs. Stool is guaiac
   negative.
   - Continue to monitor
   - Transfuse as necessary
   # DVT:
   Found to have L-IJ clot extending into subclavian. The line was removed
   however; the patient
s PTT was elevated initially without systemic
   anticoagulation.  Initially unclear if this rise in PTT is due only to
   heparin SC, however patient had previously normal PTT on this
   admission. Lupus anticoag was found to be positive and Heme consult was
   obtained and feels that patient has a transient positive lupus
   anticoagulant. Any PTT elevation is thought to be unreliable in
   determining patient
s anti-coag status. Heparin drip was begun on
   [**2191-4-19**] with STAT unfractionated heparin levels being used to titrate
   heparin drip. Drip was on hold briefly after trach procedure due to
   oozing of blood around trach site and was restarted on morning of
   [**2191-4-24**].
   - Heparin drip titrated to unfractionated heparin level (therapeutic
   0.3-0.7) (ordered STAT and takes 4 hours to return)
   - Will manage anticoagulation with enoxaparin once renal function
   allows
   - Patient should have repeat LUE ultrasound as well as lupus
   anticoagulant (LA) in one month and if LA remains positive will need
   recheck in 12 weeks
   # [**Last Name (un) **]:
   Thought to originally be attributed to ATN. Cr appears to be fixed at
   ~1.8-1.9 at this time. Nephrology was consulted initially, but has
   signed off. Urine lytes sent due to low urine output. Fract Urea 60%
   which is consistent with ATN (50-65%).  Overnight urine output trending
   down despite lasix gtt and diuril.
   - Continue lasix gtt
   - Continue Diuril 500 mg IV BID
   # Hypertension:
   Currently stable with systolics in 120s
 150s when sedation managed.
   - Continue to monitor
   - Cont Diltiazem 60 mg four times daily
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2191-4-27**] 01:00 PM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2191-4-13**] 10:30 AM
   Arterial Line - [**2191-4-27**] 12:30 PM
   20 Gauge - [**2191-4-27**] 05:51 PM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: PPI
   VAP:  Linezolid, Zosyn, Cipro
   Comments:
   Communication:
   Code status: Full code
   Disposition:ICU

2191-04-28 08:55:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 yo women with MRSA PNA, ARDS, respiratory fiailure:  Has been worse
   overnight with worsening hypoxemia and hypercarbia.  Low urine output
   despite lasix drip.
   24 Hour Events:
 ARTERIAL LINE - START [**2191-4-27**] 12:30 PM
 ARTERIAL LINE - STOP [**2191-4-27**] 12:32 PM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2191-4-27**] 12:00 PM
   Linezolid - [**2191-4-28**] 04:15 AM
   Piperacillin/Tazobactam (Zosyn) - [**2191-4-28**] 08:32 AM
   Infusions:
   Fentanyl - 250 mcg/hour
   Furosemide (Lasix) - 18 mg/hour
   Heparin Sodium - 800 units/hour
   Midazolam (Versed) - 12 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2191-4-27**] 05:00 PM
   Pantoprazole (Protonix) - [**2191-4-27**] 08:00 PM
   Fentanyl - [**2191-4-28**] 06:26 AM
   Midazolam (Versed) - [**2191-4-28**] 06:27 AM
   Other medications:
   protonix
   lipitor
   chlorhex
   SSI
   valium
   senna
   synthroid
   methodone
   cipro
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-28**] 08:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37
C (98.6
   HR: 97 (86 - 104) bpm
   BP: 128/62(83) {119/56(-14) - 169/74(104)} mmHg
   RR: 39 (17 - 47) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                  3,318 mL
                                                                  1,471 mL
   PO:
             TF:
                                                                    401 mL
                                                                    218 mL
   IVF:
                                                                  1,832 mL
                                                                  1,113 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,075 mL
                                                                    480 mL
   Urine:
                                                                  1,475 mL
                                                                    480 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,243 mL
                                                                    991 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+Assist
   Vt (Set): 350 (350 - 350) mL
   PC : 24 cmH2O
   RR (Set): 26
   RR (Spontaneous): 18
   PEEP: 16 cmH2O
   FiO2: 100%
   PIP: 35 cmH2O
   SpO2: 89%
   ABG: 7.25/85.[**Numeric Identifier 299**]/47/31/6
   Ve: 7.2 L/min
   PaO2 / FiO2: 47
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   321 K/uL
   127 mg/dL
   2.0 mg/dL
   31 mEq/L
   4.4 mEq/L
   26 mg/dL
   91 mEq/L
   134 mEq/L
   24
   14.3 K/uL
        [image002.jpg]
                             [**2191-4-26**]  03:27 PM
                             [**2191-4-27**]  02:38 AM
                             [**2191-4-27**]  04:58 AM
                             [**2191-4-27**]  06:41 AM
                             [**2191-4-27**]  11:05 AM
                             [**2191-4-27**]  02:40 PM
                             [**2191-4-27**]  10:40 PM
                             [**2191-4-28**]  04:10 AM
                             [**2191-4-28**]  04:15 AM
                             [**2191-4-28**]  05:38 AM
   WBC
   10.9
   14.3
   Hct
   21.3
   24.6
   23.3
   24
   Plt
   281
   321
   Cr
   1.9
   1.9
   2.0
   TCO2
   43
   39
   41
   41
   40
   39
   Glucose
   90
   127
   Other labs: PT / PTT / INR:15.8/94.1/1.4, ALT / AST:14/18, Alk Phos / T
   Bili:86/0.2, Differential-Neuts:85.3 %, Band:1.0 %, Lymph:7.1 %,
   Mono:4.8 %, Eos:2.5 %, D-dimer:7914 ng/mL, Fibrinogen:783 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Imaging: CXR:  diffuse b/l infliltrates
   Assessment and Plan
   Respiratory failure:  Worsening hypoxemia and hypercarbia with very
   stiff lungs.  High dead space.  Very poor prognosis.
   renal failure:  worsening renal failure
   Family to come in and discuss withdrawl of care as chances of recovery
   essentially nonexistent.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2191-4-27**] 01:00 PM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2191-4-13**] 10:30 AM
   Arterial Line - [**2191-4-27**] 12:30 PM
   20 Gauge - [**2191-4-27**] 05:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill